2102-11-29 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2102-11-28**] 11:09 AM
 TRANS ESOPHAGEAL ECHO - At [**2102-11-28**] 01:00 PM
 BRONCHOSCOPY - At [**2102-11-28**] 05:00 PM
   ECHO done to eval heart function, showed a dilated RV with severe right
   ventricular systolic dysfunction.  CK and Trop + with normal MB.  Cards
   was consulted and beleive his troponin leak is [**2-6**] demand ischemia.
   Dilated RV raised concern for PE.  Patient had CTA done at OSH prior to
   transfer which per report was negative for PE.  Film uploaded into our
   system, and radiology was called and confirmed no PE on the OSH film.
   During bronchoscopy patient developed hypoxia to 70s and hypotension to
   60s.  Levophed increased.  2nd episode ocurred in the early evening.
   Patient became transiently hypoxic and dropped his pressures to SBP of
   80s.  Levophed chnaged to Neo and Vasopressin added.  Neo was then
   titrated off given right ventricular failure and Levo was added again.
   1L IVF bolus was given.
   3rd episdoe of hypoxia/hypotension ocurred around midnight.  Patient
   was desynchronous with the vent and this was thought to be the cause of
   his hypoxic event.  Sedation was changed from Fentanyl/Versed to
   Fentanyl/Propofol.  Patient seems more comfortable now.  FiO2 has now
   been weaned from 80% to 50%.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2102-11-28**] 08:00 AM
   Ceftriaxone - [**2102-11-28**] 11:28 AM
   Vancomycin - [**2102-11-28**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2102-11-28**] 12:00 PM
   Heparin Sodium - [**2102-11-28**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-29**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 78 (77 - 109) bpm
   BP: 131/64(85) {91/52(65) - 134/64(85)} mmHg
   RR: 20 (2 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 16 (9 - 20)mmHg
   Total In:
                                                                  5,544 mL
                                                                    344 mL
   PO:
   TF:
   IVF:
                                                                  3,454 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                     78 mL
   Urine:
                                                                    465 mL
                                                                     78 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,879 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 430 (430 - 600) mL
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.20/39/155/12/-11
   Ve: 14 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   8.1 g/dL
   173 mg/dL
   2.5 mg/dL
   12 mEq/L
   5.6 mEq/L
   55 mg/dL
   104 mEq/L
   133 mEq/L
   25.3 %
   11.6 K/uL
        [image002.jpg]
                            [**2102-11-28**]  06:15 PM
                            [**2102-11-28**]  07:04 PM
                            [**2102-11-28**]  07:24 PM
                            [**2102-11-28**]  08:28 PM
                            [**2102-11-28**]  08:45 PM
                            [**2102-11-28**]  11:29 PM
                            [**2102-11-29**]  12:42 AM
                            [**2102-11-29**]  03:08 AM
                            [**2102-11-29**]  03:18 AM
                            [**2102-11-29**]  04:37 AM
   WBC
   11.6
   Hct
   26
   24.6
   25.3
   Plt
   239
   Cr
   2.5
   2.5
   TropT
   0.67
   0.64
   0.79
   TCO2
   18
   20
   19
   19
   17
   18
   17
   16
   Glucose
   151
   155
   173
   Other labs: PT / PTT / INR:18.1/150.0/1.6, CK / CKMB /
   Troponin-T:502/22/0.79, ALT / AST:14/35, Alk Phos / T Bili:35/0.2,
   Amylase / Lipase:/19, Lactic Acid:1.1 mmol/L, LDH:506 IU/L, Ca++:7.1
   mg/dL, Mg++:1.8 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Likely secondary to multilobar
   pneumonia, bacterial vs. viral. There may be a component of fluid
   overload given acute worsening after 1L IV fluids and 1u PRBCs.
   Differential includes MI, TRALI, and PE. 1mm lateral ST segment
   depressions seen in OSH likely secondary to demand ischemia. PE less
   likely given infiltrates on CXR.
   -repeat CXR
   -ABG, wean current vent settings
   -increase sedation given autopeep and obstructive physiology
   -Vanc, Levofloxacin, Ceftriaxone for Community acquired pneumonia
   -f/u urine legionella Antigen
   -Bronch today: send for mycoplasma, legionella
   -send putum cultures
   -obtain influenza Ag
   -Tamiflu empirically
   -consider diuresis if hemodynamically stable in the AM
   -combivent PRN wheezing
   -start IV solumedrol
   -rule out MI with CEs
   -repeat EKG
   .
   # Hypotension: Patient initially hypertensive in the ED to 200s,
   requiring nitro gtt, and large amounts of sedation after intubation.
   Subsequently hypotensive on dopamine and levophed. Given that patient
   has been afebrile without leukocytosis, this is less likely sepsis.
   However, CXR shows multilobar pneumonia.
   -blood cultures -from subclavian, and peripherally
   -UA, urine culture
   -repeat CXR
   -titrate sedation to comfort on the vent
   -wean pressors -tolerating MAPs>60
   -obtain echo today
   .
   # Acute renal failure: Baseline Cr 1.1, upto 2.1 prior to transfer. [**Month (only) 51**]
   be ATN given hypotension vs. contrast induced nephropathy.
   -obtain urine lytes
   -500cc IV fluid bolus
   -obtain urine lytes
   -avoid nephrotoxins
   -renally dose meds
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   -daily HCTs
   .
   # Afib: Currently in afib, rate controlled in the 80s.
   -rate: hold metoprolol given current pressor requirement.
   -anticoagulation: f/u INR. Consider coumadin if INR < 3.0.
   -check dig level
   .
   # CAD s/p CABG:
   -ROMI
   -repeat EKG
   -continue ASA, statin
   -hold BB in the setting of hypotension
   .
   # FEN: IVFs / replete lytes prn / NPO -Nutrition consult for TFs
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R Subclavian placed [**11-27**] at OSH, PIV
   # CODE:  Currently intubated. Presumed full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-11-28**] 06:50 AM
   Arterial Line - [**2102-11-28**] 11:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-29 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Bronch complicated by transient hypotension and bradycardia
   - 2 additional episodes of hypoxia, hypotension and bradycardia
   overnight
   - TTE - dilated LV with severe RV dysfunction
   - Troponins positive
   - Cards consult
   - Switched from versed to propofol
   - FiO2 weaned from 0.8 to 0.5
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-28**] 11:28 AM
   Vancomycin - [**2102-11-29**] 08:00 AM
   Levofloxacin - [**2102-11-29**] 08:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Vecuronium - [**2102-11-28**] 12:00 PM
   Heparin Sodium - [**2102-11-28**] 03:00 PM
   Other medications:
   Levo gtt, tamiflu, levofloxacin, vanco, pantoprazole, versed gtt,
   albuterol/atrovent, ctx, wellbutrin, prozac, vasopressin, lopressor,
   asa, heparin gtt, simvastatin, dig, propofol, fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-29**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 74 (73 - 109) bpm
   BP: 119/58(76) {91/52(65) - 151/68(93)} mmHg
   RR: 24 (2 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 15 (9 - 20)mmHg
   Total In:
                                                                  5,544 mL
                                                                  1,075 mL
   PO:
   TF:
   IVF:
                                                                  3,454 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    198 mL
   Urine:
                                                                    465 mL
                                                                    198 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,879 mL
                                                                    877 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 600) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.21/41/109/12/-11
   Ve: 12.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   239 K/uL
   173 mg/dL
   2.5 mg/dL
   12 mEq/L
   5.6 mEq/L
   55 mg/dL
   104 mEq/L
   133 mEq/L
   25.3 %
   11.6 K/uL
        [image002.jpg]
                            [**2102-11-28**]  07:04 PM
                            [**2102-11-28**]  07:24 PM
                            [**2102-11-28**]  08:28 PM
                            [**2102-11-28**]  08:45 PM
                            [**2102-11-28**]  11:29 PM
                            [**2102-11-29**]  12:42 AM
                            [**2102-11-29**]  03:08 AM
                            [**2102-11-29**]  03:18 AM
                            [**2102-11-29**]  04:37 AM
                            [**2102-11-29**]  05:34 AM
   WBC
   11.6
   Hct
   26
   24.6
   25.3
   Plt
   239
   Cr
   2.5
   2.5
   TropT
   0.64
   0.79
   TCO2
   20
   19
   19
   17
   18
   17
   16
   17
   Glucose
   151
   155
   173
   Other labs: PT / PTT / INR:21.1/150.0/2.0, CK / CKMB /
   Troponin-T:502/22/0.79, ALT / AST:14/35, Alk Phos / T Bili:35/0.2,
   Amylase / Lipase:/19, Lactic Acid:1.1 mmol/L, LDH:506 IU/L, Ca++:7.1
   mg/dL, Mg++:1.8 mg/dL, PO4:7.3 mg/dL
   Imaging: CXR - Bibasilar opacities.
   Microbiology: BAL GS GPC pairs; all other culture data pending.
   Assessment and Plan
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Likely secondary to multilobar
   pneumonia, bacterial vs. viral.  Chest CT/CXR more consistent with
   viral process.  PE r/o on CT. TRALI is a possibility. Likely has COPD
   flare.
   - Vanc, Levofloxacin, CTX for CAP
   - Tamiflu and droplet precautions
   - F/U bronch results
   - F/U urine legionella, mycoplasm Ag, and blood/urine cultures
   - Combivent for COPD exacerbation
   - More comfortable on vent with propofol.
   # Hypotension: Initially hypertensive requiring nitro gtt, now
   hypotensive on levo (dopa weaned off overnight).  Likely due to sepis
   and sedation.  Also concerned for autopeep causing obstructive
   hypotension (given high CVP and low UOP) and cardiac etiology given
   history of CAD/CHF.  Evidence of severe RV dysfunction on TTE, but does
   not appear volume overloaded.
   - Wean Levo/vasopressin to keep MAP > 60
   - F/U cultures as above
   - Titrate propofol to keep comfortable and decreased autopeep
   # RV dysfunction: Likely acute on chronic failure [**2-6**] old RV infarct
   and chronic lung disease. No evidence of PE on CT (OSH study
   interpreted by our radiologists)
   - No evidence of volume overload
   # Acute renal failure: Baseline Cr 1.1, now 2.1 in setting of sepsis,
   hypotension and receiving contrast dye.
   - Urine lytes
   - Follow UOP with IVF/pressors
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs. Still 27.5. No
   evidence of active bleeding.
   - Seriel hcts
   - Transfusion goal > 25
   # Afib: Currently in afib, rate controlled in the 80s.
   - Hold lopressor
 if HR an issue, may try switching to neo from
   levophed
   - On coumadin, f/u INR
   - F/U dig level
   # CAD s/p CABG:
   - Continue ASA, statin
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-11-28**] 06:50 AM
 Resite today
   Arterial Line - [**2102-11-28**] 11:09 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-11-30 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had progressive oliguric renal failure
 FeNa 0.5.
   Renal consulted; like to start CVVH today.
   Had worsening metabolic acidosis with pH 7.15.
   Given 3 L
   Hypoxic and hypotensive overnight with vent dysynchrony; paralyzed with
   cisatracurium.  Oxygenation improved.
   Switched from levo to neo for pressors; requirement has decreased.
   CVL resited.
 MULTI LUMEN - START [**2102-11-29**] 05:00 PM
 MULTI LUMEN - STOP [**2102-11-29**] 07:54 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-28**] 11:28 AM
   Vancomycin - [**2102-11-29**] 08:00 AM
   Levofloxacin - [**2102-11-29**] 08:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Phenylephrine - 2 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2102-11-30**] 01:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 83 (57 - 120) bpm
   BP: 107/47(64) {79/43(54) - 138/62(85)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
    CVP: 18 (8 - 25)mmHg
   Total In:
                                                                  3,939 mL
                                                                  3,650 mL
   PO:
   TF:
   IVF:
                                                                  3,729 mL
                                                                  3,620 mL
   Blood products:
   Total out:
                                                                    428 mL
                                                                    105 mL
   Urine:
                                                                    428 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,511 mL
                                                                  3,545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.19/45/125/15/-10
   Ve: 12.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   212 K/uL
   7.5 g/dL
   198 mg/dL
   3.8 mg/dL
   15 mEq/L
   4.1 mEq/L
   70 mg/dL
   102 mEq/L
   132 mEq/L
   22.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2102-11-29**]  04:37 AM
                            [**2102-11-29**]  05:34 AM
                            [**2102-11-29**]  01:20 PM
                            [**2102-11-29**]  03:35 PM
                            [**2102-11-30**]  12:04 AM
                            [**2102-11-30**]  12:31 AM
                            [**2102-11-30**]  12:41 AM
                            [**2102-11-30**]  02:46 AM
                            [**2102-11-30**]  04:31 AM
                            [**2102-11-30**]  04:55 AM
   WBC
   7.7
   Hct
   22.6
   Plt
   212
   Cr
   3.3
   3.8
   3.8
   TropT
   0.81
   TCO2
   16
   17
   17
   15
   15
   16
   18
   Glucose
   152
   138
   198
   Other labs: PT / PTT / INR:22.4/34.3/2.1, CK / CKMB /
   Troponin-T:452/12/0.81, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, LDH:506 IU/L, Ca++:6.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Likely secondary to multilobar
   pneumonia, bacterial vs. viral.  On Ct, looked more viral than
   bacterial, but GPCs growing in sputum. There may be a component of
   fluid overload given acute worsening after 1L IV fluids and 1u PRBCs.
   Differential includes MI, TRALI, and PE. 1mm lateral ST segment
   depressions seen in OSH likely secondary to demand ischemia. PE less
   likely given infiltrates on CXR.
   -continue paralysis overnight
 needed to start for dysynchrony; did
   improve his oxygenation after initiated
   - wean vent as tolerated today once diuresis has begun
   - peep at 10 this morning, will try to decrease
   -Vanc, Levofloxacin, Ceftriaxone for GPCs pneumonia v. CAP pneumonia
   - Tamiflu empirically
   -combivent standing
   .
   # Hypotension: Patient initially hypertensive in the ED to 200s,
   requiring nitro gtt, and large amounts of sedation after intubation.
   Subsequently hypotensive on dopamine and levophed.  Dopamine weaned off
   but levophed still required.  Likely all secondary to R heart failure.
   - likely closely tied to RV pathology which could be a consequnce of
   pulmonay pathology vs primary cardiac process
   -blood cultures all negative
   -UA, urine culture negative
   -wean pressors -tolerating MAPs>60
   - will try to keep CVPs greater than 10 to ensure preload for the RV
   failure
   .
   # Acute renal failure: Baseline Cr 1.1, up to over 3 today. [**Month (only) 51**] be ATN
   given hypotension vs. contrast induced nephropathy.  Could also be
   product of RV pathology and hypoperfusion.  Renal consulted overnight
   re: urgent dialysis.
   -bolusing did not improve UOP
   -will get 2 u FFP and then place HD line
   - start CVVH with goal of negative 50 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   -hct today 22; will receive 1 u PRBCs today for goal of hct btw 25 and
   30 as trop still trending upward
   .
   # Afib: Currently in afib, rate controlled in the 80s.
   -rate: hold metoprolol given current pressor requirement.
   -anticoagulation: f/u INR. Consider coumadin if INR < 3.0.
   -check dig level
   .
   # CAD s/p CABG:
   -ROMI; CK going down but trop still trending up; expected in renal
   failure
   -repeat EKG
   -continue ASA, statin
   -hold BB in the setting of hypotension
   - per cards, RV pathology could be RV infarct but likely not acute
   .
   # FEN: IVFs / replete lytes prn / NPO -Nutrition consult for TFs
   # PPX: PPI, coumadin, bowel regimen
   # ACCESS: new CVL placed yesterday; HD line placed today
   # CODE:  Currently intubated. Presumed full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-30 09:57:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure in the setting
   of recent suspected H1N1 infection.
   24 Hour Events:
 MULTI LUMEN - START [**2102-11-29**] 05:00 PM
 MULTI LUMEN - STOP [**2102-11-29**] 07:54 PM
   Paralyzed
   Inc RR
   Vasopressor requirement decreased, and changed to neosynephrine
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-28**] 11:28 AM
   Vancomycin - [**2102-11-29**] 08:00 AM
   Levofloxacin - [**2102-11-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Phenylephrine - 2 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2102-11-30**] 01:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-30**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 91 (57 - 120) bpm
   BP: 139/59(81) {79/43(54) - 139/62(85)} mmHg
   RR: 30 (22 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
   CVP: 19 (8 - 25)mmHg
   Total In:
                                                                  3,939 mL
                                                                  4,518 mL
   PO:
   TF:
   IVF:
                                                                  3,729 mL
                                                                  4,488 mL
   Blood products:
   Total out:
                                                                    428 mL
                                                                    150 mL
   Urine:
                                                                    428 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,511 mL
                                                                  4,368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.19/45/125/15/-10
   Ve: 12.3 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: Intubated, sedated, paralyzed
   HEENT: PERRL.  ETT in place.
   CV: Irregularly, irregular.  S1, S2, accentuated P2.
   Lungs: B/L rhonchi anteriorly.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   212 K/uL
   198 mg/dL
   3.8 mg/dL
   15 mEq/L
   4.1 mEq/L
   70 mg/dL
   102 mEq/L
   132 mEq/L
   22.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2102-11-29**]  04:37 AM
                            [**2102-11-29**]  05:34 AM
                            [**2102-11-29**]  01:20 PM
                            [**2102-11-29**]  03:35 PM
                            [**2102-11-30**]  12:04 AM
                            [**2102-11-30**]  12:31 AM
                            [**2102-11-30**]  12:41 AM
                            [**2102-11-30**]  02:46 AM
                            [**2102-11-30**]  04:31 AM
                            [**2102-11-30**]  04:55 AM
   WBC
   7.7
   Hct
   22.6
   Plt
   212
   Cr
   3.3
   3.8
   3.8
   TropT
   0.81
   TCO2
   16
   17
   17
   15
   15
   16
   18
   Glucose
   152
   138
   198
   Other labs: PT / PTT / INR:22.4/34.3/2.1, CK / CKMB /
   Troponin-T:452/12/0.81, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, LDH:506 IU/L, Ca++:6.6 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ICU Care
   1.Hypoxemic respiratory failure - likely infectious but differential
   for multifocal infitlrates in this setting is relatively [**Name2 (NI) **].  Most
   likely viral vs atypical PNA..  Afebrile.
   -GPCs on gram stain from BAL but no growth (albeit on antibiotics).
   -Cont osteltamavir, currently dose adjusted for renal failure.
   -BAL to be set to state lab for RT-PCR for H1N1
   -Cont course x8days.
   -Plan to continue ARDSnet ventilation, and decrease PEEP to hit ARDSnet
   weaning goals.
   - Will continue paralytics today given overnight events, and hope to
   try and wean tomorrow in setting of getting
      Fluid off with CVVH.
   2. R heart failure- Unclear etiology. Neg for PE.  No evid of RV
   infarct per cardiology.  Seems likely [**2-6**] hypoxic pulmonary
   vasoconstriction.  RV dilation in the setting of PASP 45 most c/w acute
   event.  Continues to have mild Tn leak.  Last night Tn trended up and
   no improvement in hemodynamics w/ inc CVP to 15-20.  TTE additionally
   notable for bowing of the septum c/w volume overload.  Given these
   limitation, would recommned CVP goal [**10-19**] on CVVH.  Tenative plan to
   attempt to wean vasopressors off and remove fluid, attempt to wean
   cisatrurcarium tomorro.
   3. ARF
 awaiting HD line. Plan to start CVVH
   4. Anemia- Goal 25-30 given ongoing ischemia.
   5. PAF
 HR in nl range currently.  Improved on neo.
   Other issues per Dr. [**First Name (STitle) 424**]
s note.
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   45 minute
   Patient is critically ill

2102-12-01 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started CVVH with goal even to -50cc/hr
   Off pressors for 8 hours
   Remained on sedation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-11-29**] 08:00 AM
   Levofloxacin - [**2102-11-29**] 08:00 AM
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Fentanyl - 200 mcg/hour
   Heparin Sodium - 300 units/hour
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Propofol - 80 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-11-30**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 64 (61 - 100) bpm
   BP: 93/47(59) {93/45(58) - 176/74(107)} mmHg
   RR: 30 (5 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 16 (14 - 23)mmHg
   Total In:
                                                                  9,328 mL
                                                                  1,506 mL
   PO:
   TF:
   IVF:
                                                                  7,938 mL
                                                                  1,506 mL
   Blood products:
                                                                  1,300 mL
   Total out:
                                                                  1,585 mL
                                                                  1,719 mL
   Urine:
                                                                    385 mL
                                                                    130 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  7,743 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/43/168/21/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 336
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR nl s1 s2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   188 K/uL
   8.4 g/dL
   101 mg/dL
   2.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   51 mg/dL
   95 mEq/L
   131 mEq/L
   24.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2102-11-30**]  10:25 AM
                            [**2102-11-30**]  11:44 AM
                            [**2102-11-30**]  01:41 PM
                            [**2102-11-30**]  03:30 PM
                            [**2102-11-30**]  03:48 PM
                            [**2102-11-30**]  05:45 PM
                            [**2102-11-30**]  10:16 PM
                            [**2102-11-30**]  10:31 PM
                            [**2102-12-1**]  05:07 AM
                            [**2102-12-1**]  05:17 AM
   WBC
   7.6
   Hct
   22.3
   24.2
   Plt
   188
   Cr
   4.0
   4.1
   3.4
   2.9
   TropT
   0.79
   TCO2
   23
   25
   26
   26
   26
   Glucose
   167
   141
   109
   101
   Other labs: PT / PTT / INR:17.3/31.6/1.6, CK / CKMB /
   Troponin-T:249/10/0.79, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Patient with multilobar pneumonia,
   bacterial vs. viral (H1N1).  Some component of edema.  Unlikely MI,
   TRALI, or PE. 1mm lateral ST segment depressions seen in OSH likely
   secondary to demand ischemia.   Oxygenation has improved with
   paralysis.
   - trial of weaning paralytics
   - wean vent as tolerated
   - continue diuresis -50 cc/hr keeping CVP > 10, tolerating neo as
   needed
   - peep at 10 this morning, will try to decrease
   -Vanc, Levofloxacin, Ceftriaxone for GPCs pneumonia for 7 days from
   [**11-28**]
   -Tamiflu
   -combivent standing
   .
   # Hypotension: Patient initially hypertensive in the ED to 200s,
   requiring nitro gtt, and large amounts of sedation after intubation.
   Subsequently hypotensive on dopamine and levophed.  Dopamine weaned off
   but levophed still required.  Likely all secondary to R heart failure.
   Patient likely very sensitive to CVP given RV dysfunction.
   - pressors as needed for MAPs>60
   - will try to keep CVPs greater than 10 to ensure preload for the RV
   failure
   .
   # Acute renal failure: Baseline Cr 1.1, up to over 3 today. [**Month (only) 51**] be ATN
   given hypotension vs. contrast induced nephropathy.  Started on CVVH.
   - continue CVVH with goal of negative 50 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   -hct today 22; will receive 1 u PRBCs today for goal of hct btw 25 and
   30 as trop still trending upward
   .
   # Afib: Currently in afib, rate controlled in the 80s.
   -rate: hold metoprolol given current pressor requirement.
   - discuss with EP about increasing pacing rate
   -anticoagulation: f/u INR. Consider coumadin if INR < 3.0.
   .
   # CAD s/p CABG:
   -ROMI; CK going down but trop still trending up; expected in renal
   failure
   -repeat EKG
   -continue ASA, statin
   -hold BB in the setting of hypotension
   - per cards, RV pathology could be RV infarct but likely not acute
   .
   # FEN: IVFs / replete lytes prn / NPO -Nutrition consult for TFs
   # PPX: PPI, coumadin, bowel regimen
   # ACCESS: new CVL placed yesterday; HD line placed today
   # CODE:  Currently intubated. Presumed full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-01 07:43:00 Physician Attending Progress Note
Chief Complaint:
   Respiratory failure
   HPI:
    67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure in the setting
   of recent suspected H1N1 infection.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-11-30**] 06:00 PM
   Event Note:  This morning the patient was noted to have a cuff leak and
   dropping tidal volumes.  RT was able to restore ETT seal via mild
   lateral pressure.  The airway cart was brought into the room and the
   bronchoscope passed into the ETT.  The tube was noted to be seated
   against the tracheal wall, beyond the level of the vocal cords.  The
   carina was identified and the ETT advanced into position 3cm above the
   carina.  The bronchoscope was easily removed.  The patient
s oxygen
   saturations remained 100% throughout the procedure and following
   advancement of the ETT, Vt was restored to the set volume of 430cc.
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-11-29**] 08:00 AM
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Levofloxacin - [**2102-12-1**] 07:20 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Heparin Sodium - 300 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Propofol - 80 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-11-30**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-1**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 64 (61 - 100) bpm
   BP: 93/47(59) {93/45(58) - 176/74(107)} mmHg
   RR: 30 (5 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 16 (14 - 23)mmHg
   Total In:
                                                                  9,328 mL
                                                                  1,795 mL
   PO:
   TF:
   IVF:
                                                                  7,938 mL
                                                                  1,735 mL
   Blood products:
                                                                  1,300 mL
   Total out:
                                                                  1,585 mL
                                                                  1,862 mL
   Urine:
                                                                    385 mL
                                                                    160 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  7,743 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/43/168/21/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 336
   Physical Examination
   Gen: Intubated, sedated, paralyzed
   HEENT: PERRL.  ETT in place.
   CV: Irregularly, irregular.  S1, S2, accentuated P2.
   Lungs: B/L rhonchi anteriorly.
   Abdomen: +bs. Soft. NT. ND.
   Ext: Warm well perfused.   Trace LE edema.
   Skin:  No rashes.
   Labs / Radiology
   8.4 g/dL
   188 K/uL
   101 mg/dL
   2.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   51 mg/dL
   95 mEq/L
   131 mEq/L
   24.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2102-11-30**]  10:25 AM
                            [**2102-11-30**]  11:44 AM
                            [**2102-11-30**]  01:41 PM
                            [**2102-11-30**]  03:30 PM
                            [**2102-11-30**]  03:48 PM
                            [**2102-11-30**]  05:45 PM
                            [**2102-11-30**]  10:16 PM
                            [**2102-11-30**]  10:31 PM
                            [**2102-12-1**]  05:07 AM
                            [**2102-12-1**]  05:17 AM
   WBC
   7.6
   Hct
   22.3
   24.2
   Plt
   188
   Cr
   4.0
   4.1
   3.4
   2.9
   TropT
   0.79
   TCO2
   23
   25
   26
   26
   26
   Glucose
   167
   141
   109
   101
   Other labs: PT / PTT / INR:17.3/31.6/1.6, CK / CKMB /
   Troponin-T:249/10/0.79, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan:
   Impression: 67 yo M with history of dCHF, COPD, Afib on coumadin, CAD
   s/p CABG presents with dyspnea, a/w hypoxemic respiratory failure in
   the setting of recent suspected H1N1 infection, c/b multiple episodes
   of hypotension in the setting of vent dyssynchrony.
   1.Hypoxemic respiratory failure - likely infectious but differential
   for multifocal infitlrates in this setting is relatively [**Name2 (NI) **].  Most
   likely viral vs atypical PNA..  Afebrile.
   -GPCs on gram stain from BAL but no growth (albeit on antibiotics).
   -Cont osteltamavir, currently dose adjusted for renal failure.
   -BAL sent to state lab for RT-PCR for H1N1
   -Cont course x8 days vancomycin and levofloxacin.
   -D/c CTX.
   -Plan to continue ARDSnet ventilation, and decrease PEEP to hit ARDSnet
   weaning goals.
   - Attempt to wean paralytics.
   2. Shock
 likely [**2-6**] sepsis.  Unclear source, but GPCs in sputum as
   noted.  Pressor requirement dramatically decreased.
   2. R heart failure- Unclear etiology. Neg for PE.  No evid of RV
   infarct per cardiology.  Seems likely [**2-6**] hypoxic pulmonary
   vasoconstriction.  RV dilation in the setting of PASP 45 most c/w acute
   event.  Continues to have mild Tn leak.  No improvement in hemodynamics
   w/ inc CVP to 15-20 on [**11-29**].  Prior TTE additionally notable for
   bowing of the septum c/w volume overload.  Given these limitation,
   would recommned CVP goal [**10-19**] on CVVH.
   3. ARF
 Started on CVVH, will hold on further attempts at negative
   fluid balance while weaning paralytics.
   4. Anemia- Goal 25-30 given ongoing ischemia.
   5. PAF
 HR in nl range currently.  Improved on neo.
   Other issues per Dr. [**Last Name (STitle) 1823**]
s note.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   45 minute
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING
   I saw and examined Mr. [**Known lastname **] with Dr. [**Last Name (STitle) 8860**], whose note above reflects
   my input.  Overall, has made some progress from a respiratory failure
   standpoint, with PEEP down to 12 and FiO2 down to 50%.  On paralysis,
   has had no further episodes of hypoxemia/dyssynchrony leading to
   hypotension.  On [**Last Name (STitle) **]-spectrum oseltamivir for possible influenza, and
   vanco/levoflox for possible CAP.  Will follow cultures and continue
   present rx.  Maintain on ARDSnet ventilation.  Will attempt to remove
   pharmacologic paralysis today. Continue CRRT for ARF.   Other issues as
   per Dr. [**Last Name (STitle) 8860**] and the ICU team note from today.  Critically ill: 30
   min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-1**] 16:37 ------

2102-12-02 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Decreased PEEP to 12; paralytics stopped at 1700, tolerated vent
   On CVVH with goal -50 cc/hr
   AFib @120bpm started 1AM.  Dilt didn't correct but caused hypotension
   requiring Neo.  Resolved with 250 cc NS bolus.  CVVH ran even after.
   Consider rhythm control in AM?  Held off on amio as node seems to be
   blocking.
   Stopped CTX, IV heparin
   3rd flu swab was again inadequate sample
   Started tube feeds
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Levofloxacin - [**2102-12-1**] 07:20 AM
   Vancomycin - [**2102-12-2**] 07:46 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Heparin Sodium - 600 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Propofol - 80 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Diltiazem - [**2102-12-2**] 01:50 AM
   Pantoprazole (Protonix) - [**2102-12-2**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-2**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 75 (60 - 124) bpm
   BP: 111/59(74) {79/35(47) - 166/78(107)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 14 (10 - 20)mmHg
   Total In:
                                                                  4,471 mL
                                                                  1,508 mL
   PO:
   TF:
   IVF:
                                                                  4,351 mL
                                                                  1,508 mL
   Blood products:
   Total out:
                                                                  5,324 mL
                                                                    923 mL
   Urine:
                                                                    792 mL
                                                                     85 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                   -853 mL
                                                                    585 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/40/106/21/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   8.7 g/dL
   86 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   32 mg/dL
   98 mEq/L
   129 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2102-12-1**]  05:07 AM
                            [**2102-12-1**]  05:17 AM
                            [**2102-12-1**]  10:56 AM
                            [**2102-12-1**]  12:04 PM
                            [**2102-12-1**]  04:36 PM
                            [**2102-12-1**]  04:56 PM
                            [**2102-12-1**]  10:13 PM
                            [**2102-12-1**]  10:56 PM
                            [**2102-12-2**]  04:07 AM
                            [**2102-12-2**]  04:14 AM
   WBC
   7.6
   7.2
   Hct
   24.2
   24.8
   Plt
   188
   180
   Cr
   2.9
   2.5
   2.4
   2.1
   1.7
   TropT
   0.79
   0.89
   TCO2
   26
   25
   26
   27
   25
   Glucose
   101
   99
   102
   89
   86
   Other labs: PT / PTT / INR:14.6/37.1/1.3, CK / CKMB /
   Troponin-T:173/14/0.89, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Patient with multilobar pneumonia,
   bacterial vs. viral (H1N1).  Some component of edema.  Unlikely MI,
   TRALI, or PE. 1mm lateral ST segment depressions seen in OSH likely
   secondary to demand ischemia.   Oxygenation has improved with
   paralysis.
   - trial of weaning paralytics
   - wean vent as tolerated
   - continue diuresis -50 cc/hr keeping CVP > 10, tolerating neo as
   needed
   - peep at 10 this morning, will try to decrease
   -Vanc, Levofloxacin for pneumonia for 7 days from [**11-28**].  D/c
   ceftriaxone as more likely GPC PNA
   -Tamiflu
   -combivent standing
   .
   # Hypotension: Patient initially hypertensive in the ED to 200s,
   requiring nitro gtt, and large amounts of sedation after intubation.
   Subsequently hypotensive on dopamine and levophed.  Dopamine weaned off
   but levophed still required.  Likely all secondary to R heart failure.
   Patient likely very sensitive to CVP given RV dysfunction.
   - pressors as needed for MAPs>60
   - will try to keep CVPs greater than 10 to ensure preload for the RV
   failure
   .
   # Acute renal failure: Baseline Cr 1.1, up to over 3 today. [**Month (only) 51**] be ATN
   given hypotension vs. contrast induced nephropathy.  Started on CVVH.
   - continue CVVH with goal of negative 50 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   -hct today 22; will receive 1 u PRBCs today for goal of hct btw 25 and
   30 as trop still trending upward
   .
   # Afib: Currently in afib, rate controlled in the 80s.
   -rate: hold metoprolol given current pressor requirement.
   - discuss with EP about increasing pacing rate
   -anticoagulation: f/u INR. Consider coumadin if INR < 3.0.
   .
   # CAD s/p CABG:
   -ROMI; CK going down but trop still trending up; expected in renal
   failure
   -repeat EKG
   -continue ASA, statin
   -hold BB in the setting of hypotension
   - per cards, RV pathology could be RV infarct but likely not acute
   .
   ICU Care
   # FEN: IVFs / replete lytes prn / NPO -Nutrition consult for TFs
   # PPX: PPI, sq heparin, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   # CODE:  Currently intubated. Presumed full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-02 09:50:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure in the setting
   of recent suspected H1N1 infection.
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Levofloxacin - [**2102-12-1**] 07:20 AM
   Vancomycin - [**2102-12-2**] 07:46 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Heparin Sodium - 600 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Diltiazem - [**2102-12-2**] 01:50 AM
   Pantoprazole (Protonix) - [**2102-12-2**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-2**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35
C (95
   HR: 90 (63 - 124) bpm
   BP: 157/77(100) {78/35(47) - 166/78(107)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 17 (10 - 20)mmHg
   Total In:
                                                                  4,471 mL
                                                                  1,928 mL
   PO:
   TF:
   IVF:
                                                                  4,351 mL
                                                                  1,868 mL
   Blood products:
   Total out:
                                                                  5,324 mL
                                                                  1,418 mL
   Urine:
                                                                    792 mL
                                                                    325 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                   -853 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/99.[**Numeric Identifier 126**]/21/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Gen: Intubated, sedated, paralyzed
   HEENT: PERRL.  ETT in place.
   CV: Irregularly, irregular.  S1, S2, accentuated P2.
   Lungs: B/L rhonchi anteriorly.
   Abdomen: +bs. Soft. NT. ND.
   Ext: Warm well perfused.   Trace LE edema.
   Skin:  No rashes.
   Labs / Radiology
   8.7 g/dL
   180 K/uL
   86 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.5 mEq/L
   32 mg/dL
   98 mEq/L
   129 mEq/L
   24.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2102-12-1**]  05:17 AM
                            [**2102-12-1**]  10:56 AM
                            [**2102-12-1**]  12:04 PM
                            [**2102-12-1**]  04:36 PM
                            [**2102-12-1**]  04:56 PM
                            [**2102-12-1**]  10:13 PM
                            [**2102-12-1**]  10:56 PM
                            [**2102-12-2**]  04:07 AM
                            [**2102-12-2**]  04:14 AM
                            [**2102-12-2**]  09:38 AM
   WBC
   7.2
   Hct
   24.8
   Plt
   180
   Cr
   2.5
   2.4
   2.1
   1.7
   TropT
   0.89
   TCO2
   26
   25
   26
   27
   25
   26
   Glucose
   99
   102
   89
   86
   Other labs: PT / PTT / INR:14.6/37.1/1.3, CK / CKMB /
   Troponin-T:173/14/0.89, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Impression: 67 yo M with history of dCHF, COPD, Afib on coumadin, CAD
   s/p CABG presents with dyspnea, a/w hypoxemic respiratory failure in
   the setting of recent suspected H1N1 infection, c/b multiple episodes
   of hypotension in the setting of vent dyssynchrony.
   1.Hypoxemic respiratory failure - likely infectious but differential
   for multifocal infitlrates in this setting is relatively [**Name2 (NI) **].  Most
   likely viral vs atypical PNA..  Afebrile.
   -GPCs on gram stain from BAL but no growth (albeit on antibiotics).
   -Cont osteltamavir, currently dose adjusted for renal failure/CVVH
   -BAL sent to state lab for RT-PCR for H1N1
   -Cont course x8 days vancomycin and levofloxacin.
   -D/c CTX.
   -Plan to continue ARDSnet ventilation, and decrease PEEP to hit ARDSnet
   weaning goals.
   -Daily wake up, assess for NM weakness.
   2. Shock
 likely [**2-6**] sepsis.  Unclear source, but GPCs in sputum as
   noted.  Pressor requirement dramatically decreased but possibly [**2-6**] RV
   failure at this point (particularly given tachycardia this AM and no
   [**Month (only) **] in vasopressor requirement).
   3. R heart failure- R axis shift on admit ECG.  Unclear etiology. Neg
   for PE.  No evid of RV infarct per cardiology.  Seems likely [**2-6**]
   hypoxic pulmonary vasoconstriction.  RV dilation in the setting of PASP
   45 most c/w acute event  No improvement in hemodynamics w/ inc CVP to
   15-20 on [**11-29**].  Prior TTE additionally notable for bowing of the
   septum c/w volume overload.  Given these limitation, would recommend
   CVP goal [**10-19**] on CVVH.
   -attempt gentle CVVH diuresis to eliminate intraventricular dependence
   -consider inhaled pulmonary vasodilator.
   3. ARF
 Started on CVVH, will hold on further attempts at negative
   fluid balance while weaning paralytics.
   4. Anemia- Goal 25-30 given ongoing ischemia.
   5. PAF
 HR in nl range currently.  Holding BB.
   Other issues per Dr. [**Last Name (STitle) 9558**]
s note.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   45 minute
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending:
   Patient with acute respiratory failure, hypotension, CHF (diastolic,
   LV; systolic RV). Pressors have been gradually reduced. FIO2 now down
   to 0.5; still being vented with low VT per ARDSnet. Started on CVVH for
   acute renal failure.  Echo showed evidence of RV pressure overload with
   bowing of septum. Attempt made to reduce fluids, which has led to drops
   in BP.
   On exam, patient intubated and sedated. Unresponsive. Heart sounds are
   very soft. No tricuspid regurgitation noted. Lungs clear anteriorally
   and laterally. Abdomen distended with few bowel sounds. Non tender.
   Extremities warm and well pefurfused. Trace edema.
   The fact that patient shows evidence on exam of good peripheral
   perfusion argues against low output shock due to RV dysfunction and
   more for redistributive shock from sepsis; the fact that there is
   minimal TR on echo also argues against grossly dilated RV. Would add
   vasopressin. Urine output has been variable on CVVH. Patient still has
   high minute ventilation requirements consistent with large dead space.
   Continues on anti-virals and anti-biotics for pneumonia. Will add
   better gram negative coverage. Will begin to come down on PEEP given
   excellent oxygenation and marginal hemodynamics.
   Critical Care 30 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-2**] 16:36 ------

2102-12-03 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CVVH with goal CVP no less than 10 bc preload dependent
   - PEEP weaned 12->10->8 and FIO2 weaned 60->50
   - Vasopressin started in effor to wean other pressors.
   - Cardaic enzymes added to CVVH labs from yesterday showing
   intermittent substantial elevations in CKMB; goal PTT of heparin drip
   raised from CVVH goal to ACS goal. Already rate controlled, on statin,
   on ASA.
   - Gram negative coverage broadened from levoflox to cefepime + levoflox
   given low grade temps while on CVVH.
   -piramivir being released from state
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Levofloxacin - [**2102-12-1**] 07:20 AM
   Cefipime - [**2102-12-2**] 06:05 PM
   Vancomycin - [**2102-12-3**] 07:02 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 1,000 units/hour
   KCl (CRRT) - 2 mEq./hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-2**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-2**] 12:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-3**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 58 (58 - 134) bpm
   BP: 142/63(89) {59/36(44) - 171/88(120)} mmHg
   RR: 30 (23 - 38) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 16 (13 - 24)mmHg
   Total In:
                                                                  4,321 mL
                                                                  1,365 mL
   PO:
   TF:
                                                                    209 mL
                                                                    227 mL
   IVF:
                                                                  4,052 mL
                                                                  1,137 mL
   Blood products:
   Total out:
                                                                  3,537 mL
                                                                  1,028 mL
   Urine:
                                                                    656 mL
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    784 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.40/36/208/21/-1
   Ve: 14.4 L/min
   PaO2 / FiO2: 416
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR nl s1 s2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   209 K/uL
   8.8 g/dL
   104 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   25 mg/dL
   98 mEq/L
   129 mEq/L
   24.3 %
   11.6 K/uL
        [image002.jpg]
                            [**2102-12-2**]  04:07 AM
                            [**2102-12-2**]  04:14 AM
                            [**2102-12-2**]  09:26 AM
                            [**2102-12-2**]  09:38 AM
                            [**2102-12-2**]  04:20 PM
                            [**2102-12-2**]  04:30 PM
                            [**2102-12-2**]  10:16 PM
                            [**2102-12-2**]  10:30 PM
                            [**2102-12-3**]  04:31 AM
                            [**2102-12-3**]  04:52 AM
   WBC
   7.2
   11.6
   Hct
   24.8
   24.3
   Plt
   180
   209
   Cr
   1.7
   1.7
   1.6
   1.5
   TropT
   0.89
   1.26
   1.56
   1.63
   TCO2
   25
   26
   28
   24
   23
   Glucose
   86
   84
   76
   90
   104
   Other labs: PT / PTT / INR:13.9/35.9/1.2, CK / CKMB /
   Troponin-T:171/21/1.63, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   #  Hypoxemic respiratory failure: Patient with multilobar pneumonia,
   bacterial vs. viral (H1N1).  Some component of edema.  Unlikely MI,
   TRALI, or PE. 1mm lateral ST segment depressions seen in OSH likely
   secondary to demand ischemia.   OxygenatioN improved with paralysis
   which have been discontinued. Weaned on vent from PEEP 12 to 8 over
   course of day yesterday.
   - continue diuresis -50 cc/hr keeping CVP > 10, wean neo as tolerated
   -Vanc, Levofloxacin for pneumonia for 7 days from [**11-28**].  D/c
   ceftriaxone as more likely GPC PNA
   -Tamiflu at renally adjusted treatment dose; could consider peramivir;
   virology still waiting for state lab results
   - consider NO for pulm vasodilation and better forward flow if BP
   decompensates again1
   -combivent standing
   - DFAs all undeterminate, awiating culture
   .
   # Hypotension: Patient initially hypertensive in the ED to 200s,
   requiring nitro gtt, and large amounts of sedation after intubation.
   Subsequently hypotensive on dopamine and levophed.  Now on levophed and
   vasopressin; will try to wean levophed first today.  Likely all
   secondary to R heart failure/ high pulm vascular resistance. .
   - pressors as needed for MAPs>60
   - will try to keep CVPs greater than 10 to ensure preload for the RV
   failure
   .
   # CAD: having troponin leak and CK-MB peak at 40; likely is having
   ongoing ischemia based on these numbers.  Cardiology following along
   and appreciate recs.  [**Month (only) 51**] benefit from TEE cardioversion tomorrow to
   improve synchrony.
   - cont heparin at ACS PTT goals
   - consider plavix load and ? cath later this week
   - will keep NPO at MN for possible cardioversion tomorrow
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH.
   - continue CVVH with goal of negative 50 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   - trend, daily sufficient
   - has been stable recently
   .
   # Afib: Currently in afib, avg heart rate with wide variation 70s to
   120s.
   -rate: hold metoprolol given current pressor requirement.
   -anticoagulation: coumadin on hold, heparin drip w/ ACS dosing
   - consider cardioversion tomorrow
   .
   # FEN: IVFs / replete lytes prn / Nutrition consult for TFs
   # PPX: PPI, heparin, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 Pm
   # CODE:  full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-3**] 01:21 AM 30.[**Telephone/Fax (5) 11819**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-03 08:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure in the setting
   of recent suspected H1N1 infection.
   24 Hour Events:
   -FiO2 weaned
   -Neosynephrine weaned, minimally
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-11-30**] 01:17 PM
   Levofloxacin - [**2102-12-1**] 07:20 AM
   Cefipime - [**2102-12-2**] 06:05 PM
   Vancomycin - [**2102-12-3**] 07:02 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 1,000 units/hour
   KCl (CRRT) - 2 mEq./hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-12-2**] 12:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-3**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 59 (58 - 134) bpm
   BP: 115/51(71) {59/36(44) - 171/88(120)} mmHg
   RR: 30 (23 - 38) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 14 (13 - 24)mmHg
   Total In:
                                                                  4,321 mL
                                                                  1,763 mL
   PO:
   TF:
                                                                    209 mL
                                                                    254 mL
   IVF:
                                                                  4,052 mL
                                                                  1,449 mL
   Blood products:
   Total out:
                                                                  3,537 mL
                                                                  1,351 mL
   Urine:
                                                                    656 mL
                                                                    192 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    784 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.40/36/208/21/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 416
   Physical Examination
   Gen: Intubated, sedated, paralyzed
   HEENT: PERRL.  ETT in place.
   CV: Irregularly, irregular.  S1, S2, accentuated P2.
   Lungs: B/L rhonchi anteriorly.
   Abdomen: +bs. Soft. NT. ND.
   Ext: Warm well perfused.   Trace LE edema.
   Skin:  No rashes.
   Labs / Radiology
   8.8 g/dL
   209 K/uL
   104 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.4 mEq/L
   25 mg/dL
   98 mEq/L
   129 mEq/L
   24.3 %
   11.6 K/uL
        [image002.jpg]
                            [**2102-12-2**]  04:07 AM
                            [**2102-12-2**]  04:14 AM
                            [**2102-12-2**]  09:26 AM
                            [**2102-12-2**]  09:38 AM
                            [**2102-12-2**]  04:20 PM
                            [**2102-12-2**]  04:30 PM
                            [**2102-12-2**]  10:16 PM
                            [**2102-12-2**]  10:30 PM
                            [**2102-12-3**]  04:31 AM
                            [**2102-12-3**]  04:52 AM
   WBC
   7.2
   11.6
   Hct
   24.8
   24.3
   Plt
   180
   209
   Cr
   1.7
   1.7
   1.6
   1.5
   TropT
   0.89
   1.26
   1.56
   1.63
   TCO2
   25
   26
   28
   24
   23
   Glucose
   86
   84
   76
   90
   104
   Other labs: PT / PTT / INR:13.9/35.9/1.2, CK / CKMB /
   Troponin-T:171/21/1.63, ALT / AST:29/49, Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:/19, Differential-Neuts:92.4 %, Lymph:5.5 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan:
    67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, a/w hypoxemic respiratory failure in the setting
   of recent suspected H1N1 infection, c/b multiple episodes of
   hypotension in the setting of vent dyssynchrony.
   1.Hypoxemic respiratory failure - likely infectious but differential
   for multifocal infitlrates in this setting is relatively [**Name2 (NI) **].  Most
   likely viral vs atypical PNA.. Expanded antibiotic coverage yesterday
   given low grade temp on CVVH.
   -GPCs on gram stain from BAL but no growth (albeit on antibiotics).
   Secretions thick, tan.
   -Vanc/levofloxacin/cefepime
   -Small/mod R pleural effusion (b/l but right larger).  If demonstrates
   other evidence of infection may need  to consider thoracentesis, but
   currently would be relatively high risk procedure due to size and PPV.
   -Cont osteltamavir, currently dose adjusted for renal failure/CVVH
   -BAL sent to state lab for RT-PCR for H1N1
   -Now on expanded abx course.  If continues to be febrile (relatively,
   on CVVH) and sputum non-diagnostic may need bronchoscopy.
   -Plan to continue ARDSnet ventilation, and decrease PEEP to hit ARDSnet
   weaning goals.
   -Yesterday, sedation weaned but didn
t wake up and became
   hemodynamically stable.  Will continue to attempt daily wake up, assess
   for NM weakness.
   2. Shock
 likely [**2-6**] sepsis.  Unclear source, but GPCs in sputum as
   noted.  Pressor requirement stable but possibly component of RV failure
   at this point.  Vasopressin added
   -  goal 25cc neg/h on CVVH.
   3. R heart failure- R axis shift on admit ECG.  Unclear etiology. Neg
   for PE.  No evid of RV infarct per cardiology.  Seems likely [**2-6**]
   hypoxic pulmonary vasoconstriction.  RV dilation in the setting of PASP
   45 most c/w acute event  No improvement in hemodynamics w/ inc CVP to
   15-20 on [**11-29**].  Prior TTE additionally notable for bowing of the
   septum c/w volume overload.  Given these limitation, would recommend
   CVP goal [**10-19**] on CVVH. Ongoing +Tn concerning for mild demand
   ischemia.
   -attempt gentle CVVH diuresis to eliminate intraventricular dependence
   -consider inhaled pulmonary vasodilator, but has continued to make
   progress on vent.
   3. ARF
 On CVVH, will hold on further attempts at negative fluid
   balance while weaning paralytics.
   4. Anemia- Goal 25-30 given ongoing ischemia.
   5. PAF
 HR in nl range currently.  Holding BB.
   Other issues per Dr. [**Last Name (STitle) 9558**]
s note.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   18 Gauge - [**2102-11-29**] 05:50 PM
   20 Gauge - [**2102-11-29**] 05:51 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:   45 minute
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team for discussion of the
   above history, physical, data and assessment and plan with which I
   agree.  I would add the following comments.
   Patient is a 67 yo male admitted with hypoxemic respiratory failure and
   shock.  This is in the setting of a history of COPD and CHF with
   initial presentation with hypoxemic respiratory compromise and with
   asymmetric ground glass opacities noted with Right>Left.  He has had
   viral source considered most likely.
   Over time his hypotension has been treated with pressors.  He has
   required paralytics with concern for significant hypoxemia and
   hypotension with ongoing respiratory effort.  He did have PE evaluation
   which was negative.  He did have paralytics discontinued and has been
   weaned to neosynephrine alone for pressors.
   EXAM-
   Patient with bilateral crackles actually left>right
   Labs-All microbiology studies negative at this time in regards to
   culture with GPC
s on BAL specimen seen.  Influenza PCR is pending
   CXR-CVL/OGT and ETT in good position.  Patient with persistent
   pulmonary infiltrates in right lung with effusion suggested R>L
   A/P
67 yo male with acute presentation with what is clinically
   consistent with acute pulmonary infection concerning for H1N1 influenza
   despite DFA negative studies.  This is currently well supported by the
   fact that CvO2 remains elevated despite elevated right sided heart
   pressures.  At this time we have been able to keep fluid balance
   negative with CVVH and wean in FIO2 to 0.5 has been effected.
   By problem
   1)Respiratory Failure-Hypoxemic, secondary to infection likely viral or
   atypical bacterial infection.
   Pneumonia-Vanco/Cefepime/Levofloxacin/Tamiflu-all renally dosed for
   CVVH
   Will continue with A/C support and maintain current settings
   Follow culture results
   Move to negative fluid balance as possible
   2)Shock
This would appear to be sepsis given current findings with
   fever, elevated CvO2 and likely pulmonary source of infection.
   -Will continue with Neo/Vasopressin
   -Will continue with [**Year (4 digits) **] spectrum antibiotics
   -Will follow culture results
   3)Acute Renal Failure-
   -Move to CVVH at this time and work to goal fluid balance negative
   4)Myocardial infarction-
   -Patient with persistent troponin and CK-MB elevation (MB=21)
   -Will continue to support for sepsis as defined above
   -Cardiology involved
   -Heparin/ASA in place
   -Will add statin
   Critical Care Time-33 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-3**] 16:32 ------

2102-12-04 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - no more low grade fevers since broadening antibiotics
   - virology still waiting for flu results from state lab, considering
   pirimavir
   - both fent/versed weaned throughout day and night; still not awake or
   following commands currently
   - vent settings weaned from PEEP 8-->5; still 50% FiO2
   - levophed off; vasopressin still on
   - CVPs consistently around 14-16, tollerating CVVH dialysis rate -25
   cc/hr
   - cards considering cardioversion and cath given elevated biomarkers
   - converted to sinus brady overnight; ekg in chart
   - having some ventricular bigemny
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-3**] 07:02 AM
   Cefipime - [**2102-12-3**] 05:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 130 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Propofol - 60 mcg/Kg/min
   Midazolam (Versed) - 3.9 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-4**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 55 (51 - 60) bpm
   BP: 131/49(75) {88/39(54) - 161/70(100)} mmHg
   RR: 31 (30 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 15 (9 - 18)mmHg
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  4,495 mL
                                                                  1,025 mL
   PO:
   TF:
                                                                    720 mL
                                                                    223 mL
   IVF:
                                                                  3,715 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  4,713 mL
                                                                  1,395 mL
   Urine:
                                                                    534 mL
                                                                    267 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                   -218 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/35/70/22/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR nl s1 s2
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Labs / Radiology
   169 K/uL
   8.0 g/dL
   124 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.5 mEq/L
   22 mg/dL
   99 mEq/L
   131 mEq/L
   23.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2102-12-3**]  04:31 AM
                            [**2102-12-3**]  04:52 AM
                            [**2102-12-3**]  10:23 AM
                            [**2102-12-3**]  10:39 AM
                            [**2102-12-3**]  04:39 PM
                            [**2102-12-3**]  05:07 PM
                            [**2102-12-3**]  10:19 PM
                            [**2102-12-3**]  10:44 PM
                            [**2102-12-4**]  04:03 AM
                            [**2102-12-4**]  04:23 AM
   WBC
   11.6
   8.5
   Hct
   24.3
   23.4
   Plt
   209
   169
   Cr
   1.5
   1.3
   1.2
   1.1
   TropT
   1.50
   TCO2
   23
   23
   23
   24
   24
   Glucose
   104
   117
   144
   128
   124
   Other labs: PT / PTT / INR:13.1/40.8/1.1, CK / CKMB /
   Troponin-T:360/8/1.50, ALT / AST:19/35, Alk Phos / T Bili:138/0.3,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Microbiology: RESPIRATORY CULTURE:  YEAST. SPARSE GROWTH.
   Flu culture neg x2, DFA neg x3
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   .
   # Hypotension: Cardiogenic shock with severe right heart failure and
   high pulm vasc resistants, also with some septic component.  He was
   transitioned from dopamine and levophed to vasopressin in an attempt to
   wean pressors.
   - pressors as needed for MAPs>60; wean vasopressin
   - consider NO for pulm vasodilation and better forward flow if BP
   decompensates again
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   #  Hypoxemic respiratory failure: Patient with multilobar pneumonia,
   bacterial vs. viral (H1N1).  Requiring high MV (13.6).  Some component
   of edema as currently up 15L LOS.  Unlikely MI, TRALI, or PE. Weaned on
   vent from PEEP 8 to 5over course of day yesterday.
   - low TV ventilation goal 6 cc/kg
   - continue diuresis -50 cc/hr keeping CVP >8
   - Vanc, Cefepime, Levofloxacin for pneumonia for 8 days from [**11-28**] to
   [**12-6**]
   - Tamiflu at renally adjusted treatment dose; could consider peramivir;
   virology still waiting for state lab results
   - combivent standing
   - trial of inhailed NO
   .
   # CAD: Likely ongoing ischemia, possibly demand related, but may also
   be occlusive.  Cardiology following along and appreciate recs.  [**Month (only) 51**]
   benefit from cardiac cath if sufficiently stable.
   - on ASA, statin
   - cath once out of ICU
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH.
   - continue CVVH with goal of negative 25 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   - trend, daily sufficient
   - has been stable recently
   .
   # Afib: Currently in afib, avg heart rate with wide variation 70s to
   120s.
   -rate: hold metoprolol given current pressor requirement.
   -anticoagulation: coumadin on hold, heparin drip w/ ACS dosing
   - consider cardioversion tomorrow
   .
   # FEN: IVFs / replete lytes prn /
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   # PPX: PPI, heparin, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   # CODE:  full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU

2102-12-04 11:42:00 Physician Attending Progress Note
HPI:
   67M with CHF, COPD, Afib here with hypoxemia and shock with cardiogenic
   versus septic etiologies.   Presentation to OSH preceded by fevers,
   myalgias, rigors and + sick contact suspicious for influenza.
   24 Hour Events:
   This morning had vent dyssynchrony while off propofol and during
   turning to right side.  Now with increased FiO2 and PEEP and restarted
   vasopressin.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-4**] 09:30 AM
   Vancomycin - [**2102-12-4**] 10:30 AM
   Oseltamivir
   Levofloxacin
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 130 mcg/hour
   Midazolam (Versed) - 3.9 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 30 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Protonix
   Other medications:
   Digoxin qod
   Colace
   Lipitor
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-12-4**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.7
   HR: 62 (51 - 82) bpm
   BP: 123/52(75) {84/39(52) - 161/70(100)} mmHg
   RR: 30 (29 - 33) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 11 (9 - 18)mmHg
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  4,496 mL
                                                                  1,977 mL
   PO:
   TF:
                                                                    720 mL
                                                                    225 mL
   IVF:
                                                                  3,716 mL
                                                                  1,722 mL
   Blood products:
   Total out:
                                                                  4,713 mL
                                                                  2,182 mL
   Urine:
                                                                    534 mL
                                                                    347 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                   -217 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 27.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/40/73
   Ve: 14.1 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Gen: Sedated/intubated
   Chest: + wheeze
   CV:
   Abd:
   Ext:
   Labs / Radiology
   8.0 g/dL
   169 K/uL
   124 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.5 mEq/L
   22 mg/dL
   99 mEq/L
   131 mEq/L
   23.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2102-12-3**]  04:52 AM
                            [**2102-12-3**]  10:23 AM
                            [**2102-12-3**]  10:39 AM
                            [**2102-12-3**]  04:39 PM
                            [**2102-12-3**]  05:07 PM
                            [**2102-12-3**]  10:19 PM
                            [**2102-12-3**]  10:44 PM
                            [**2102-12-4**]  04:03 AM
                            [**2102-12-4**]  04:23 AM
                            [**2102-12-4**]  10:23 AM
   WBC
   8.5
   Hct
   23.4
   Plt
   169
   Cr
   1.3
   1.2
   1.1
   TropT
   1.50
   TCO2
   23
   23
   23
   24
   24
   27
   Glucose
   117
   144
   128
   124
   Other labs: PT / PTT / INR:13.1/40.8/1.1, CK / CKMB /
   Troponin-T:360/8/1.50, ALT / AST:19/35, Alk Phos / T Bili:138/0.3,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, LDH:506 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Sputum culture: +yeast
   Blood cultures: negative
   Viral DFA: negative nasopharynx x 3.  PCR pending for H1N1.
   Assessment and Plan
    1. Respiratory failure:  Likely viral PNA and ARDS
   - Vt 430ml at low-tidal volume.  Ventilation adequate.
   - Aim TBB negative today and monitor for increasing pressor requirement
   - PEEP titration today
   - Wheezing today, possible airways resistance with viral infection.
   Standing bronchodilators.
    2. Shock: Septic +/- cardiogenic
   - Suspect persistent vasodilation with infection
   - Change to levophed in favor of vasopressin given reduced CvO2
   - NO trial and follow CvO2 and PaO2 improvement as markers for
   response.  Could consider sildenafil if responds.
    3. ID:  ? H1N1, remains broadly covered
   - H1N1 PCR pending from state lab
   - Check lower-respiratory sample for viral panel DFA
   - Given question of poor GI absorption, will consider peramivir.
    4. Renal:  Renal failure, possible ATN
   - Goal CVP 8-10, monitor hemodynamics given pressor requirement as he
   is diuresed.
    5. CHF/Afib:  TTE with RV dysfunction.  PE-CT at OSH without PE.
       Likely in setting of ARDS and high PVR.
   - NO trial today as above
   - Appreciate cardiology input but would not favor aggressive ischemic
   evaluation at this time given clinical picture predominately sepsis and
   ARDS, suspect + biomarkers in setting of sepsis.
   - Digoxin qod; digoxin level tomorrow
   ICU Care
   Nutrition: Enteral feeds with high residuals.  Start reglan for GI
   motility if persistent today.
   Glycemic Control:  Glucose 110-150
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: HOB/peridex/mouthcare
   Communication:  Comments:  Situation discussed with wife on the phne in
   detail, will continue care as outlined above
   Code status: Full code
   Disposition :  Critically ill, remains intubated in ICU
   Total time spent:  45min; patient is critically ill

2102-12-05 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Planned for NO trial,
   weaned vasopressin
   attempted to order peramivir but CDC website not working
   Viral swab again insufficient.  culture sent.  Need to ask for state
   lab test in AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-4**] 10:30 AM
   Cefipime - [**2102-12-4**] 11:11 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 130 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 84 (62 - 102) bpm
   BP: 132/50(73) {84/40(52) - 158/57(85)} mmHg
   RR: 30 (29 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 14 (8 - 19)mmHg
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  4,020 mL
                                                                  1,235 mL
   PO:
   TF:
                                                                    546 mL
                                                                    151 mL
   IVF:
                                                                  3,364 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  4,814 mL
                                                                  1,546 mL
   Urine:
                                                                    657 mL
                                                                    250 mL
   NG:
                                                                    150 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                   -794 mL
                                                                   -311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/41/81.[**Numeric Identifier 508**]/22/3
   Ve: 14.2 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   157 K/uL
   7.7 g/dL
   106 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   23.5 %
   12.2 K/uL
        [image002.jpg]
                            [**2102-12-4**]  04:23 AM
                            [**2102-12-4**]  10:08 AM
                            [**2102-12-4**]  10:23 AM
                            [**2102-12-4**]  12:41 PM
                            [**2102-12-4**]  04:50 PM
                            [**2102-12-4**]  05:09 PM
                            [**2102-12-4**]  09:40 PM
                            [**2102-12-4**]  09:58 PM
                             [**2102-12-5**]  03:39 AM
                             [**2102-12-5**]  03:54 AM
   WBC
   12.2
   Hct
   23.5
   Plt
   157
   Cr
   1.1
   1.1
   TropT
   1.82
   TCO2
   24
   27
   25
   27
   27
   29
   Glucose
   93
   103
   101
   106
   Other labs: PT / PTT / INR:12.1/50.4/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:17/27, Alk Phos / T Bili:136/0.4,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL,
   LDH:330 IU/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   .
   # Hypotension: Cardiogenic shock with severe right heart failure and
   high pulm vasc resistants, also with some septic component.  He was
   transitioned from dopamine and levophed to vasopressin in an attempt to
   wean pressors.
   - pressors as needed for MAPs>60; wean vasopressin
   - consider NO for pulm vasodilation and better forward flow if BP
   decompensates again
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   #  Hypoxemic respiratory failure: Patient with multilobar pneumonia,
   bacterial vs. viral (H1N1).  Requiring high MV (13.6).  Some component
   of edema as currently up 15L LOS.  Unlikely MI, TRALI, or PE. Weaned on
   vent from PEEP 8 to 5over course of day yesterday.
   - low TV ventilation goal 6 cc/kg
   - continue diuresis -50 cc/hr keeping CVP >8
   - Vanc, Cefepime, Levofloxacin for pneumonia for 8 days from [**11-28**] to
   [**12-6**]
   - Tamiflu at renally adjusted treatment dose; could consider peramivir;
   virology still waiting for state lab results
   - combivent standing
   - trial of inhailed NO
   .
   # CAD: Likely ongoing ischemia, possibly demand related, but may also
   be occlusive.  Cardiology following along and appreciate recs.  [**Month (only) 51**]
   benefit from cardiac cath if sufficiently stable.
   - on ASA, statin
   - cath once out of ICU
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH.
   - continue CVVH with goal of negative 25 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: HCT 27 on admission to OSH. Received 1u PRBCs.
   - trend, daily sufficient
   - has been stable recently
   .
   # Afib: Currently in afib, avg heart rate with wide variation 70s to
   120s.
   -rate: hold metoprolol given current pressor requirement.
   -anticoagulation: coumadin on hold, heparin drip w/ ACS dosing
   - consider cardioversion tomorrow
   .
   # FEN: IVFs / replete lytes prn /
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   # PPX: PPI, heparin, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   # CODE:  full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-4**] 08:27 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-05 11:29:00 Physician Attending Progress Note
HPI:
   67yoM with ARDS, RHF, sepsis; possibly in setting of viral infection.
   24 Hour Events:
   NO trial without evidence of response via non-invasive monitoring /
   ABG.
   Weaned vasopressin, low dose levophed.
   Unable to obtain peramivir secondary to difficulty ordering via CDC,
   now tolerating TFs.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-5**] 08:02 AM
   Vancomycin - [**2102-12-5**] 08:45 AM
   Levofloxacin
   Tamiflu
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 130 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.03 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix)
   Other medications:
   Digoxin qod
   ASA 325mg dailiy
   Buproprion
   Fluoxetine
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-12-5**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 86 (62 - 102) bpm
   BP: 163/60(86) {88/41(56) - 163/60(86)} mmHg
   RR: 24 (24 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 14 (8 - 19)mmHg
   Mixed Venous O2% Sat: 79 - 80
             Total In:
                                                                  4,020 mL
                                                                  2,299 mL
   PO:
             TF:
                                                                    546 mL
                                                                    183 mL
   IVF:
                                                                  3,364 mL
                                                                  2,007 mL
   Blood products:
   Total out:
                                                                  4,814 mL
                                                                  2,368 mL
   Urine:
                                                                    657 mL
                                                                    360 mL
   NG:
                                                                    150 mL
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                   -794 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/42/144/22/2
   Ve: 13.6 L/min
   PaO2 / FiO2: 288
   Physical Examination
   Gen: Somnolent, does not respond to commands.
   Chest: Clear anterior fields
   CV: RRR without murmur
   Abd: s/nt/nd
   Ext: 1+ edema B symmetric
   Labs / Radiology
   7.7 g/dL
   157 K/uL
   106 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   23.5 %
   12.2 K/uL
        [image002.jpg]
                            [**2102-12-4**]  12:41 PM
                            [**2102-12-4**]  04:50 PM
                            [**2102-12-4**]  05:09 PM
                            [**2102-12-4**]  09:40 PM
                            [**2102-12-4**]  09:58 PM
                             [**2102-12-5**]  03:39 AM
                             [**2102-12-5**]  03:54 AM
                             [**2102-12-5**]  08:32 AM
                             [**2102-12-5**]  09:01 AM
                             [**2102-12-5**]  10:33 AM
   WBC
   12.2
   Hct
   23.5
   Plt
   157
   Cr
   1.1
   1.1
   TropT
   1.82
   TCO2
   25
   27
   27
   29
   27
   28
   28
   Glucose
   103
   101
   106
   Other labs: PT / PTT / INR:12.1/50.4/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:17/27, Alk Phos / T Bili:136/0.4,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL,
   LDH:330 IU/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   67yoM with ARDS thought secondary to atypical infection possibly due to
   H1N1 without positive cultures.
   1.  Hypoxemic respiratory failure: ARDS, possible H1N1
   - continue low tidal volume ventilation and supportive care
   - Decrease PEEP 8, if tolerates, will drop FiO2 to 0.4 later
   - TBB negative with CVP goal [**8-14**]
   - Will need to address possibility of trach depending on improvement
   2. Shock: component of RHF, vasoplegia related to resolving infection
   - Given improvement in SV/CO with levophed, would use if needed for
   volume removal
   - No response to NO
   3. ID: suspect viral infection
   - Oseltamivir x 10 days; no need for peramivir now with GI motility
   - Continue vancomycin/levofloxacin/cefepime x 10 days
   4. Renal:  on CVVH, aim for TBB negative, UOP 30-40cc/h
   5. CV:  pAF, NSTEMI c RV dysfxn
   - digoxin level, enzymes down
   - PO amiodarone per cardiology
   - d/c heparin for ACS and afib (in SR)
   6. Neuro:
   - daily awakening trials
   - fent / propofol for sedation, follow triglycerides tomorrow
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-5**] 10:27 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT: start heparin SQ, TEDS/boots
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Comments:  Events reviewed with wife and daughter
   [**Name (NI) 36**] status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  35minutes CCT

2102-12-06 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Updated wife
   Restarted amiodarone 400mg [**Hospital1 7**]
   Ordered for triglycerides this morning
   Started trial of CPAP as he was dysynchronous with the vent and dropped
   his sats.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-5**] 08:45 AM
   Cefipime - [**2102-12-5**] 08:23 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 130 mcg/hour
   Propofol - 15 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-5**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-6**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-6**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 90 (72 - 94) bpm
   BP: 124/57(78) {121/49(70) - 163/60(86)} mmHg
   RR: 26 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 14 (9 - 20)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  6,201 mL
                                                                  2,496 mL
   PO:
   TF:
                                                                    413 mL
                                                                    220 mL
   IVF:
                                                                  5,529 mL
                                                                  2,246 mL
   Blood products:
   Total out:
                                                                  7,588 mL
                                                                  3,625 mL
   Urine:
                                                                    790 mL
                                                                    235 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,387 mL
                                                                 -1,129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 539 (539 - 539) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/42/85.[**Numeric Identifier 126**]/23/0
   Ve: 13 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   7.6 g/dL
   107 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   23.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2102-12-5**]  10:25 AM
                             [**2102-12-5**]  10:33 AM
                             [**2102-12-5**]  02:58 PM
                             [**2102-12-5**]  04:00 PM
                             [**2102-12-5**]  06:46 PM
                             [**2102-12-5**]  09:21 PM
                             [**2102-12-5**]  09:42 PM
                             [**2102-12-6**]  12:05 AM
                             [**2102-12-6**]  03:43 AM
                             [**2102-12-6**]  03:59 AM
   WBC
   9.4
   Hct
   23.3
   Plt
   131
   Cr
   1.0
   0.9
   TCO2
   28
   25
   23
   25
   25
   26
   Glucose
   106
   106
   120
   107
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:17/33, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:322 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Imaging: CXR
   Microbiology: Flu culture pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib on coumadin, CAD s/p CABG
   presents with dyspnea, and hypoxemic respiratory failure.
   .
   # Hypotension: Improving, did not respond to inhaled nitrate. Likely
   resolving septic shock.  On low dose of levophed.
   - pressors as needed for MAPs>60; wean as tolerated.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   - Diurese with CVVH
   #  Hypoxemic respiratory failure: Still on PEEP of 10 but down to 50%
   FIO2.  Failed trail of inhaied NO (did not augment cardiac output).
   - low TV ventilation goal 6 cc/kg
   - continue diuresis -100 cc/hr keeping CVP >8
   - Vanc, Cefepime for pneumonia for 8 days from [**11-28**] to [**12-6**]; d/c today
   - Tamiflu at renally adjusted treatment dose; virology still waiting
   for state lab results
   - combivent standing
   .
   # CAD: Likely demand ischemia and cardiology would like  to cath
   eventually when he is more stable to assess his anatomy for possible
   CABG in future.
   - on ASA, statin
   - cath once out of ICU
   - Heparin stopped
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH. UOP has been
   increasing.
   - continue CVVH with goal of negative 25 cc/hr
   - continue to follow acidosis, is likely all non-compensated metabolic
   as his pCO2 are normal
   .
   # Anemia: Stable
   - Limit blood draws
   - trend, daily sufficient
   - has been stable recently
   .
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT.
   - consider d/c of heparin if worsens.
   .
   # Afib: Currently in sinus
   -amio 400 [**Hospital1 7**]
   -anticoagulation: coumadin on hold
   .
   # FEN: IVFs / replete lytes prn /  TFs
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   # PPX: PPI, heparin, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   # CODE:  full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-6**] 12:28 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-06 08:33:00 Physician Attending Progress Note
HPI:
   67yoM w/ CAD, pAfib, admitted with ARDS.
   24 Hour Events:
   Tolerated CVVH negative 100ml/hr without significant change in BP.
   Appeared uncomfortable this morning and required increased sedation.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-5**] 08:45 AM
   Cefipime - [**2102-12-5**] 08:23 PM
   Oseltamivir
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 130 mcg/hour
   Propofol - 15 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-5**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-6**] 06:29 AM
   Other medications:
   ASA 325mg daily
   Fluoxetine
   Albuterol
   Simvastatin
   Amiodarone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-6**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 93 (72 - 94) bpm
   BP: 132/57(79) {121/49(70) - 163/60(86)} mmHg
   RR: 26 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 13 (9 - 20)mmHg
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  6,201 mL
                                                                  2,817 mL
   PO:
   TF:
                                                                    413 mL
                                                                    255 mL
   IVF:
                                                                  5,529 mL
                                                                  2,532 mL
   Blood products:
   Total out:
                                                                  7,588 mL
                                                                  3,981 mL
   Urine:
                                                                    790 mL
                                                                    235 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,387 mL
                                                                 -1,164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 539 (539 - 539) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 25
   PEEP: 7 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/42/85
   Ve: 13 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen: Somnolent, does not respond to voice/commands
   Chest:  Rhonchi and wheeze bilateral anterior and superior posterior
   lung fields, slightly improved after suctioning.
   CV: limited exam secondary to lung/vent sounds; RRR
   Abd: Abdominal muscle contraction at end exhalation; o/w s/nt/nd
   Ext: 1+ B edema
   Labs / Radiology
   7.6 g/dL
   131 K/uL
   107 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.3 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   23.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2102-12-5**]  10:25 AM
                             [**2102-12-5**]  10:33 AM
                             [**2102-12-5**]  02:58 PM
                             [**2102-12-5**]  04:00 PM
                             [**2102-12-5**]  06:46 PM
                             [**2102-12-5**]  09:21 PM
                             [**2102-12-5**]  09:42 PM
                             [**2102-12-6**]  12:05 AM
                             [**2102-12-6**]  03:43 AM
                             [**2102-12-6**]  03:59 AM
   WBC
   9.4
   Hct
   23.3
   Plt
   131
   Cr
   1.0
   0.9
   TCO2
   28
   25
   23
   25
   25
   26
   Glucose
   106
   106
   120
   107
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:17/33, Alk Phos / T Bili:126/0.4,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:322 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Micro: no growth to date.  PCR pending
   CXR: No significant change
   Assessment and Plan
   67yoM with ARDS suspected secondary to influenza.
   1.       Respiratory Failure:  ARDS, also with evidence of flow
   limitation on exam.  Suspect component of volume overload and
   bronchospasm.  Hypoxemia improving slowly.
   - Aim CVVH negative with goal 1.5-2L daily as he tolerates.
   - Bronchospasm: increase standing bronchodilators
   - Wean FiO2/PEEP if hypoxemia improves
   2.       Shock:  Improving, now with minimal pressors
   - continue levophed
   3.       Renal: CVVH
   - Continue to run negative as tolerates given his overall volume
   balance
   - tolerate pressors if necessary
   4.       ID: No positive cultures
   - Oseltamivir x 10 days
   - d/c vancomycin/cefipime today s/p course
   5.       CV:  Eval for ischemia after improvement
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-6**] 12:28 AM 30 mL/hour
   Glycemic Control:  Well controlled
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT: heparin prophy
   Stress ulcer: PPI
   VAP: HOB/mouthcare/peridex
   Communication:  Will update family today
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  35 minutes CCT

2102-12-07 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Updated wife
   Triglycerides ok at 266
   Held CVVH at 100cc/hr as SVV increasing
   d/c'd vanc/cefepime
   Started becoming more dysnchronous with the vent on PS, inc RR, slight
   desat, improved with back on AC with ARDS settings, increased sedation
   with fent/propofol, and increased PEEP to 10
   D/C'd resp. precautions per infection control standards (ok after 5
   days of treatment)
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-6**] 08:00 AM
   Cefipime - [**2102-12-6**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 300 mcg/hour
   Propofol - 84.4 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-12-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 62 (62 - 98) bpm
   BP: 122/48(67) {90/41(55) - 132/57(79)} mmHg
   RR: 30 (25 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 15 (11 - 40)mmHg
   Total In:
                                                                  7,840 mL
                                                                  2,293 mL
   PO:
   TF:
                                                                    730 mL
                                                                    217 mL
   IVF:
                                                                  7,020 mL
                                                                  2,046 mL
   Blood products:
   Total out:
                                                                 10,674 mL
                                                                  2,462 mL
   Urine:
                                                                    547 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,834 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 577 (566 - 600) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.33/46/86.[**Numeric Identifier 143**]/22/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: Sedated on the vent, non responsive
   Heart:  Regular, bradycardic, No MRG but distant heart sounds
   Lungs: Expiratory wheezes diffusely
   Abd: Soft, NT, ND, BS+
   Ext: Trace LE edema
   Labs / Radiology
   120 K/uL
   7.3 g/dL
   117 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   138 mEq/L
   22.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-12-6**]  09:42 AM
                             [**2102-12-6**]  10:11 AM
                             [**2102-12-6**]  01:59 PM
                             [**2102-12-6**]  03:35 PM
                             [**2102-12-6**]  03:56 PM
                             [**2102-12-6**]  05:10 PM
                             [**2102-12-6**]  10:07 PM
                             [**2102-12-6**]  10:20 PM
                             [**2102-12-7**]  04:16 AM
                             [**2102-12-7**]  04:29 AM
   WBC
   10.2
   Hct
   22.6
   Plt
   120
   Cr
   0.9
   1.0
   1.3
   TCO2
   25
   25
   26
   24
   25
   25
   Glucose
   116
   132
   115
   117
   Other labs: PT / PTT / INR:12.8/26.6/1.1, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:31/58, Alk Phos / T Bili:164/0.5,
   Amylase / Lipase:/53, Differential-Neuts:84.0 %, Band:6.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:282 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   .
   # Hypotension: Slowly improving, only on small dose of Levophed and
   taking off 100cc/hr. Has had episodes of bradycardia and hypotension w/
   weaning Levophed.
   - Levophed as needed for MAPs>60; wean as tolerated.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   - Diurese with CVVH, will decrease to 50cc/hr
   #  Hypoxemic respiratory failure: Failed trial of PS yesterday [**2-6**]
   hypoxia, pulmonary mechanics slowly improving, will tolerate lower PO2s
   if still satting 100%. Respiratory viral culture negative.
   - continue diuresis keeping CVP >8
   - Finished course of Abx for VAP
   - Tamiflu at renally adjusted treatment dose; virology still waiting
   for state lab results
   - combivent standing
   .
   #Bradycardia/sinus block: Intermittently dropping P waves.  Discussed
   w/ cards will stop digoxin and continue amiodarone. No signs of
   ischemia on EKG.
   -          D/c digoxin
   -          - Continue amiodarone
   # CAD: Likely demand ischemia and cardiology would like  to cath
   eventually when he is more stable to assess his anatomy for possible
   CABG in future.
   - on ASA, statin
   - cath once out of ICU
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH. UOP has been
   increasing.
   - continue CVVH with goal of negative 50cc/hr
   - appreciate renal recs
   .
   # Anemia: Stable
   - Limit blood draws
   - trend, daily sufficient
   - has been stable recently
   - Likely transfuse [**12-8**] after phlebotomy for Hct <21
   .
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT.
   -  d/c of heparin
   .
   # Afib: Currently in sinus
   -amio 400 [**Hospital1 7**]
   -anticoagulation: coumadin on hold
   .
   # FEN: IVFs / replete lytes prn /  TFs
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   ICU Care
   # PPX: PPI, holding heparin for thrombocytopenia, bowel regimen
   # ACCESS:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   # CODE:  full.
   # CONTACT:  Wife: [**Telephone/Fax (1) 11747**]. [**Name2 (NI) **]ct of ICU at [**Hospital3 **] [**Telephone/Fax (1) 11748**].
   # DISPO: ICU

2102-12-07 08:02:00 Physician Attending Progress Note
HPI:
   67M with ARDS thought secondary to H1N1
   24 Hour Events:
   Required increased sedation and change to volume control yesterday for
   increased work of breathing and vent dysynchrony.  Improving PaO2
   today.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Oseltamivir
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Propofol - 80 mcg/Kg/min
   Fentanyl 300mcg
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-12-7**] 06:00 AM
   Other medications:
   Colace
   Digoxin
 held
   Buproprion
   Fluoxetine
   Protonix
   Simvastatin
   Bronchodilators q4h
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-7**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 62 (62 - 98) bpm
   BP: 122/48(67) {90/41(55) - 122/56(75)} mmHg
   RR: 30 (25 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 15 (11 - 40)mmHg
   Total In:
                                                                  7,840 mL
                                                                  2,572 mL
   PO:
   TF:
                                                                    730 mL
                                                                    244 mL
   IVF:
                                                                  7,020 mL
                                                                  2,298 mL
   Blood products:
   Total out:
                                                                 10,674 mL
                                                                  2,853 mL
   Urine:
                                                                    547 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,834 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 577 (566 - 577) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: 7.33/46/86
   Ve: 11.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: Somnolent, does not respond to voice or stimuli
   Chest: Clear anterior lung sounds
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.3 g/dL
   120 K/uL
   117 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   138 mEq/L
   22.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-12-6**]  09:42 AM
                             [**2102-12-6**]  10:11 AM
                             [**2102-12-6**]  01:59 PM
                             [**2102-12-6**]  03:35 PM
                             [**2102-12-6**]  03:56 PM
                             [**2102-12-6**]  05:10 PM
                             [**2102-12-6**]  10:07 PM
                             [**2102-12-6**]  10:20 PM
                             [**2102-12-7**]  04:16 AM
                             [**2102-12-7**]  04:29 AM
   WBC
   10.2
   Hct
   22.6
   Plt
   120
   Cr
   0.9
   1.0
   1.3
   TCO2
   25
   25
   26
   24
   25
   25
   Glucose
   116
   132
   115
   117
   Other labs: PT / PTT / INR:12.8/26.6/1.1, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:31/58, Alk Phos / T Bili:164/0.5,
   Amylase / Lipase:/53, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:282
   IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Micro:  Negative cultures, H1N1 negative
   CXR: Lower lung volumes, interval worsening of bilateral interstitial
   opacities.
   Assessment and Plan
   67yoM with ARDS thought secondary to H1N1 infection, but not confirmed.
   1. Respiratory failure secondary to ARDS:  Back on VC today Vt 420,
   PEEP 10, FiO2 .5
   - Attempt to decrease PEEP and FiO2.
   - Continue current Vt settings
   - Continue run CVVH negative, goal CVP < [**8-14**] as tolerated
   - Re-address possibility of trach with family
   2. Shock: suspect cardiogenic component with RV overload; stable on
   low-dose levophed
   - continue levophed, follow SVV if reduce/discontinue
   3. CV: 1^st degree AVB, ? sinus block, pAfib
   - discontinue digoxin, continue amiodarone
   - off heparin therapeutically
   - eventual cardiac ischemic eval following improvement of ARDS
   4. Renal failure: CVVH; plan to run negative 50ml/hr today, continue to
   assess.
   5. Heme: thrombocytopenia and anemia
   - check HIT, hold heparin prophylaxis
   - Transfusion goal 21, continue to follow HCT.  History of possible
   TRALI)
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-6**] 04:53 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:  holding heparin await HIT;
   Stress ulcer: PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Will update family today
   Code status: Full code
   Disposition:  Critically ill, to remain in ICU
   Total time spent:  35minutes CCT

2102-12-08 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-12-7**] 08:15 AM
   updated wife, she will be in today around noon, mentioned trach
   episodes of sinus arrest bradycardia to 30s with pressure drops.
   Stopped dig, held amio.  Tried dobutamine, which caused ventricular
   extopy.  Started dopamine with good effect.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-6**] 08:00 AM
   Cefipime - [**2102-12-6**] 08:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Dopamine - 2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl - 300 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-7**] 09:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-8**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 83 (49 - 91) bpm
   BP: 97/45(60) {94/40(58) - 171/63(96)} mmHg
   RR: 29 (23 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 15 (7 - 24)mmHg
   Total In:
                                                                  8,545 mL
                                                                  2,326 mL
   PO:
   TF:
                                                                    394 mL
                                                                    115 mL
   IVF:
                                                                  7,881 mL
                                                                  2,181 mL
   Blood products:
   Total out:
                                                                  8,561 mL
                                                                  1,953 mL
   Urine:
                                                                    400 mL
                                                                     69 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 31 cmH2O
   Compliance: 26.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/43/81.[**Numeric Identifier 508**]/22/-1
   Ve: 13.4 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   7.7 g/dL
   104 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.0 mEq/L
   19 mg/dL
   104 mEq/L
   137 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2102-12-7**]  09:30 AM
                             [**2102-12-7**]  09:50 AM
                             [**2102-12-7**]  03:33 PM
                             [**2102-12-7**]  03:56 PM
                             [**2102-12-7**]  06:38 PM
                             [**2102-12-7**]  10:06 PM
                             [**2102-12-7**]  10:21 PM
                             [**2102-12-8**]  04:15 AM
                             [**2102-12-8**]  04:29 AM
                             [**2102-12-8**]  06:07 AM
   WBC
   12.7
   Hct
   23.6
   Plt
   123
   Cr
   1.2
   1.1
   1.2
   TCO2
   24
   24
   23
   24
   24
   25
   Glucose
   110
   106
   91
   104
   Other labs: PT / PTT / INR:11.8/25.6/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:282 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   .
   # Hypotension: Had been requiring lower doses of levophed.  Added
   dopamine because of bradycardic episodes.
   - Levophed as needed for MAPs>60; wean as tolerated.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   - Diurese with CVVH, will decrease to 50cc/hr
   #  Hypoxemic respiratory failure: Failed trial of PS yesterday [**2-6**]
   hypoxia, pulmonary mechanics slowly improving, will tolerate lower PO2s
   if still satting 100%. Respiratory viral culture negative.
   - continue diuresis keeping CVP >8
   - Finished course of Abx for VAP
   - Tamiflu at renally adjusted treatment dose, 10 day course completed
   today
   - combivent standing
   .
   #Bradycardia/sinus block: Intermittently dropping P waves.  Discussed
   w/ cards will stop digoxin and continue amiodarone. No signs of
   ischemia on EKG.  Off dig.
   - d/c amiodorone
   - wean dopamine as tolerated.
   .
   # CAD: Likely demand ischemia and cardiology would like  to cath
   eventually when he is more stable to assess his anatomy for possible
   CABG in future.
   - on ASA, statin
   - cath once out of ICU
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH. UOP has been
   increasing.
   - continue CVVH with goal of negative 50cc/hr
   - appreciate renal recs
   .
   # Anemia: Stable
   - trend, daily sufficient
   - Transfuse for Hct <21
   .
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT.
   -  d/c of heparin
   .
   # Afib: Currently in sinus
   -anticoagulation: coumadin on hold
   .
   # FEN: IVFs / replete lytes prn /  TFs
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-7**] 04:02 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT:, holding heparin for thrombocytopenia,
   Stress ulcer: PPI
   VAP:  bundle
   Comments: bowel regimen
   Communication:   Wife: [**Telephone/Fax (1) 11747**]. Contact of ICU at [**Hospital3 **]
   [**Telephone/Fax (1) 11918**].
   Code status: Full code
   Disposition: ICU

2102-12-08 11:06:00 Physician Attending Progress Note
HPI:
   67yoM with ARDS thought secondary to H1N1
   24 Hour Events:
   Bradycardia with sinus pauses yesterday; holding digoxin and
   amiodarone.  Started dobutamine for bradycardia, developed bursts of
   ventricular arrhythmia so changed to dopamine with adequate BP and
   improvement of arrhythmia.  Decreased PaO2  with drop in PEEP;
   increased PEEP in response.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-6**] 08:00 AM
   Vancomycin - [**2102-12-6**] 08:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Dopamine - 2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Fentanyl - 300 mcg/hour
   Other medications:
   Peridex
   Colace
   ASA
   Wellbutrin
   PPI
   Albuterol q4h
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-12-8**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 70 (49 - 91) bpm
   BP: 97/36(54) {94/36(54) - 171/63(96)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 9 (7 - 24)mmHg
             Total In:
                                                                  8,545 mL
                                                                  3,219 mL
   PO:
             TF:
                                                                    394 mL
                                                                    159 mL
   IVF:
                                                                  7,881 mL
                                                                  2,970 mL
   Blood products:
   Total out:
                                                                  8,561 mL
                                                                  2,836 mL
   Urine:
                                                                    400 mL
                                                                    139 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/40/155/22/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Gen: Somnolent, does not respond to commands
   Chest: Clear anterior; diminished/bronchial breath sounds at RLL
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.7 g/dL
   123 K/uL
   104 mg/dL
   1.2 mg/dL
   22 mEq/L
   5.0 mEq/L
   19 mg/dL
   104 mEq/L
   137 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2102-12-7**]  09:50 AM
                             [**2102-12-7**]  03:33 PM
                             [**2102-12-7**]  03:56 PM
                             [**2102-12-7**]  06:38 PM
                             [**2102-12-7**]  10:06 PM
                             [**2102-12-7**]  10:21 PM
                             [**2102-12-8**]  04:15 AM
                             [**2102-12-8**]  04:29 AM
                             [**2102-12-8**]  06:07 AM
                             [**2102-12-8**]  10:20 AM
   WBC
   12.7
   Hct
   23.6
   Plt
   123
   Cr
   1.1
   1.2
   TCO2
   24
   24
   23
   24
   24
   25
   25
   Glucose
   106
   91
   104
   Other labs: PT / PTT / INR:11.8/25.6/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:282 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Micro: sputum gram stain: yeast
   CXR:
   Assessment and Plan
   67yoM with h/o CAD, here with ARDS thought secondary to possible
   influenza.
   1.       Shock:  persistent levophed; low dose dopamine
   - Goal CVP 8-10; BP slightly lower than yesterday.  Would favor
   euvolemia given evidence of hemodynamic instability
   - MAP > 60
   - d/c dopamine given low-dose might contribute to vasodilation
   2.       Respiratory Failure:
   - Maintain low-tidal volume ventilation
   - decrease FiO2 to 0.4
   - will discuss trach with wife if no improvement over weekend
   3.       PNA:
   - Send cultures: UA/Ucx/sputum/blood
   - Completed courses of oseltamivir/vancomycin/cefipime
   4.       CV: sinus pause?
   - holding digoxin and amiodarone for now
   - Eventual cath if improves
   5.       Renal:
           - CVVH even today
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-7**] 04:02 PM 15 mL/hour
   Glycemic Control:  Glucose well controlled
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Dialysis Catheter - [**2102-11-30**] 06:00 PM
   Prophylaxis:
   DVT: awaiting HIT; TEDs/boots
   Stress ulcer:  PPI
   VAP:  HOB/mouth care
   Communication:  Will discuss with wife
   [**Name (NI) 36**] status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  45minutes CCT

2102-12-09 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory Failure
   24 Hour Events:
 EKG - At [**2102-12-8**] 08:00 AM
 DIALYSIS CATHETER - STOP [**2102-12-8**] 05:00 PM
   Discussed possibility of trach with wife and she agreed if it was
   necessary.
   Renal thought that he had some redness around his HD line so pulled the
   line.
   Had low grade temps 100.3-got cultured
   Pulse variation increased from 5->28 so he was given a 250cc bolus with
   some effect.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-6**] 08:00 AM
   Vancomycin - [**2102-12-6**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 93 (63 - 93) bpm
   BP: 104/47(64) {90/36(54) - 141/56(79)} mmHg
   RR: 30 (29 - 31) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 6 (6 - 19)mmHg
   Total In:
                                                                  5,150 mL
                                                                    458 mL
   PO:
   TF:
                                                                    348 mL
                                                                     24 mL
   IVF:
                                                                  4,562 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  4,549 mL
                                                                     55 mL
   Urine:
                                                                    316 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.40/38/81.[**Numeric Identifier 508**]/22/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   95 K/uL
   6.7 g/dL
   93 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.7 mEq/L
   27 mg/dL
   107 mEq/L
   137 mEq/L
   21.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2102-12-8**]  04:15 AM
                             [**2102-12-8**]  04:29 AM
                             [**2102-12-8**]  06:07 AM
                             [**2102-12-8**]  09:55 AM
                             [**2102-12-8**]  10:20 AM
                             [**2102-12-8**]  03:59 PM
                             [**2102-12-8**]  04:07 PM
                             [**2102-12-8**]  10:41 PM
                             [**2102-12-9**]  04:24 AM
                             [**2102-12-9**]  04:45 AM
   WBC
   12.7
   7.3
   Hct
   23.6
   21.1
   Plt
   123
   95
   Cr
   1.2
   1.3
   1.3
   1.7
   2.0
   TCO2
   24
   25
   25
   25
   24
   Glucose
   104
   116
   117
   106
   93
   Other labs: PT / PTT / INR:11.7/26.7/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:282 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Microbiology: HIT Negative
   [**2102-12-8**] 2:24 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2102-12-8**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   URINE CULTURE [**12-7**] (Final [**2102-12-8**]):    NO GROWTH
   Blood Cx 12/3/4/5 NGTD
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   .
   # Hypotension: Had been requiring lower doses of levophed.  Added
   dopamine because of bradycardic episodes but now off and no further
   bradycardic episodes
   - Levophed as needed for MAPs>60; wean as tolerated.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   #  Hypoxemic respiratory failure: Failed trial of PS yesterday [**2-6**]
   hypoxia, pulmonary mechanics slowly improving, will tolerate lower PO2s
   if still satting 100%. Respiratory viral culture negative.
   - Finished course of [**Month/Day (2) 40**] for VAP, however low grade fevers and +GNRs on
   sputum GS, consider restarting [**Last Name (LF) **], [**First Name3 (LF) **] check CXR and if worse or if
   spikes will restart [**First Name3 (LF) **]
   - Tamiflu at renally adjusted treatment dose, 10 day course completed
   - combivent standing
   .
   #Bradycardia/sinus block: Intermittently dropping P waves.  Improved
   with discontinuation of digoxin and amiodarone.
   -Continue to monitor
   .
   # CAD: Likely demand ischemia and cardiology would like  to cath
   eventually when he is more stable to assess his anatomy for possible
   CABG in future.
   - on ASA, statin
   - cath once out of ICU
   .
   # Acute renal failure: Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension
   vs. contrast induced nephropathy.  Started on CVVH. UOP has been
   increasing. Now off CVVH due to ? infected line
   - Re-eval status on Monday ? restart CVVH after line holiday
   - appreciate renal recs
   .
   # Anemia: Slightly down trending today, consider transfusion if <21 but
   hold for now to avoid volume overload
   - trend, daily sufficient
   - Transfuse for Hct <21
   .
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT. HIT negative
   -  restart heparin gtt given recent a.fib/flutt
   -Check fibrinogen for ? DIC but less likey given normal coags.
   .
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   -Restart heparin gtt
   .
   # FEN: IVFs / replete lytes prn /  TFs
   Nutren 2.0 (Full) - [**2102-12-4**] 01:58 AM 30 mL/hour
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-7**] 04:02 PM 15.[**Telephone/Fax (5) 11928**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2102-12-09 10:28:00 Physician Attending Progress Note
HPI:
   67M with ARDS thought secondary to H1N1 (unconfirmed)
   24 Hour Events:
   This morning developed afib RVR with tenuous blood pressure requiring
   neo.  Rate now improved.  Off CVVH yesterday because of concern for HD
   line.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-9**] 08:00 AM
   Other medications:
   Colace
   ASA
   Wellbutrin
   Prozac
   Albuterol/ipatropium
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-12-9**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 90 (63 - 93) bpm
   BP: 126/56(76) {90/37(54) - 145/60(85)} mmHg
   RR: 30 (29 - 31) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 8 (6 - 19)mmHg
             Total In:
                                                                  5,150 mL
                                                                    615 mL
   PO:
             TF:
                                                                    348 mL
                                                                     80 mL
   IVF:
                                                                  4,562 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  4,549 mL
                                                                    110 mL
   Urine:
                                                                    316 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    601 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.39/37/110/
   Ve: 12.2 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Gen: Somnolent, does not respond to commands
   Chest: CTA anteriorly, no wheeze
   CV: IR/IR
   Abd: s/nt/nd
   Ext: Minimal edema
   Labs / Radiology
   6.7 g/dL
   95 K/uL
   93 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.7 mEq/L
   27 mg/dL
   107 mEq/L
   137 mEq/L
   21.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2102-12-8**]  04:29 AM
                             [**2102-12-8**]  06:07 AM
                             [**2102-12-8**]  09:55 AM
                             [**2102-12-8**]  10:20 AM
                             [**2102-12-8**]  03:59 PM
                             [**2102-12-8**]  04:07 PM
                             [**2102-12-8**]  10:41 PM
                             [**2102-12-9**]  04:24 AM
                             [**2102-12-9**]  04:45 AM
                             [**2102-12-9**]  08:35 AM
   WBC
   7.3
   Hct
   21.1
   Plt
   95
   Cr
   1.3
   1.3
   1.7
   2.0
   TCO2
   24
   25
   25
   25
   24
   23
   Glucose
   116
   117
   106
   93
   Other labs: PT / PTT / INR:11.7/26.7/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:282 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   HIT: negative
   Sputum: 2+ GNR and yeast; urine culture
 no growth
   Assessment and Plan
   67M with ARDS thought secondary to H1N1 with persistent respiratory
   failure.
   1. Hypoxemic respiratory failure secondary to ARDS:
   - Decrease PEEP to 5
   - If tolerates lower PEEP, will trial PSV briefly
   2. Shock:  Currently remains on low-dose levophed.
   - Continue current dose levophed
   3. Cardiovascular: afib
   - restart amiodarone
   - therapeutic heparin for afib
   4. Renal: CVVH holiday
   - Will re-assess volume status/hemodynamics and oxygenation
   5. Fever/sputum with GNR:
   - check CXR today to evaluate for any worsening infiltrate; but minimal
   sputum, oxygenation improving; doubt VAP
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-9**] 07:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Prophylaxis:
   DVT:  restart heparin
   Stress ulcer:  PPI
   VAP:  HOB/mouthcare/chlorhexidine
   Communication:  Update family
   Code status: Full code
   Disposition : Critically ill, remains in ICU
   Total time spent:  35minutes CCT

2102-12-10 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Temp to 100.5, slightly worse CXR->restarted vanc/cefepime/cipro
   Decreased PEEP to 5
   Restarted Heparin gtt for a.fib/flutter given HIT neg
   Restarted amio as still in flutter but rates better
   RSBI 70 but failed SBT due to tachycardia and desat to 91%, Able to
   tolerate PS but about 30 minutes but slight increase in CO2, placed
   back on AC to rest overnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 225 mcg/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-9**] 08:00 AM
   Heparin Sodium - [**2102-12-10**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 91 (67 - 118) bpm
   BP: 120/54(73) {96/44(60) - 167/60(86)} mmHg
   RR: 30 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 12 (8 - 16)mmHg
   Total In:
                                                                  1,561 mL
                                                                    563 mL
   PO:
   TF:
                                                                    485 mL
                                                                    220 mL
   IVF:
                                                                    706 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                    112 mL
   Urine:
                                                                    290 mL
                                                                    112 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 650 (180 - 650) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.36/40/95.[**Numeric Identifier 218**]/20/-2
   Ve: 12.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: Sedated on the vent, non responsive
   Heart:  Regular, bradycardic, No MRG but distant heart sounds
   Lungs: Expiratory wheezes diffusely
   Abd: Soft, NT, ND, BS+
   Ext: No LE edema
   Labs / Radiology
   113 K/uL
   6.3 g/dL
   117 mg/dL
   3.1 mg/dL
   20 mEq/L
   4.9 mEq/L
   47 mg/dL
   106 mEq/L
   136 mEq/L
   19.4 %
   6.9 K/uL
                             [**2102-12-8**]  03:59 PM
                             [**2102-12-8**]  04:07 PM
                             [**2102-12-8**]  10:41 PM
                             [**2102-12-9**]  04:24 AM
                             [**2102-12-9**]  04:45 AM
                             [**2102-12-9**]  08:35 AM
                             [**2102-12-9**]  11:06 AM
                             [**2102-12-9**]  05:14 PM
                             [**2102-12-10**]  04:16 AM
                             [**2102-12-10**]  04:24 AM
   WBC
   7.3
   6.9
   Hct
   21.1
   19.4
   Plt
   95
   113
   Cr
   1.3
   1.7
   2.0
   3.1
   TCO2
   25
   24
   23
   23
   25
   24
   Glucose
   117
   106
   93
   117
   Other labs: PT / PTT / INR:11.7/68.0/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
[**2102-12-8**] 2:24 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2102-12-8**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
   Assessment and Plan
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   #  Hypoxemic respiratory failure:  Tolerated PS trial. Pulmonary
   mechanics slowly improving, will tolerate lower PaO2s if still satting
   100%. Respiratory viral culture negative.
   - attempt to diurese when HD available
   - Likely will need tracheostomy; consult IP tomorrow
   - Will d/c abx in 48 hrs if culture negative
   - Tamiflu at renally adjusted treatment dose, 10 day course completed
   - combivent standing
   # Hypotension: Now off levophed and dopamine.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   #Bradycardia/sinus block: Intermittently dropping P waves.  Improved
   with discontinuation of digoxin and amiodarone.
   -Continue to monitor
   # CAD: Likely demand ischemia and cardiology would like  to cath
   eventually when he is more stable to assess his anatomy for possible
   CABG in future.
   - on ASA, statin
   - cath once out of ICU
   # Acute renal failure: Volume up and Cr trending up off of CVVH.  No
   need for urgent dialysis today. Baseline Cr 1.1. [**Month (only) 51**] be ATN given
   hypotension vs. contrast induced nephropathy.  Started on CVVH. UOP has
   been increasing. Now off CVVH due to ? infected line
   - Re-eval status on Monday ? restart CVVH after line holiday
   - appreciate renal recs
   .
   # Anemia: Continues to trend down.  Transfused 1U on [**12-10**].  Likely [**2-6**]
   phlebotomy, no clear source of bleeding.
   - Transfuse for Hct <21
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT. HIT negative,
   normal fibrinogen
   - restart heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   -Restart heparin gtt
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-12-10 10:54:00 Physician Attending Progress Note
HPI:
    67M with ARDS thought secondary to H1N1
   24 Hour Events:
   SBT yesterday with increased PaCO2; RISB 70.  VC overnight.
   Restarted abx yesterday with concern for VAP.
   Off pressors yesterday.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin
   Cefipime
   Cipro
   Infusions:
   Fentanyl - 200 mcg/hour
   Heparin Sodium - 1,600 units/hour
   Other medications:
   Wellbutrin
   Prozac
   ASA
   Simvastatin
   Albuterol/atrovent q4h
   Amiodarone
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-10**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 72 (67 - 118) bpm
   BP: 119/53(72) {96/44(60) - 167/72(100)} mmHg
   RR: 30 (16 - 35) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 8 (8 - 16)mmHg
   Total In:
                                                                  1,561 mL
                                                                  1,172 mL
   PO:
   TF:
                                                                    485 mL
                                                                    318 mL
   IVF:
                                                                    706 mL
                                                                    323 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    290 mL
                                                                    177 mL
   Urine:
                                                                    290 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                    995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 35 (35 - 650) mL
   PS : 14 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.36/40/95.[**Numeric Identifier 218**]/20/-2
   NIF: -34 cmH2O
   Ve: 12.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: Opens eyes to voice, does not track, does not follow commands.
   HEENT: no scleral edema. PERRL.
   Chest: Clear anterior; reduced and bronchial breath sounds at left base
   CV: IR/IR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   6.3 g/dL
   113 K/uL
   117 mg/dL
   3.1 mg/dL
   20 mEq/L
   4.9 mEq/L
   47 mg/dL
   106 mEq/L
   136 mEq/L
   19.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2102-12-8**]  03:59 PM
                             [**2102-12-8**]  04:07 PM
                             [**2102-12-8**]  10:41 PM
                             [**2102-12-9**]  04:24 AM
                             [**2102-12-9**]  04:45 AM
                             [**2102-12-9**]  08:35 AM
                             [**2102-12-9**]  11:06 AM
                             [**2102-12-9**]  05:14 PM
                             [**2102-12-10**]  04:16 AM
                             [**2102-12-10**]  04:24 AM
   WBC
   7.3
   6.9
   Hct
   21.1
   19.4
   Plt
   95
   113
   Cr
   1.3
   1.7
   2.0
   3.1
   TCO2
   25
   24
   23
   23
   25
   24
   Glucose
   117
   106
   93
   117
   Other labs: PT / PTT / INR:11.7/68.0/1.0, CK / CKMB /
   Troponin-T:177/5/1.82, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   67yoM with ARDS thought secondary to H1N1
   1.  Respiratory Failure;  Barriers to extubation include mental status;
   possible new PNA
   - Off CVVH currently, likely will need to restart renal replacement
   tomorrow for volume status. [**Month (only) 51**] be candidate for intermittent HD now
   that BP improved.
   - Minimal settings in terms of oxygenation: FiO2 0.4/PEEP 5.
   - Treating PNA empirically, awaiting culture
   - Likely moving towards tracheostomy tomorrow
   2.  Probable VAP based on CXR, fevers, sputum:
   - Vancomycin/cefipime/cipro; f/u cultures
   3.  Neuro:  Persistent encephalopathy, but some minimal improvement.
   - titrating down sedation; if needed add back propofol for agitation.
   4. Renal:  CVVH holiday; minimal UOP; Cr increasing.  Potassium ok
   - Likely reinitate renal replacement tomorrow.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   Prophylaxis:
   DVT:  heparin drip
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexideine
   Communication:  Will update family today, discuss trach
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT

2102-12-11 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-12-10**] 10:50 PM
 EKG - At [**2102-12-10**] 11:45 PM
 BLOOD CULTURED - At [**2102-12-11**] 12:34 AM
   Consulted IR for temp line for CVVH tomorrow.
   Transfused 1 U PRBC.
   Family ok with trach.
   At 2300, rapid rate->EKG c STE V2-V5; faxed to cards, started esmolol
   gtt, checked enzymes, CBC.  With lower rate STE resolved.  Possibly EKG
   machine malfunction?
   Maintained on esmolol o/n until BP dropped 2 hours later, then levophed
   for 3 hours, now off gtts.
   Started EPO per renal recs
   Transfused 1 more unit for Hct < 21
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-10**] 04:11 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-12-10**] 10:42 PM
   Fentanyl - [**2102-12-10**] 11:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 81 (68 - 137) bpm
   BP: 114/50(69) {86/43(57) - 166/72(100)} mmHg
   RR: 30 (19 - 35) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 12 (8 - 19)mmHg
   Total In:
                                                                  2,017 mL
                                                                    855 mL
   PO:
   TF:
                                                                    485 mL
   IVF:
                                                                    792 mL
                                                                    290 mL
   Blood products:
                                                                    350 mL
                                                                    325 mL
   Total out:
                                                                    423 mL
                                                                    146 mL
   Urine:
                                                                    423 mL
                                                                    146 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 35 (35 - 35) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.36/38/90.[**Numeric Identifier 126**]/20/-3
   NIF: -34 cmH2O
   Ve: 13.3 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   6.6 g/dL
   121 mg/dL
   4.0 mg/dL
   20 mEq/L
   5.5 mEq/L
   65 mg/dL
   105 mEq/L
   137 mEq/L
   20.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2102-12-9**]  11:06 AM
                             [**2102-12-9**]  05:14 PM
                             [**2102-12-10**]  04:16 AM
                             [**2102-12-10**]  04:24 AM
                             [**2102-12-10**]  11:09 AM
                             [**2102-12-10**]  02:34 PM
                             [**2102-12-10**]  09:00 PM
                             [**2102-12-10**]  11:19 PM
                             [**2102-12-11**]  03:44 AM
                             [**2102-12-11**]  03:55 AM
   WBC
   6.9
   7.2
   7.3
   Hct
   19.4
   21.4
   22.1
   20.5
   Plt
   113
   134
   136
   Cr
   3.1
   4.0
   TropT
   1.74
   1.65
   TCO2
   23
   25
   24
   22
   21
   22
   Glucose
   117
   121
   Other labs: PT / PTT / INR:13.7/66.2/1.2, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.6
   mg/dL
   Microbiology: [**2102-12-8**] 2:24 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2102-12-8**]):
   >25 PMNs and <10 epithelial cells/100X field.
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         GRAM NEGATIVE ROD #1.    MODERATE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # EKG changes: After reviewing with cardiology, it is unclear if these
   changes were related to interference with leads.  Resolved with
   esmolol, but also had to change EKG machine.  Cardiac enzymes flat.
   Patient likely has some demand ischemia and should idealy have rate
   control.
   - esmolol prn HR > 90
   - on heparin gtt.
   - ASA, statin
   - apprciate cardiology input.
   - cath once out of ICU
   #  Hypoxemic respiratory failure:  Slowly weaning, but may need
   prolonged wean.  Positive sputum culture and fevers suggest pneumonia.
   - Continue Abx with Cefepime/Cipro.  Can narrow pending culture
   results.  Would switch to meropenem if worsening.
   - D/C Vanc as no GPC identified
   - attempt to diurese when HD available
   - Likely will need tracheostomy; consult IP today.
   - Tamiflu at renally adjusted treatment dose, 10 day course completed
   - combivent standing
   .
   # Anemia: Continues to trend down.  Transfused 1U on [**12-10**] and 1 U in
   [**12-11**].  [**Month (only) 51**] be [**2-6**] phlebotomy.  Given heparin gtt, can not r/o RP
   hematoma
   - CT abdomen if continues to trend down
   - Transfuse for Hct <21
   - Started Epo
   # Hypotension: Now off levophed.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   # Constipation: likely [**2-6**] opiod
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone
   # Acute renal failure: Volume up and Cr trending up off of CVVH.  No
   need for urgent dialysis today. Baseline Cr 1.1. [**Month (only) 51**] be ATN given
   hypotension vs. contrast induced nephropathy.  Started on CVVH. UOP has
   been increasing. Now off CVVH due to ? infected line
   - Restart CVVH
   - appreciate renal recs
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT. HIT negative,
   normal fibrinogen
   - restart heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   - heparin gtt
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   20 Gauge - [**2102-12-11**] 04:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-12-11 09:47:00 Physician Attending Progress Note
Chief Complaint: ARDS
   HPI:
    67yoM with ARDS thought secondary to H1N1.
   24 Hour Events:
   Tachycardic overnight with ST changes; resident discussed case with
   cardiology.  Started esmolol drip.  EKG changes subsequently resolved.
   Transfused two units PRBC for HCT trending downwards.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-10**] 04:11 PM
   Vancomycin
   Cipro 500mg q24h
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 250 mcg/hour
   Esmolol drip - held
   Other ICU medications:
   Midazolam (Versed) - [**2102-12-10**] 10:42 PM
   Fentanyl - [**2102-12-10**] 11:04 PM
   Other medications:
   Wellbutrin
   ASA
   Amiodarone
   Epo
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2102-12-11**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 86 (68 - 137) bpm
   BP: 109/51(69) {86/43(57) - 150/69(94)} mmHg
   RR: 33 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 11 (8 - 19)mmHg
   Total In:
                                                                  2,017 mL
                                                                    955 mL
   PO:
   TF:
                                                                    485 mL
   IVF:
                                                                    792 mL
                                                                    365 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    423 mL
                                                                    181 mL
   Urine:
                                                                    423 mL
                                                                    181 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.36/38/90
   Ve: 12.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: sedated, intubated
   Chest: clear ant/lat, diminished right base
   CV: irreg S1S2, no murmurs
   Abd: soft, NT, BS+
   Ext: minimal edema
   Labs / Radiology
   6.6 g/dL
   136 K/uL
   121 mg/dL
   4.0 mg/dL
   20 mEq/L
   5.5 mEq/L
   65 mg/dL
   105 mEq/L
   137 mEq/L
   22.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2102-12-9**]  05:14 PM
                             [**2102-12-10**]  04:16 AM
                             [**2102-12-10**]  04:24 AM
                             [**2102-12-10**]  11:09 AM
                             [**2102-12-10**]  02:34 PM
                             [**2102-12-10**]  09:00 PM
                             [**2102-12-10**]  11:19 PM
                             [**2102-12-11**]  03:44 AM
                             [**2102-12-11**]  03:55 AM
                             [**2102-12-11**]  07:25 AM
   WBC
   6.9
   7.2
   7.3
   Hct
   19.4
   21.4
   22.1
   20.5
   22.2
   Plt
   113
   134
   136
   Cr
   3.1
   4.0
   TropT
   1.74
   1.65
   TCO2
   25
   24
   22
   21
   22
   Glucose
   117
   121
   Other labs: PT / PTT / INR:13.7/66.2/1.2, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.6
   mg/dL
   Sputum: GNRs on gram-stain--pseudomonas
   Assessment and Plan
   67yoM with ARDS, thought secondary to H1N1.
   1. Respiratory Failure:  Worsened hypoxemia since yesterday (increased
   from 0.4 to 0.5).
   - Likely component of volume overload at this point.
   - Continue low tidal volume ventilation.
   - Consult IP regarding trach; team discussed with wife over weekend and
   she is agreeable.
   - Would do trial of PSV tomorrow
   2.  CV:  underlying CAD, periodic afib.
   - Needs ischemic work-up after recovery from his acute episode.
   - Esmolol drip as needed.
   3.  GI:  constipation/poor GI motility
   - methylnaltrexone
   - wean fentanyl as tolerates
   - bowel regimen
   - KUB
   4.  Anemia:  suspect critical illness/renal disease, blood loss with
   phlebotomy, other concerns would be RP bleed.
   - will continue to trend HCT; if continues to decrease, will consider
   non-contrast abd CT to eval for RP hematoma.
   - epo
   5. Renal:
   - temp line today, renal replacement today.
   6. ID: sputum +, likely new VAP
   - On cefipime and cipro. Pseudomonus is resistant to cipro. C/w
   cefepime monotherapy.
   - discontinue vancomycin with current culture data
   ICU Care
   Nutrition: Tube feeds held
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   20 Gauge - [**2102-12-11**] 04:00 AM
   Prophylaxis:
   DVT: heparin therapeutic (held for HD catheter)
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  will update family, discuss trach.
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT
   ------ Protected Section ------
   Addendum: 1 of 2 bottles positive for GPC pairs and chains. Will
   restart vancomycin pending culture results.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-11**] 18:24 ------

2102-12-12 10:50:00 Physician Attending Progress Note
Chief Complaint: ARDS
   HPI:
    67yoM with ARDS, thought secondary to H1N1, likely VAP and possible
   line infection with GPC bacteremia.
   24 Hour Events:
   Stable overnight.
   Seen by IP with plans for perc trach tomorrow.
   Restarted on CVVH yesterday.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-11**] 09:00 PM
   Cefipime - [**2102-12-12**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 250 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-12-12**] 01:34 AM
   Fentanyl - [**2102-12-12**] 01:34 AM
   Heparin therapeutic
   Other medications:
   Albuterol/atrovent
   ASA
   Biscodyl
   Colace
   Epo
   PPI
   Senna
   Simvastatin
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-12**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 79 (68 - 90) bpm
   BP: 108/51(66) {93/44(59) - 138/65(86)} mmHg
   RR: 30 (6 - 45) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 17 (9 - 22)mmHg
   Total In:
                                                                  2,131 mL
                                                                  1,325 mL
   PO:
   TF:
                                                                     75 mL
                                                                     65 mL
   IVF:
                                                                  1,286 mL
                                                                  1,130 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,017 mL
                                                                  2,356 mL
   Urine:
                                                                    558 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    114 mL
                                                                 -1,031 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/39/113/19
   Ve: 13.6 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen:
   Chest:
   CV:
   Abd:
   Ext:
   Labs / Radiology
   6.9 g/dL
   153 K/uL
   101 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.5 mEq/L
   55 mg/dL
   105 mEq/L
   141 mEq/L
   22.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2102-12-11**]  03:55 AM
                             [**2102-12-11**]  07:25 AM
                             [**2102-12-11**]  05:10 PM
                             [**2102-12-11**]  05:19 PM
                             [**2102-12-11**]  10:09 PM
                             [**2102-12-11**]  10:17 PM
                             [**2102-12-12**]  04:01 AM
                             [**2102-12-12**]  04:05 AM
                             [**2102-12-12**]  09:26 AM
                             [**2102-12-12**]  09:40 AM
   WBC
   6.0
   Hct
   22.2
   21.6
   21.4
   22.1
   Plt
   153
   Cr
   3.4
   3.1
   TCO2
   22
   22
   23
   26
   25
   Glucose
   107
   101
   Other labs: PT / PTT / INR:14.3/64.8/1.2, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:10.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Micro:
   Sputum: PsA sensitive to cefipime
   Bld: ([**12-11**]):
 botttles, GPCs in pairs and chains
   CXR: Increased bilteral interstitial opacities with bilateral basilar
   infiltrates
   Assessment and Plan
   67yoM with CAD/CABG; admitted with ARDS and hypoxemic respiratory.
   1.  Hypoxemic respiratory failure:  Now with PsA PNA, as well as
   gram-positive bacteremia
   - Treatment of VAP
   - Likely a component of volume overload as he was off renal replacement
   over past 2 days; will run TBB negative with goal CVP 8-10.
   - Decrease FiO2 to 0.4
   2.  GPC bacteremia:
   - line change
   - change to linezolid from vancomycin until sensitivities return
   3.  PsA PNA:
   - cefepime x 14 days
   4.  Renal
   - Goal TBB negative .5 to 1L on CVVH; or goal CVP 8-10
   5.  GI  constipation
   - methylnatlrexone
   -
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
 will discontinue and replace line
   today given bacteremia.
   20 Gauge - [**2102-12-11**] 04:00 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Prophylaxis:
   DVT: heparin therapeutic
   Stress ulcer:  PPI
   VAP:  HOB/mouthcare
   Communication:  Will update family.
   Code status: Full code
   Disposition :
   Total time spent:

2102-12-12 13:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-12-11**] 01:00 PM
   Got new HD line in L subclavian
   Seen by IP and plan for trach and PEG to be done at noon tomorrow.
   Heparin to be held at 4AM and DDAVP prior
   Had large bowel movement in IR
   TFs turned off for high residuals
   Heparin stopped for possible procedure teusday
   Had more episodes of bradycardia, this time with aflutter and high
   ratio.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-11**] 09:00 PM
   Cefipime - [**2102-12-12**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,600 units/hour
   Fentanyl - 250 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Fentanyl - [**2102-12-12**] 01:34 AM
   Midazolam (Versed) - [**2102-12-12**] 01:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-12**] 12:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 85 (68 - 90) bpm
   BP: 99/53(67) {93/44(59) - 138/64(86)} mmHg
   RR: 30 (6 - 45) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 22 (9 - 22)mmHg
   Total In:
                                                                  2,131 mL
                                                                  1,547 mL
   PO:
   TF:
                                                                     75 mL
                                                                     65 mL
   IVF:
                                                                  1,286 mL
                                                                  1,352 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,017 mL
                                                                  2,504 mL
   Urine:
                                                                    558 mL
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    114 mL
                                                                   -957 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/39/113/23/0
   Ve: 13 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen: Sedated on the vent, non responsive
   Heart:  Regular, bradycardic, No MRG but distant heart sounds
   Lungs: Expiratory wheezes diffusely
   Abd: Soft, NT, ND, BS+
   Ext: No LE edema
   Labs / Radiology
   153 K/uL
   6.9 g/dL
   92 mg/dL
   2.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   46 mg/dL
   103 mEq/L
   138 mEq/L
   22.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2102-12-11**]  03:55 AM
                             [**2102-12-11**]  07:25 AM
                             [**2102-12-11**]  05:10 PM
                             [**2102-12-11**]  05:19 PM
                             [**2102-12-11**]  10:09 PM
                             [**2102-12-11**]  10:17 PM
                             [**2102-12-12**]  04:01 AM
                             [**2102-12-12**]  04:05 AM
                             [**2102-12-12**]  09:26 AM
                             [**2102-12-12**]  09:40 AM
   WBC
   6.0
   Hct
   22.2
   21.6
   21.4
   22.1
   Plt
   153
   Cr
   3.4
   3.1
   2.5
   TCO2
   22
   22
   23
   26
   25
   Glucose
   107
   101
   92
   Other labs: PT / PTT / INR:14.3/64.8/1.2, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Hypoxemic respiratory failure:  Positive sputum culture and fevers
   suggest pneumonia, superimposed on likely flu related ARDS.
   - Cefepime for 14 day course from [**12-8**]
   - attempt to diurese 1-2L/day
   - Trachostomy to be done tomorrow.  Hold Heparin at 4AM, needs DDAVP
   - Tamiflu 10 day course completed
   - combivent standing
   # GPC bacteremia; developed on Vanc.  Contaminant vs. VRE bacteremia.
   - change lines
   - Linazolid in place of vanc
   - follow speciation, may need TEE
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Stable today.  Transfused 1U on [**12-10**] and 1 U in [**12-11**].  [**Month (only) 51**] be
   [**2-6**] phlebotomy.  Given heparin gtt, can not r/o RP hematoma
   - CT abdomen if continues to trend down
   - Transfuse for Hct <21
   - Started Epo
   # Hypotension: Now off levophed.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   # Constipation: likely [**2-6**] opiod.  Resolved with Methylnaltrexone
   - continue colace/senna/miralax/bisacodyl
   - repear Methylnaltrexone if worse
   # Acute renal failure: Volume up and Cr trending up off of CVVH.
   Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension vs. contrast induced
   nephropathy.  Started on CVVH. UOP has been increasing.
   - Restart CVVH
   - appreciate renal recs
   # Thrombocytopenia: trending down.  Likely [**2-6**] CRRT. HIT negative,
   normal fibrinogen
   - restart heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   - heparin gtt
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-11-29**] 05:00 PM
   20 Gauge - [**2102-12-11**] 04:00 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-12-13 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2102-12-12**] 05:18 PM
 MULTI LUMEN - START [**2102-12-12**] 06:12 PM
   VRE isolated from blood on [**12-11**], started on linezolid, stopped vanc
   Replaced RIJ CVL
   Trach and peg planned for [**12-13**], heparin will be held and DDAVP will be
   given in am
   CVVH crashed in the evening, renal just said they'll consider HD in am
   BUT....
   Hypotensive to 70s/40s around 10pm, not fluid responsive, restarted on
   levophed.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-11**] 09:00 PM
   Cefipime - [**2102-12-12**] 08:28 PM
   Linezolid - [**2102-12-13**] 12:36 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 70 (70 - 99) bpm
   BP: 130/53(77) {78/40(53) - 144/66(90)} mmHg
   RR: 30 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 16 (12 - 22)mmHg
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  3,251 mL
                                                                    548 mL
   PO:
   TF:
                                                                    148 mL
                                                                      9 mL
   IVF:
                                                                  2,973 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  3,912 mL
                                                                    125 mL
   Urine:
                                                                    211 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -661 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/38/122/23/1
   Ve: 13.2 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Gen: Sedated on the vent, non responsive
   Heart:  Regular, bradycardic, No MRG but distant heart sounds
   Lungs: Expiratory wheezes diffusely
   Abd: Soft, NT, ND, BS+
   Ext: No LE edema
   Labs / Radiology
   159 K/uL
   6.8 g/dL
   106 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   48 mg/dL
   101 mEq/L
   135 mEq/L
   21.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-12-11**]  10:09 PM
                             [**2102-12-11**]  10:17 PM
                             [**2102-12-12**]  04:01 AM
                             [**2102-12-12**]  04:05 AM
                             [**2102-12-12**]  09:26 AM
                             [**2102-12-12**]  09:40 AM
                             [**2102-12-12**]  03:33 PM
                             [**2102-12-12**]  03:55 PM
                             [**2102-12-12**]  09:41 PM
                             [**2102-12-13**]  01:38 AM
   WBC
   6.0
   6.5
   Hct
   21.4
   22.1
   21.1
   Plt
   153
   159
   Cr
   3.4
   3.1
   2.5
   2.4
   2.8
   TCO2
   23
   26
   25
   25
   26
   Glucose
   107
   101
   92
   89
   106
   Other labs: PT / PTT / INR:14.8/53.5/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Hypotension: Likely septic shock from pseudomonas pneumonia and VRE
   bacteremia.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   - levophed to MAP > 60
   # Hypoxemic respiratory failure:  Positive sputum culture and fevers
   suggest pneumonia, superimposed on likely flu related ARDS. Tamiflu 10
   day course completed
   - Cefepime for 14 day course from [**12-8**]
   - attempt to diurese 1-2L/day
   - Trachostomy to be done today.  Hold Heparin at 4AM, needs DDAVP
   - combivent standing
   # VRE bacteremia: Likely [**2-6**] line infection.  Right IJ changed  on [**12-8**] need to change CVVH line as was in for 24 hours prior to
   linazolid if persistent culture positive.
   - daily cultures
   - Linazolid 2 week course from [**12-12**]
   - TEE once stable
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Stable today.  Transfused 1U on [**12-10**] and 1 U in [**12-11**].  [**Month (only) 51**] be
   [**2-6**] phlebotomy.  Given heparin gtt, can not r/o RP hematoma
   - CT abdomen if continues to trend down
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved with Methylnaltrexone
   - continue colace/senna/miralax/bisacodyl
   - repear Methylnaltrexone if worsening
   # Acute renal failure: Volume up and Cr trending up off of CVVH.
   Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension vs. contrast induced
   nephropathy.  Started on CVVH. UOP has been increasing.
   - continue CVVH
   - appreciate renal recs
   # Thrombocytopenia: stable.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   - restart heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   - heparin gtt
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-12-13 09:38:00 Physician Attending Progress Note
Chief Complaint: ARDS
   HPI:
   67yoM with ARDS likely H1N1 (unconfirmed).
   24 Hour Events:
   Hypotensive with SBP to 70's overnight; restarted on levophed after did
   not improve to fluid bolus.
   VRE bacteremia confirmed yesterday; central line changed.
   HD catheter clotted off 2x yesterday
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-13**] 12:36 AM
   Cefipime - [**2102-12-13**] 08:23 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Heparin - held
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-13**] 08:23 AM
   Other medications:
   Wellbutrin
   ASA
   Colace
   Simvastatin
   Albuterol/atrovent
   Epo
   Amiodarone PO
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-13**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 71 (70 - 99) bpm
   BP: 127/53(76) {78/40(53) - 144/66(90)} mmHg
   RR: 30 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 15 (12 - 22)mmHg
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  3,251 mL
                                                                    715 mL
   PO:
   TF:
                                                                    148 mL
                                                                      9 mL
   IVF:
                                                                  2,973 mL
                                                                    646 mL
   Blood products:
   Total out:
                                                                  3,912 mL
                                                                    170 mL
   Urine:
                                                                    211 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -661 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 25.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/38/122/23/1
   Ve: 13 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.8 g/dL
   159 K/uL
   106 mg/dL
   2.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   48 mg/dL
   101 mEq/L
   135 mEq/L
   21.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-12-11**]  10:09 PM
                             [**2102-12-11**]  10:17 PM
                             [**2102-12-12**]  04:01 AM
                             [**2102-12-12**]  04:05 AM
                             [**2102-12-12**]  09:26 AM
                             [**2102-12-12**]  09:40 AM
                             [**2102-12-12**]  03:33 PM
                             [**2102-12-12**]  03:55 PM
                             [**2102-12-12**]  09:41 PM
                             [**2102-12-13**]  01:38 AM
   WBC
   6.0
   6.5
   Hct
   21.4
   22.1
   21.1
   Plt
   153
   159
   Cr
   3.4
   3.1
   2.5
   2.4
   2.8
   TCO2
   23
   26
   25
   25
   26
   Glucose
   107
   101
   92
   89
   106
   Other labs: PT / PTT / INR:14.8/53.5/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Lactate 0.8
   Micro:  Sputum: PsA, Blood: VRE
   CXR: relatively unchanged, more focal consolidation in RUL/RLL
   Assessment and Plan
   67yoM with ARDS thought secondary to H1N1 (unconfirmed); course now
   complicated by VRE bacteremia and PsA PNA.
   1.       Hypoxemic respiratory failure:  ARDS, volume overload, PsA PNA
   -  Keep TBB even to slightly negative today given possible active
   sepsis
   -  Treatment of infectious process
   -  Trial of PSV, can wean FiO2 after trach and wean sedation
   2.       Shock:  Back on levophed, CVP > 15 and was not fluid
   responsive.  Pressors weaning down.  Suspect sepsis in setting of line
   infection.
   - continue to wean levophed as tolerates
   - Continue antibiotics
   - repeat CvO2
   3.       PsA PNA - continue cefipime x 14 days
   4.       VRE Bacteremia:  Likely line source, Linezolid, s/p line
   change
   5.       CV: afib, h/o CAD
   - continue Amiodarone, restart heparin
   6.       GI: methylnaltrexone
   7.       Neuro: wean narcotics after trach
   8 Renal:  CVVH currently down; will restart and aim TBB even
   ICU Care
   Nutrition: Tube feeds held for trach/peg
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin held
   Stress ulcer:  PPI
   VAP:  HOB/mouthcare; holding daily awakening/SBT because of trach
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent: 35 minutes CCT

2102-12-14 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2102-12-13**] 01:00 PM
   Off pressors.  Trach placed.  Had mediastinal free air that resolved on
   repeat CXR.  IP aware NTD.  PEG aborted [**2-6**] feculent material in
   stomach.  Started on intermittant suction overnight with minimal
   output.  KUB with mild obstruction.  wouuld consider methylnatrexone,
   neostigmine, emycin, or metoclopromide if stool output decreases.
   Restarted CCVH at 100 cc/hr.
   A-line was looking red.
   RSBI 260 with desat.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-12-11**] 09:00 PM
   Cefipime - [**2102-12-13**] 09:01 PM
   Linezolid - [**2102-12-14**] 12:27 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,750 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-13**] 08:23 AM
   Propofol - [**2102-12-13**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-14**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 68 (65 - 77) bpm
   BP: 128/53(75) {106/44(63) - 151/63(90)} mmHg
   RR: 0 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 11 (11 - 29)mmHg
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                  2,516 mL
                                                                  1,246 mL
   PO:
   TF:
                                                                      9 mL
   IVF:
                                                                  2,447 mL
                                                                  1,117 mL
   Blood products:
                                                                    129 mL
   Total out:
                                                                  1,894 mL
                                                                  1,796 mL
   Urine:
                                                                    367 mL
                                                                    100 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    622 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 282
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.34/38/74/21/-4
   Ve: 13.4 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   6.7 g/dL
   89 mg/dL
   2.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   41 mg/dL
   104 mEq/L
   134 mEq/L
   20.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2102-12-12**]  03:55 PM
                             [**2102-12-12**]  09:41 PM
                             [**2102-12-13**]  01:38 AM
                             [**2102-12-13**]  02:43 PM
                             [**2102-12-13**]  03:12 PM
                             [**2102-12-13**]  07:07 PM
                             [**2102-12-13**]  09:01 PM
                             [**2102-12-13**]  09:09 PM
                            [**2102-12-14**]  02:58 AM
                            [**2102-12-14**]  03:13 AM
   WBC
   6.5
   5.4
   5.6
   Hct
   21.1
   21.3
   20.6
   Plt
   159
   157
   188
   Cr
   2.8
   3.2
   2.9
   2.5
   TCO2
   25
   26
   25
   21
   24
   21
   Glucose
   106
   113
   101
   89
   Other labs: PT / PTT / INR:14.5/82.7/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Hypotension: Likely septic shock from pseudomonas pneumonia and VRE
   bacteremia.
   - will try to keep CVPs greater than 8 to ensure preload for the RV
   failure
   - levophed to MAP > 60
   # Hypoxemic respiratory failure:  Positive sputum culture and fevers
   suggest pneumonia, superimposed on likely flu related ARDS. Tamiflu 10
   day course completed
   - Cefepime for 14 day course from [**12-8**]
   - attempt to diurese 1-2L/day
   - Trachostomy to be done today.  Hold Heparin at 4AM, needs DDAVP
   - combivent standing
   # VRE bacteremia: Likely [**2-6**] line infection.  Right IJ changed  on [**12-8**] need to change CVVH line as was in for 24 hours prior to
   linazolid if persistent culture positive.
   - daily cultures
   - Linazolid 2 week course from [**12-12**]
   - TEE once stable
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Stable today.  Transfused 1U on [**12-10**] and 1 U in [**12-11**].  [**Month (only) 51**] be
   [**2-6**] phlebotomy.  Given heparin gtt, can not r/o RP hematoma
   - CT abdomen if continues to trend down
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved with Methylnaltrexone
   - continue colace/senna/miralax/bisacodyl
   - repear Methylnaltrexone if worsening
   # Acute renal failure: Volume up and Cr trending up off of CVVH.
   Baseline Cr 1.1. [**Month (only) 51**] be ATN given hypotension vs. contrast induced
   nephropathy.  Started on CVVH. UOP has been increasing.
   - continue CVVH
   - appreciate renal recs
   # Thrombocytopenia: stable.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   - restart heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin and
   amiodarone. Consider restarting if more flutter
   - heparin gtt
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-10**] 01:31 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-12-14 10:41:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS thought secondary to H1N1; now s/p trach for prolonged
   respiratory failure.
   24 Hour Events:
   Percutaneous trach yesterday; c/b by transient mediastinal free air
   that resolved on repeat CXR.
   Unable to place PEG because of feculent material in stomach.  NGT to
   suction overnight with some output.
   KUB demonstrated mild obstruction.
   Off pressors now; getting PRBC for slight decrease in HCT.
   Unable to administer PO medications secondary to NGT output.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-14**] 12:27 AM
   Cefipime - [**2102-12-14**] 07:15 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,750 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-14**] 07:15 AM
   Other medications:
   Wellbutrin
   ASA 325mg daily
   Colace
   Simvastatin
   Albuterol
   Atrovent
   Amiodarone 400mg daily
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-14**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 70 (65 - 77) bpm
   BP: 100/47(63) {100/44(63) - 151/63(90)} mmHg
   RR: 11 (0 - 32) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.2 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 19 (11 - 29)mmHg
   Total In:
                                                                  2,516 mL
                                                                  2,032 mL
   PO:
   TF:
                                                                      9 mL
   IVF:
                                                                  2,447 mL
                                                                  1,682 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,894 mL
                                                                  2,542 mL
   Urine:
                                                                    367 mL
                                                                    136 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    622 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 513 (513 - 513) mL
   PS : 12 cmH2O
   RR (Set): 30
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 282
   PIP: 21 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.30/41/106/18/-5
   Ve: 7.6 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Gen: somnolent, does not respond to commands or external stimuli
   Chest: clear anteriorly
   CV: IR/IR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   6.7 g/dL
   188 K/uL
   89 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.5 mEq/L
   35 mg/dL
   105 mEq/L
   135 mEq/L
   20.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2102-12-13**]  01:38 AM
                             [**2102-12-13**]  02:43 PM
                             [**2102-12-13**]  03:12 PM
                             [**2102-12-13**]  07:07 PM
                             [**2102-12-13**]  09:01 PM
                             [**2102-12-13**]  09:09 PM
                            [**2102-12-14**]  02:58 AM
                            [**2102-12-14**]  03:13 AM
                            [**2102-12-14**]  08:56 AM
                            [**2102-12-14**]  09:00 AM
   WBC
   6.5
   5.4
   5.6
   Hct
   21.1
   21.3
   20.6
   Plt
   159
   157
   188
   Cr
   2.8
   3.2
   2.9
   2.5
   2.2
   TCO2
   25
   21
   24
   21
   21
   Glucose
   106
   113
   101
   89
   89
   Other labs: PT / PTT / INR:14.6/73.5/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.6,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:282 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3
   mg/dL
   Micro: no new data
   CXR:  Resolved pneumomediastinum; stable bilateral infiltrates,
   pulmonary edema.
   Assessment and Plan
   67M with ARDS thought secondary to H1N1; course complicated by VAP, VRE
   bacteremia from line infection; now s/p trach.
   1.       Respiratory failure.  s/p trach yesterday.  Remains hypoxemia
   with FiO2 .5; however, suspect component both of his resolving VAP and
   volume overload.
   - continue to run CVVH negative by 100ml/hr; CVP goal [**8-14**]
   - Wean FiO2 today
   - Sedation as below
   2.       PsA PNA
   - cefipime x 16days for PsA VAP
   3.       VRE:
   - continue linezolid x 14 days for bacteremia
   - Once afebrile/assure surveillance cultures
   4.       Neuro:
   - discontinue versed; assess mental status and consider haldol for
   agitation/anxiety/delirium
   - Wean fentanyl today; prefer bolus of IV narcotics prn for pain
   5.       Ileus/partial SBO:  demonstrated by increased NGT output
   - continue NGT to suction and monitor output.
   - methlynaltrexone; decreasing narcotics.
   - Avoid kaxyelate in setting of ileus/partial obstruction as increased
   risk of perforation.
   6.        Renal:
   - CVVH negative today.  If BP remains stable and overall improving,
   will discuss possible switch to HD.
   - suspect increased metabolic acidosis/AG secondary to CVVH change
   yesterday.  Lactate negative.
   ICU Care
   Nutrition: Currently NPO with partial SBO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-12-15 10:58:00 Physician Attending Progress Note
Chief Complaint:
   ARDS
   HPI:
   67yom with ARDS, thought secondary to unconfirmed H1N1.
   24 Hour Events:
   Increased abdominal distention with decreased stool so obtained
   abdominal CT without obstruction but did demonstrate RUL PNA and
   pulmonary edema.  Required propofol overnight because of increased work
   of breathing and switched back to controlled ventilation. This AM, back
   on PSV and off propofol.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-15**] 01:00 AM
   Cefipime - [**2102-12-15**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 300 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-12-14**] 04:00 PM
   Other medications:
   Haldol
   ASA
   Chlorhexadine
   Simvastatin
   Amiodarone
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No change
   Flowsheet Data as of  [**2102-12-15**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 72 (63 - 97) bpm
   BP: 144/60(83) {107/45(64) - 161/71(101)} mmHg
   RR: 17 (3 - 25) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 18 (7 - 25)mmHg
   Bladder pressure: 14 (14 - 28) mmHg
   Total In:
                                                                  4,232 mL
                                                                  2,490 mL
   PO:
   TF:
   IVF:
                                                                  3,882 mL
                                                                  1,980 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  7,541 mL
                                                                  2,853 mL
   Urine:
                                                                    234 mL
                                                                     35 mL
   NG:
                                                                    675 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,309 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 657 (657 - 798) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.40/39/102/20/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Gen: Somnolent, does not follow commands
   Chest: wheeze, rhonchorous
   CV: IR/IR
   Abd: s/nt/nd
   Ext:  minimal LE edema
   Labs / Radiology
   7.3 g/dL
   193 K/uL
   87 mg/dL
   1.9 mg/dL
   20 mEq/L
   3.5 mEq/L
   23 mg/dL
   99 mEq/L
   133 mEq/L
   23.0 %
   5.3 K/uL
        [image002.jpg]
                            [**2102-12-14**]  03:13 AM
                            [**2102-12-14**]  08:56 AM
                            [**2102-12-14**]  09:00 AM
                            [**2102-12-14**]  02:32 PM
                            [**2102-12-14**]  02:45 PM
                            [**2102-12-14**]  08:44 PM
                            [**2102-12-14**]  09:07 PM
                            [**2102-12-15**]  04:34 AM
                            [**2102-12-15**]  04:50 AM
                            [**2102-12-15**]  10:12 AM
   WBC
   5.3
   Hct
   23.3
   23.0
   Plt
   193
   Cr
   2.2
   2.0
   1.9
   TCO2
   21
   21
   21
   24
   25
   25
   Glucose
   89
   106
   96
   87
   Other labs: PT / PTT / INR:15.7/118.4/1.4, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0
   mg/dL
   Micro: surveillance cultures: no growth
   Sputum: PsA
   Assessment and Plan
   67M with ARDS thought secondary to H1N1; course complicated by PsA VAP
   and VRE bacteremia; now s/p trach.
   1.       Respiratory failure:  barriers to breathing spontaneously
   include VAP, volume overload, increased airways resistance and
   persistent encephalopathy with significant sedation.
   - Continue to diurese aggressively with CVVH
   - Bronchodilators
   - fluticasone inhaled
   - Likely increase his PEEP in response to
rounding-up
 on exam, can
   increase support if needed
   2.       Neuro:  Likely delirium as well as respiratory distress
   secondary to bronchospasm and volume as above
   - haldol 2.5mg q6h standing and prn; titrate upwards as needed
   - start fentanyl patch 100mcg daily; wean fentanyl drip
   - Will avoid propofol and benzos
   3.       PsA PNA:
   - Cefipime x 16days
   4.       VRE bacteremia:
   - Linezolid x 14day
   5.       Renal:
   - Currently on CVVH; will discuss with renal regarding transition to
   intermittent HD.
   6.       CV:
   - evaluate with cath/ischemic evaluation in future when improved from
   pulmonary perspective
   7.       GI:  ileus/partial obstruction
   - need to minimize narcotics; continue methylnaltrexone
   - NGT output has improved remarkable; continue bowel regimen
   - trophic feeds
   ICU Care
   Nutrition: Trophic feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer:  PPI
   VAP: HOB/mouthcare
   Communication:  Will update his wife today
   [**Name2 (NI) 36**] status: Full code
   Disposition : Critically ill, ICU
   Total time spent: 30 minutes CCT

2102-12-16 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2102-12-16**] 12:00 AM
   Increased agitation this am (HTN) with increased wheezing, started
   fluticasone, increased MDI freq., started standing haldol.
   Weening fentanyl gtt, started fentanyl patch and standing tylenol.
   Temp of 99.3 at 2:30pmg on CVVH, asked for cultures off HD and CVL,
   then later spiked to 101.2 but already had been cultured
   Restarted coumadin at 3mg (lower than previous [**2-6**] amio) but then held
   due to likely needing PEG next week.
   BM output slowed down, gave another dose of methynaltrexone
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-15**] 08:00 PM
   Linezolid - [**2102-12-16**] 12:08 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,600 units/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2102-12-16**] 12:30 AM
   Haloperidol (Haldol) - [**2102-12-16**] 02:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 100 (70 - 141) bpm
   BP: 129/59(79) {94/53(70) - 174/89(115)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 11 (11 - 23)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  4,388 mL
                                                                  1,152 mL
   PO:
   TF:
                                                                    110 mL
                                                                    137 mL
   IVF:
                                                                  3,708 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                  7,563 mL
                                                                  2,553 mL
   Urine:
                                                                    106 mL
                                                                     42 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,175 mL
                                                                 -1,401 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 857 (620 - 857) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/39/87.[**Numeric Identifier 181**]/22/0
   Ve: 22 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   7.8 g/dL
   114 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   15 mg/dL
   97 mEq/L
   133 mEq/L
   24.4 %
   6.8 K/uL
        [image002.jpg]
                            [**2102-12-15**]  04:34 AM
                            [**2102-12-15**]  04:50 AM
                            [**2102-12-15**]  10:07 AM
                            [**2102-12-15**]  10:12 AM
                            [**2102-12-15**]  04:34 PM
                            [**2102-12-15**]  05:09 PM
                            [**2102-12-15**]  10:07 PM
                            [**2102-12-15**]  10:12 PM
                            [**2102-12-16**]  04:05 AM
                            [**2102-12-16**]  04:10 AM
   WBC
   5.3
   6.8
   Hct
   23.0
   24.4
   Plt
   193
   214
   Cr
   1.9
   1.7
   1.6
   1.7
   1.7
   TCO2
   25
   25
   26
   25
   26
   Glucose
   87
   88
   109
   101
   114
   Other labs: PT / PTT / INR:15.0/66.7/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.0
   mg/dL
   Microbiology: No new growth
   Assessment and Plan
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Fevers: Patient with fever on CVVH and Linazolid/Cefepime.  Possible
   causes include persistent line infection, viral, ESBL bacteria, fungal,
   drug fever.  Currently, stable and off pressors.
   - follow blood, urine cultures
   - consider meropenem if decompensating
   - may need CVVH line change.
   # Hypotension: Possibly septic, but hypotension resolved and afebrile
   o/n w/o leukocytosis, surveillance cultures negative, off pressors
   currently. If develops hypotension again will start running CVVH even
   and give some fluid back.
   # Hypoxemic respiratory failure: Likely [**2-6**] influenza initially, now
   likely VAP possibly some fluid overload. Now s/p trach.  Patient with
   agitation on vent.
   - on standing haldol, Fentanyl patch and IV bolus; weaning off gtt
   - follow EKG with haldol
   - Increased wheezing likely contributing to agitation, increase
   broncodilators and start Inh fluticasone; combivent standing
   - Cefepime for 16 day course from [**12-8**]
   - continue diuresis to dry weight 80 kg  (-100cc/hr and CVP >7)
   # VRE bacteremia: Likely [**2-6**] line infection.  Right IJ changed on [**12-12**],
   catheter tip culture negative. Cultures from HD line pending
   - f/u cultures from CVVH line.
   - may need to change CVVH line as was in for 24 hours prior to
   linazolid if persistent culture positive.
   - Hold daily cultures as has been negative for past 2 days.
   - Linazolid 2 week course from [**12-12**]
   - Consider TEE once stable
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Very low retic count, likely BM suppression from influenza
   and critical illness
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved initially with
   Methylnaltrexone, now slowing down but minimal residuals from NG
   suction
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone Q48 hr as needed
   - restart trophic tube feeds and PO meds today, advance TF as tolerated
   # Acute renal failure: Unable to go off CVVH as Cr rises after d/c
   - continue CVVH
   - appreciate renal recs
   # Thrombocytopenia: Improving.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   -  heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt
   -Restart coumadin today
   - Amiodarone
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-15**] 01:03 PM 20 mL/hour
   Glycemic Control:  Insulin ss
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  bundle
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-12-16 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the Dr.
   [**Last Name (STitle) 12106**] for key portions of the services provided.  I agree with his
   / her note above, including assessment and plan.
   HPI:
   67 y o man with diastolic HF, COPD, AF, CAD s/p CABG, now with ARDS [**2-6**]
   suspected H1N1, c/b ARF, VAP, and bacteremia.
   24 Hour Events:
   1. FEVER - 101.2
F - [**2102-12-16**] 12:00 AM: recultured
   2. Increased agitation yesterday, started on [**Doctor First Name 12103**]
   3. Wheezing: started on fluticasone, MDI frequency increased
   4. Ileus: got one more dose of methylnaltrexone
   5. Running neg on CVVH, adm weight 80, yest 87 kg
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-15**] 08:00 PM
   Linezolid - [**2102-12-16**] 12:08 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Fentanyl - [**2102-12-16**] 12:30 AM
   Haloperidol (Haldol) - [**2102-12-16**] 02:04 AM
   Other medications:
   Pantoprazole
   ASA
   Chlorhexidine
   Simvastatin
   Albuterol
   Heparin gtt
   Epogen
   Amiodarone PNGT
   Haldol IV 2.5 QID standing
   Fentanyl patch at 100 mcg
   Fluticasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-16**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 100 (70 - 141) bpm
   BP: 129/59(79) {94/53(70) - 174/89(115)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 7 (7 - 23)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
                                Total In:
                                                                  4,388 mL
                                                                  1,216 mL
   PO:
                                TF:
                                                                    110 mL
                                                                    150 mL
   IVF:
                                                                  3,708 mL
                                                                    946 mL
   Blood products:
   Total out:
                                                                  7,563 mL
                                                                  2,553 mL
   Urine:
                                                                    106 mL
                                                                     42 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,175 mL
                                                                 -1,337 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV ([**5-9**], 50%)
   Vt (Spontaneous): 857 (620 - 857) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/39/87.[**Numeric Identifier 181**]/22/0
   Ve: 22 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Gen: intubated, sedated
   Chest: diffuse expiratory wheezes, scattered rhonchi
   CV: regular, no murmurs
   Abd: distended, no BS appreciated
   Extr: warm, no edema, boots on B
   Neuro: spontaneous grimaces, does not respond to commands
   Labs / Radiology
   7.8 g/dL
   214 K/uL
   114 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   15 mg/dL
   97 mEq/L
   133 mEq/L
   24.4 %
   6.8 K/uL
        [image002.jpg]
                            [**2102-12-15**]  04:34 AM
                            [**2102-12-15**]  04:50 AM
                            [**2102-12-15**]  10:07 AM
                            [**2102-12-15**]  10:12 AM
                            [**2102-12-15**]  04:34 PM
                            [**2102-12-15**]  05:09 PM
                            [**2102-12-15**]  10:07 PM
                            [**2102-12-15**]  10:12 PM
                            [**2102-12-16**]  04:05 AM
                            [**2102-12-16**]  04:10 AM
   WBC
   5.3
   6.8
   Hct
   23.0
   24.4
   Plt
   193
   214
   Cr
   1.9
   1.7
   1.6
   1.7
   1.7
   TCO2
   25
   25
   26
   25
   26
   Glucose
   87
   88
   109
   101
   114
   Other labs: PT / PTT / INR:15.0/66.7/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.0
   mg/dL
   Micro:
   Last + blood cx: [**12-11**] with enterococcus
   All blood cultures since then no growth so far
   Assessment and Plan
   67M with ARDS thought secondary to H1N1; course complicated by PsA VAP
   and VRE bacteremia; now s/p trach.
   1. Fever: has been low-grade until midnight, now with fever to 101.2.
   Blood cultures negative since [**12-11**], when he grew enterococcus.  Also
   with PSA in sputum.  CXR without a clear new infiltrate.
   Hemodynamically stable off pressors.
   - continue same abx for now: linezolid, cefepime
   - repeat UA, urine culture, sputum culture
   - check c. diff
   - monitor hemodynamics; if hypotensive, will likely need to d/c CVVH
   line since it was placed on [**12-11**]
   2. Respiratory failure:  barriers to breathing spontaneously include
   VAP, volume overload, increased airways resistance and persistent
   encephalopathy with significant sedation.  Net negative over 3 L since
   yesterday, pressures tolerating volume removal. CVP 7 this morning
   (range 7-23)
   - Decrease goal CVVH rate: neg 100/ hour
   - Continue bronchodilators, fluticasone inhaled
   - Likely increase his PEEP in response to
rounding-up
 on exam, can
   increase support if needed
   3. Neuro:  Likely delirium as well as respiratory distress secondary to
   bronchospasm and volume as above
   - haldol 2.5mg q6h standing and prn; titrate upwards as needed
   - started fentanyl patch 100mcg daily yesterday
   - wean fentanyl gtt by half today: to 50 mcg/hour
   - avoid propofol and benzos
   4. PsA PNA:
   - Cefipime x 16days, starting on [**12-8**]
   5. VRE bacteremia:
   - Linezolid x 14day
   6. Renal:
   - Currently on CVVH; will discuss with renal regarding transition to
   intermittent HD.
   - CVVH line may need to come out given new fever (as above)
   7. CV:
   - evaluate with cath/ischemic evaluation in future when improved from
   pulmonary perspective
   8. GI:  ileus/partial obstruction, responds to methylnaltrexone
   - need to minimize narcotics; continue methylnaltrexone
   - trophic feeds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-15**] 01:03 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevated, Abx for VAP
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min CCT

2102-12-17 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued to be febrile.  CVVH continued until mildly hypotensive at 10
   PM,  gave 250 cc back x 2.  Was briefly on neo.  CVP 1012 at time.
   Fentany decreased to 50
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-16**] 08:00 PM
   Linezolid - [**2102-12-17**] 12:00 AM
   Metronidazole - [**2102-12-17**] 04:01 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Fentanyl - 80 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2102-12-16**] 08:26 PM
   Lorazepam (Ativan) - [**2102-12-16**] 09:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-17**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.4
   HR: 74 (69 - 124) bpm
   BP: 111/48(67) {79/48(60) - 151/70(94)} mmHg
   RR: 19 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 80.4 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 16 (7 - 19)mmHg
   Total In:
                                                                  4,334 mL
                                                                  1,606 mL
   PO:
   TF:
                                                                    659 mL
                                                                    281 mL
   IVF:
                                                                  3,336 mL
                                                                  1,204 mL
   Blood products:
   Total out:
                                                                  6,698 mL
                                                                  1,296 mL
   Urine:
                                                                    110 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,364 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (701 - 840) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.42/41/90.[**Numeric Identifier 126**]/24/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: Sedated on vent, responds to painful stimuli
   Heart: Irregularly irregular, No MRG
   Lungs: Diffuse rhoncorous breath sounds
   Abd: soft but rounds up with expiration, BS+, ND
   Ext: Trace LE edema, dusky patches on R lateral foot and 5^th toe as
   well as L heel.
   Labs / Radiology
   235 K/uL
   7.7 g/dL
   114 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   16 mg/dL
   97 mEq/L
   132 mEq/L
   23.1 %
   5.9 K/uL
        [image002.jpg]
                            [**2102-12-15**]  10:12 PM
                            [**2102-12-16**]  04:05 AM
                            [**2102-12-16**]  04:10 AM
                            [**2102-12-16**]  11:58 AM
                            [**2102-12-16**]  05:14 PM
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
   WBC
   6.8
   5.9
   Hct
   24.4
   23.1
   Plt
   214
   235
   Cr
   1.7
   1.8
   1.5
   3.0
   TCO2
   25
   26
   27
   27
   28
   Glucose
   114
   131
   131
   103
   114
   Other labs: PT / PTT / INR:15.2/83.9/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.5
   mg/dL
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Fevers: Continues to spike fevers but blood cultures have remained
   negative, unlikely to be line infection but will pull HD line. Could be
   from NMS w/ haldol given rigidity vs. Fentanyl vs. buproprion causing
   serotonin syndrome w/ linezolid.  bacteria, fungal, drug fever.
   Currently, stable and off pressors.
   - follow blood, urine cultures
   - consider meropenem if decompensating
   - Pull CVVH line and send tip for culture.
   # Hypotension: Has been normotensive recently, plan is to run CVVH
   until he drops his pressure and then give some fluid back if necessary.
   # Hypoxemic respiratory failure: Biggest problem with weaning currently
   is mental status. Pt. gets agitated w/ withdrawl of sedation. Will
   likely need to be switched from Fentanyl to dilaudid and then weaned
   down. Pt. will need to be uncomfortable and agitated for some period of
   time while the sedation is weaned but may consider pressedex for a
   brief period while weaning opiates.
   - D/c haldol and fentanyl
   - Increased wheezing likely contributing to agitation, increase
   broncodilators and start Inh fluticasone; combivent standing
   - Cefepime for 16 day course from [**12-8**]
   - Stop CVVH today and remove dialysis line as appears more euvolemic
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.
   - f/u cultures from CVVH line.
   - Pull CVVH line
   - Hold daily cultures as has been negative for past 2 days.
   - Linazolid 2 week course from [**12-12**]
   - Consider TEE once stable
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Very low retic count, likely BM suppression from influenza
   and critical illness
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved initially with
   Methylnaltrexone, now slowing down but minimal residuals from NG
   suction
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone Q48 hr as needed
   - restart trophic tube feeds and PO meds today, advance TF as tolerated
   # Acute renal failure: Unable to go off CVVH as Cr rises after d/c
   - continue CVVH
   - appreciate renal recs
   # Thrombocytopenia: Improving.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   -  heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt
   -Restart coumadin today
   - Amiodarone
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   - Decrease buproprion to half
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-15**] 01:03 PM 20 mL/hour
   Glycemic Control:  Insulin ss
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  bundle
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-12-17 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident and Fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:  67 y o man with diastolic HF, COPD, AF, CAD s/p CABG, admitted
   with ARDS [**2-6**] suspected H1N1, c/b ARF, VAP, and VRE bacteremia, and
   recurrent fevers.
   24 Hour Events:
   New fever yesterday, pan-cultured, flagyl added
   Continued on CVVH with net negative
   Hypotensive at 10pm to the 70s, got a 250 cc bolus, briefly back on neo
   Fentanyl gtt decreased to 50 mcg/hour
   History obtained from Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-17**] 12:00 AM
   Metronidazole - [**2102-12-17**] 04:01 AM
   Cefipime - [**2102-12-17**] 08:09 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Fentanyl - [**2102-12-16**] 08:26 PM
   Lorazepam (Ativan) - [**2102-12-16**] 09:08 PM
   Other medications:
   Protonix 40 daily
   Buspar
   ASA 325
   Chlorhexidine
   Simvastatin
   Heparin gtt
   Albuterol Q4H
   Amiodarone PO
   Epogen TIW
   Lactic acid lotion
   Fentanyl patch 100 mcg/hr
   Haldol 2.5 QID
   Qvar 4 puffs [**Hospital1 7**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-17**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.6
C (97.8
   HR: 84 (69 - 124) bpm
   BP: 143/58(84) {79/48(60) - 151/70(94)} mmHg
   RR: 21 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 80.4 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 16 (7 - 19)mmHg
   Total In:
                                                                  4,340 mL
                                                                  2,080 mL
   PO:
   TF:
                                                                    659 mL
                                                                    332 mL
   IVF:
                                                                  3,341 mL
                                                                  1,569 mL
   Blood products:
   Total out:
                                                                  6,698 mL
                                                                  1,810 mL
   Urine:
                                                                    110 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,358 mL
                                                                    270 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 750 (701 - 840) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.42/41/90.[**Numeric Identifier 126**]/24/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: intubated, sedated, not responding to commands
   Chest: decreased wheezes today, scattered rales anteriorly
   CV: tachy, irregular
   Abd: distended, no BSs
   Extr: L heel and R ball of foot with dusky patches
   Labs / Radiology
   7.7 g/dL
   235 K/uL
   114 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   16 mg/dL
   97 mEq/L
   132 mEq/L
   23.1 %
   5.9 K/uL
        [image002.jpg]
                            [**2102-12-15**]  10:12 PM
                            [**2102-12-16**]  04:05 AM
                            [**2102-12-16**]  04:10 AM
                            [**2102-12-16**]  11:58 AM
                            [**2102-12-16**]  05:14 PM
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
   WBC
   6.8
   5.9
   Hct
   24.4
   23.1
   Plt
   214
   235
   Cr
   1.7
   1.8
   1.5
   3.0
   TCO2
   25
   26
   27
   27
   28
   Glucose
   114
   131
   131
   103
   114
   Other labs: PT / PTT / INR:15.2/83.9/1.3, CK / CKMB /
   Troponin-T:51/5/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.5
   mg/dL
   CK: 125
   Micro:  Blood cutlures since [**12-11**]: NGTD
   C. diff [**12-16**]: negative
   Sputum: upper resp secretions
   CXR: ?increased LUL opacity
   Assessment and Plan
   67M with ARDS thought secondary to H1N1; course complicated by PsA VAP
   and VRE bacteremia; now s/p trach.
   1. Fever: febrile yesterday, all culutes negative.  Blood cultures
   negative since [**12-11**], when he grew enterococcus.  Briefly on neo last
   night, now pressures stable again and tolerating CVVH.
   - continue linezolid + flagyl
   - check another c. diff
   - d/c CVVH line, culture tip
   - consider changing cefepime to meropenem if still febrile p line out
   2. Respiratory failure:  barriers to breathing spontaneously include
   VAP, volume overload, increased airways resistance and persistent
   encephalopathy with significant sedation.  Net negative over 2.3 L
   since yesterday
   - CVVH holiday today per renal
   - Continue bronchodilators, fluticasone inhaled
   - wean FiO2 to 40%
   - Likely increase his PEEP in response to
rounding-up
 on exam, can
   increase support if needed
   3. Hypotension: brief o/n in a setting of aggressive volume removal,
   briefly on neo, now off.  Also with new fevers yesterday.
   - CVVH holiday
   - f/up cultures, fever mgmt as above
   4. Neuro:  AMS likely delirium as well as respiratory distress
   secondary to bronchospasm and volume as above.  Noted to be rigid x
   several days, ?contribution [**2-6**] fentanyl, haldol.  CK normal.
   - wean buproprion: decrease dose by half today
   - hold furhter haldol
   - change fentanyl to dilaudid
   - strive to avoid propofol and benzos
   5. PsA PNA:
   - Cefipime x 16days, starting on [**12-8**]
   6. VRE bacteremia:
   - Linezolid x 14day (st [**12-12**])
   7. Renal: euvolemic on exam
   - CVVH holiday per renal
   - Follow UOP, renal function
   8. CV:
   - evaluate with cath/ischemic evaluation in future when improved from
   pulmonary perspective
   - amio po for AF rate control
   9. GI:  ileus/partial obstruction, responds to methylnaltrexone
   - need to minimize narcotics; continue methylnaltrexone
   - trophic feeds
   10. Dusky toes: likely [**2-6**] sepsis, past pressor use
   - Vascular evaluation when more stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-17**] 04:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Dialysis Catheter - [**2102-12-11**] 01:00 PM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevated, peridex
   Communication:  Comments: will update family
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 34 min CCT

2102-12-18 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2102-12-17**] 04:32 PM
 BLOOD CULTURED - At [**2102-12-18**] 12:03 AM
   Repeat c.diff negative
   Spiked temp to 100.9 so started meropenem
   Pulled HD line prior to his fever
   Cut his buproprion dose in half given interaction w/ linezolid and
   possibility of serotonin syndrome w/ rigidity and fever.
   Stopped haldol given rigid/fevers
   Stopped fentanyl and switched to dilaudid given rigidity.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-17**] 08:00 PM
   Linezolid - [**2102-12-18**] 12:00 AM
   Meropenem - [**2102-12-18**] 01:10 AM
   Metronidazole - [**2102-12-18**] 04:00 AM
   Infusions:
   Hydromorphone (Dilaudid) - 2 mg/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2102-12-18**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.3
   HR: 72 (71 - 146) bpm
   BP: 123/57(77) {89/46(60) - 147/70(98)} mmHg
   RR: 21 (16 - 42) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 80.4 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 13 (8 - 19)mmHg
   Total In:
                                                                  4,738 mL
                                                                  1,176 mL
   PO:
   TF:
                                                                    960 mL
                                                                    282 mL
   IVF:
                                                                  3,478 mL
                                                                    774 mL
   Blood products:
   Total out:
                                                                  2,778 mL
                                                                     47 mL
   Urine:
                                                                    124 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,960 mL
                                                                  1,129 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 717 (529 - 754) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.39/42/126/23/0
   Ve: 14.9 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   228 K/uL
   7.1 g/dL
   122 mg/dL
   2.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   30 mg/dL
   99 mEq/L
   135 mEq/L
   22.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:58 AM
                            [**2102-12-16**]  05:14 PM
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
   WBC
   5.9
   7.4
   Hct
   23.1
   22.2
   Plt
   235
   228
   Cr
   1.8
   1.5
   3.0
   1.8
   2.7
   TCO2
   27
   27
   28
   26
   Glucose
   131
   131
   103
   114
   145
   122
   Other labs: PT / PTT / INR:15.2/67.5/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:10.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Microbiology: C.diff neg x 2 12/12,13
   Bld cx [**Date range (1) 12138**] NGTD
   Urine cx [**12-16**] NGTD
   HD line tip cx pending
   Sputum [**12-16**] poor sample
   Assessment and Plan
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Fevers: Continues to spike fevers but blood cultures have remained
   negative, unlikely to be line infection but will pull HD line. Could be
   from NMS w/ haldol given rigidity vs. Fentanyl vs. buproprion causing
   serotonin syndrome w/ linezolid.  bacteria, fungal, drug fever.
   Currently, stable and off pressors.
   - follow blood, urine, HD line cultures
   -Changed fentanyl to dilaudid drip, now turn off drip with PRN boluses
   - Less likely to be NMS as symptoms started before haldol and normal CK
   - D/C buproprion
   - Keep cefepime for now as ESBLs would have grown by now, if HD
   unstable will restart meropenem
   - Replace HD line tomorrow
   - D/C flagyl given negative C.diff
   - PICC placement and d/c right IJ and cx tip
   -D/C aline
   .
   # Hypotension: Has been normotensive recently.
   -Con
t to monitor
   # Hypoxemic respiratory failure: Biggest problem with weaning currently
   is mental status. Pt. gets agitated w/ withdrawl of sedation. Will
   likely need to be switched from Fentanyl to dilaudid and then weaned
   down. Pt. will need to be uncomfortable and agitated for some period of
   time while the sedation is weaned but may consider pressedex for a
   brief period while weaning opiates.
   - D/C dilaudid gtt and use only PRN boluses for pain or withdrawal
   - PRN Haldol for agitations
   - Increased wheezing likely contributing to agitation, increased
   broncodilators and started Inh fluticasone; combivent standing
   - Cefepime for 16 day course from [**12-8**]
   - Restart HD vs. CVVH after line replacement
   - FiO2 to 40%
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.
   - f/u cultures from CVVH line.
   - Hold daily cultures as has been negative for past 2 days.
   - Linazolid 2 week course from [**12-12**]
   - Consider TEE once stable
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control
   - on heparin gtt.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Very low retic count, likely BM suppression from influenza
   and critical illness
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved initially with
   Methylnaltrexone, now slowing down but minimal residuals from NG
   suction
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone Q48 hr as needed
   -  continue tube feeds and PO meds today, advance TF as tolerated
   - Consider IP consult for PEG today given improvement
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c
   - continue HD after line holiday
   - appreciate renal recs
   # Thrombocytopenia: Improving.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   -  heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt
   -Restart coumadin after PEG
   - Amiodarone
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   - Decrease buproprion to half
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-18**] 04:37 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2102-12-18 10:46:00 Physician Attending Progress Note
Chief Complaint: ARDS
   HPI:
   67M with ARDS thought secondary to H1N1; course complicated by PsA VAP
   and VRE line infection.
   24 Hour Events:
   Recurrent temperature over the weekend; expanded antibiotic coverage.
   Changed sedation secondary to rigidity and concern for NMS or serotonin
   syndrome.  HD catheter removed in setting of recurrent fevers.
   PICC placed today.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-18**] 12:00 AM
   Meropenem - [**2102-12-18**] 01:10 AM
   Metronidazole - [**2102-12-18**] 04:00 AM
   Cefipime - [**2102-12-18**] 08:20 AM
   Infusions:
   Hydromorphone (Dilaudid) - 2 mg/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-18**] 08:20 AM
   Other medications:
   ASA
   Chlorhexidine
   Simvastatin
   Albuterol/atrovent
   Heparin
   Epogen
   Tylenol q6h
   Wellbutrin
   Amiodarone 400mg PO
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-18**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.3
   HR: 85 (70 - 146) bpm
   BP: 124/56(77) {89/46(60) - 147/70(98)} mmHg
   RR: 15 (15 - 42) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 80.4 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 11 (8 - 19)mmHg
   Total In:
                                                                  4,738 mL
                                                                  1,527 mL
   PO:
   TF:
                                                                    960 mL
                                                                    414 mL
   IVF:
                                                                  3,478 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                  2,778 mL
                                                                     67 mL
   Urine:
                                                                    124 mL
                                                                     67 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,960 mL
                                                                  1,460 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 793 (529 - 793) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.39/42/126/23/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 252
   Physical Examination
   Gen: Sedated, not responding to voice
   Chest: Clear anterior fields, improving right lower lung field
   CV:  RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Neuro:  no evidence of significant rigidity.
   Labs / Radiology
   7.1 g/dL
   228 K/uL
   122 mg/dL
   2.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   30 mg/dL
   99 mEq/L
   135 mEq/L
   22.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:58 AM
                            [**2102-12-16**]  05:14 PM
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
   WBC
   5.9
   7.4
   Hct
   23.1
   22.2
   Plt
   235
   228
   Cr
   1.8
   1.5
   3.0
   1.8
   2.7
   TCO2
   27
   27
   28
   26
   Glucose
   131
   131
   103
   114
   145
   122
   Other labs: PT / PTT / INR:15.2/67.5/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Fibrinogen:951 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:10.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Cdiff negative x 2
   Blood cultures: negative
   Urine cultures: negative
   Assessment and Plan
   67M with ARDS, thought secondary to H1N1; improving ARDS but course
   complicated by VAP and VRE bacteremia.
   1.       Neuro:  doubt NMS given normal CK; possible serotonin syndrome
   with fentanyl (direct serotonin agonist) in combination with Bupropion
   (serotonin reuptake inhibitor). Still with somnolence
   - discontinue dilaudid drip; can treat pain or withdrawal with prn
   boluses
   - Treat delirium with haldol if needed
   - Assess underlying respiratory status if develops agitation and
   consider ventilator changes for increased support as opposed to
   increased sedation.
   2.       Respiratory Failure:  improving with minimal support ([**5-9**],
   fiO2 .5)
   -          wean FiO2 to 0.4
   -          watch for signs of CHF as not being dialysed
   3.       PsA VAP:
   - Discontinue meropenem as no evidence for new VAP; plan 2 week course
   of cefepime
   4.       VRE Bacteremia:
   - discontinue R IJ now that has PICC
   - f/u cultures
   - continue linezolid
   5.       Renal:
   - HD line tomorrow; with VIP port
   - Discuss with renal re: HD starting tomorrow if remains
   hemodynamically stable
   6.       CV:
   - Will need ischemic evaluation following improvement from ARDS.
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2102-12-18**] 04:37 AM 40 mL/hour;
   call IP regarding PEG.
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2102-11-28**] 11:09 AM
   Multi Lumen - [**2102-12-12**] 06:12 PM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer:  PPI
   VAP:  HOB/chlorhexidine
   Communication:  Update family daily
   Code status: Full code
   Disposition : Critically ill, remain in ICU .  Case management
   regarding rehab plans.
   Total time spent:   35minutes CCT
   ------ Protected Section ------
   3+ GNR growing in [**12-18**] sputum culture
 will switch cefepime to
   meropenem which will continue to treat the pseud pna, and at same time
   cover a resistant new GNR.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-18**] 18:49 ------

2102-12-19 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2102-12-18**] 12:00 PM
 MULTI LUMEN - STOP [**2102-12-18**] 01:15 PM
 EKG - At [**2102-12-18**] 11:00 PM
 ARTERIAL LINE - STOP [**2102-12-19**] 04:05 AM
 PICC LINE - STOP [**2102-12-19**] 04:13 AM
 PICC LINE - START [**2102-12-19**] 04:13 AM
 FEVER - 101.5
F - [**2102-12-19**] 12:00 AM
   PICC line placed
   D/C'd RIJ CVL
   IR on board for Temp HD line in am
   Thoracics on board for OR PEG in the afternoon
   Sputum with 3+ GNRS, changed back to Meropenem
   D/C'd buproprion for ? serotonin syndrome
   Urine benzos still positive
   Tried FiO2 to 40% but increased WOB and wheezing, increased HR/BP, one
   episode of vomitting. Put back on [**10-14**]% for easier WOB. Given
   zofran.
   CM given heads up for possible d/c late this week.
   Persistently tachy and hypertensive, little wheezing and looked
   comfortable on the vent after above chancges(flutter in 130s, SBP
   170s), gave 0.5mg IV dilaud, 2.5mg IV haldol with little effect.
   Gave 5mg IV and 25mg PO metoprolol with good response in HR but little
   in BP. Got 1mg IV dilaudid with some improvement in BP
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2102-12-18**] 04:00 AM
   Cefipime - [**2102-12-18**] 08:20 AM
   Linezolid - [**2102-12-19**] 12:00 AM
   Meropenem - [**2102-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-18**] 08:20 AM
   Haloperidol (Haldol) - [**2102-12-18**] 10:05 PM
   Metoprolol - [**2102-12-18**] 11:05 PM
   Hydromorphone (Dilaudid) - [**2102-12-19**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 88 (70 - 147) bpm
   BP: 168/65(91) {130/60(77) - 168/102(118)} mmHg
   RR: 24 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 88.1 kg (admission): 80 kg
   Height: 67 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  2,879 mL
                                                                    475 mL
   PO:
   TF:
                                                                    825 mL
   IVF:
                                                                  1,694 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                    153 mL
                                                                    551 mL
   Urine:
                                                                    153 mL
                                                                    251 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,726 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (565 - 793) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.41/39/81.[**Numeric Identifier 508**]/21/0
   Ve: 17.4 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: Sedated, not responding to voice
   Chest: Clear anterior fields, improving right lower lung field
   CV:  RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Neuro:  no evidence of significant rigidity.
   Labs / Radiology
   262 K/uL
   7.2 g/dL
   121 mg/dL
   3.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   47 mg/dL
   98 mEq/L
   132 mEq/L
   22.6 %
   10.5 K/uL
        [image002.jpg]
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
   WBC
   5.9
   7.4
   10.5
   Hct
   23.1
   22.2
   22.6
   Plt
   235
   228
   262
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   TCO2
   27
   27
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   Other labs: PT / PTT / INR:15.0/33.4/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Microbiology: [**2102-12-18**] 8:38 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2102-12-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Fevers: Continues to spike fevers but blood cultures have remained
   negative, unlikely to be line infection but will pull HD line. Could be
   from rigidity (see below) vs  bacteria, fungal, drug fever.  Currently,
   stable and off pressors.  Lines changed.
   - follow blood, urine, HD line cultures
   - Linazolid/meropenem for possible ESBL VAP and VRE.  [**Last Name (un) **] started
   [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**], copurse pending TTE and
   speciation of GNR in sputum culture
   - Replace HD line today
   # Agitation and rigidity: Somewhat improved on exam today.  Ddx
   includes seritonin syndrome, delerium, sedation effects, pain.  Less
   likely to be NMS as symptoms started before haldol and normal CK.
   Hypertension exists at baseline
   - Stopped Prosac and buproprion
   - Changed fentanyl to dilaudid drip, now turn off drip with PRN boluses
   - restart metoprolol, consider labetalol if not controlled.
   - D/C dilaudid gtt and use only PRN boluses for pain or withdrawal
   - hold Haldol for concern of NMS.
   # Hypoxemic respiratory failure: Biggest problem with weaning currently
   is mental status. Pt. gets agitated w/ withdrawl of sedation. Currently
   weaning dilaudid.  Pt. will need to be uncomfortable and agitated for
   some period of time while the sedation is weaned but may consider
   pressedex for a brief period while weaning opiates.
   - Increased wheezing likely contributing to agitation, increased
   broncodilators and started Inh fluticasone; combivent standing
   - Antibiotics as above
   - Start  HD after line replacement
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.  CVVH, CVL and A-lines removed.
   - Hold daily cultures as has been negative for past 2 days.
   - Linazolid 2 week course from [**12-12**]
   - TTE/TEE
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Very low retic count, likely BM suppression from influenza
   and critical illness
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved initially with
   Methylnaltrexone, now slowing down but minimal residuals from NG
   suction
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone Q48 hr as needed
   - holding TF in anticipation of PEG today
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c
   - continue HD after line holiday
   - appreciate renal recs
   # Thrombocytopenia: Improving.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   -  heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; Restart coumadin after PEG
   - Amiodarone
   - resume home metoprolol 25 [**Hospital1 7**]
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-18**] 04:37 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-12-19**] 04:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Pantoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Neuro exam:
   General:                no response to voice.
   CN:
   II,III:         pupils 4-2 mm bilaterally to light
   III,IV,V:    Occasional roaving eye movements, no tracking, bilateral
   corneal reflexes
   V:             unable to assess
   VII:           Facial muscles tense throuought, symmetric
   VIII:           no response to voice
   IX,X:        normal gag
   [**Doctor First Name **]:            SCM/trapezeii tense
   XII:           tongue midline
   Motor:     Increased tone throughout.  No paratonia.  Right arm low
   frequency tremor
   Reflex:    3+ throughout
   Sensation:            unable to assess
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 1823**], MD
   on:[**2102-12-19**] 14:17 ------

2102-12-19 10:27:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS likely due to unconfirmed H1N1; course complicated by VAP
   and VRE bacteremia.
   24 Hour Events:
   PICC line placed yesterday; discontinued central line.
   Off dilaudid since yesterday; but did require prn doses.
   Increased pressure support yesterday for increased WOB, wheeze.
                        Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2102-12-18**] 04:00 AM
   Cefipime - [**2102-12-18**] 08:20 AM
   Linezolid - [**2102-12-19**] 12:00 AM
   Meropenem - [**2102-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2102-12-18**] 10:05 PM
   Metoprolol - [**2102-12-18**] 11:05 PM
   Hydromorphone (Dilaudid) - [**2102-12-19**] 04:08 AM
   Other medications:
   Chlorhexadine
   Simvastatin
   Albuterol/Atrovent
   Epogen
   APAP
   Amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-19**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 94 (71 - 147) bpm
   BP: 175/93(109) {130/60(77) - 176/102(118)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 88.1 kg (admission): 80 kg
   Height: 67 Inch
   CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  2,879 mL
                                                                    501 mL
   PO:
   TF:
                                                                    825 mL
   IVF:
                                                                  1,694 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                    153 mL
                                                                    646 mL
   Urine:
                                                                    153 mL
                                                                    346 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,726 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 648 (565 - 744) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.41/39/81.[**Numeric Identifier 508**]/21/0
   Ve: 15.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen: Does not awaken to voice
   Chest:  clear anterior lung fields
   CV:  IR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   7.2 g/dL
   262 K/uL
   121 mg/dL
   3.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   47 mg/dL
   98 mEq/L
   132 mEq/L
   22.6 %
   10.5 K/uL
        [image002.jpg]
                            [**2102-12-16**]  05:37 PM
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
   WBC
   5.9
   7.4
   10.5
   Hct
   23.1
   22.2
   22.6
   Plt
   235
   228
   262
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   TCO2
   27
   27
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   Other labs: PT / PTT / INR:15.0/33.4/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:87.0 %, Band:4.0 %, Lymph:3.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.8
   mg/dL
   Imaging: CXR:  improving RLL infiltrate
   Microbiology: Sputum ([**12-18**]): GNR and yeast
   Assessment and Plan
   67yoM with ARDS; now with PsA VAP, VRE bacteremia.
   1.       Respiratory failure:  Component of volume overload, PNA
   - continue bronchodilators
   - titrate vent with support as needed for comfort/WOB
   2.       Neuro:
   - Hold haldol given increased rigidity
   - Plan for MRI and EEG
   - Consider neuro consult pending MRI/EEG and clinical status off haldol
   3.       VAP/PNA:  PsA on [**12-8**], now with recurrent PsA (sensitivities
   pending) and new infiltrates
   - meropenem and await most recent culture data to determine new course
   and antibiotics
   4.       VRE Bacteremia:  All cultures negative
   - Linezolid x 2 weeks
   - TTE, if no vegetation, will consider TEE
   5.       CV:  HTN, atrial flutter
   - restart metoprolol 25 [**Hospital1 **], amiodarone
   -  Can switch to labetalol if remains hypertensive after PEG, HD.
   6.       Renal:  Getting HD line today
   - HD today after line
   ICU Care
   Nutrition: Tube feeds held for line and PEG
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2102-12-19**] 04:13 AM
   Prophylaxis:
   DVT:  Heparin therapeutic
   Stress ulcer:  PPI
   VAP:  HOB
   Communication:  Update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35 minutes CCT

2102-12-20 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PEG tube placed (@3cm): no heparin or TF x 24 hours
   TTE showed aortic root dilation, not significantly changed from prior.
   Normal RV funtion.  TEE planned for tomorrow.
   HD deferred to tomorrow
   MRI brain done, EEG ordered
   uptitrated metoprolol
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2102-12-18**] 04:00 AM
   Cefipime - [**2102-12-18**] 08:20 AM
   Linezolid - [**2102-12-20**] 12:00 AM
   Meropenem - [**2102-12-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (67 - 102) bpm
   BP: 172/77(97) {135/53(72) - 177/93(111)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 88.1 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,849 mL
                                                                    675 mL
   PO:
             TF:
   IVF:
                                                                  1,549 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  1,361 mL
                                                                    290 mL
   Urine:
                                                                    961 mL
                                                                    290 mL
   NG:
                                                                    300 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    488 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 528 (528 - 741) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 18.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   6.7 g/dL
   118 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.1 mEq/L
   59 mg/dL
   100 mEq/L
   137 mEq/L
   21.3 %
   9.6 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   Hct
   23.1
   22.2
   22.6
   21.3
   Plt
   235
   228
   262
   265
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   4.1
   TCO2
   27
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   118
   Other labs: PT / PTT / INR:15.0/27.9/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:81.0 %, Band:3.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   A/P
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF
   # Fevers: Continues to spike fevers but blood cultures have remained
   negative, unlikely to be line infection but will pull HD line. Could be
   from rigidity (see below) vs  bacteria, fungal, drug fever.  Currently,
   stable and off pressors.  Lines changed.
   - follow blood, urine, HD line cultures
   - Linazolid/meropenem for possible ESBL VAP and VRE.  [**Last Name (un) **] started
   [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**], copurse pending TTE and
   speciation of GNR in sputum culture
   - Replace HD line today
   # Agitation and rigidity: Somewhat improved on exam today.  Ddx
   includes seritonin syndrome, delerium, sedation effects, pain.  Less
   likely to be NMS as symptoms started before haldol and normal CK.
   Hypertension exists at baseline
   - Stopped Prosac and buproprion
   - Changed fentanyl to dilaudid drip, now turn off drip with PRN boluses
   - restart metoprolol, consider labetalol if not controlled.
   - D/C dilaudid gtt and use only PRN boluses for pain or withdrawal
   - hold Haldol for concern of NMS.
   # Hypoxemic respiratory failure: Biggest problem with weaning currently
   is mental status. Pt. gets agitated w/ withdrawl of sedation. Currently
   weaning dilaudid.  Pt. will need to be uncomfortable and agitated for
   some period of time while the sedation is weaned but may consider
   pressedex for a brief period while weaning opiates.
   - Increased wheezing likely contributing to agitation, increased
   broncodilators and started Inh fluticasone; combivent standing
   - Antibiotics as above
   - Start  HD after line replacement
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.  CVVH, CVL and A-lines removed.
   - Hold daily cultures as has been negative for past 2 days.
   - Linazolid 2 week course from [**12-12**]
   - TTE/TEE
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU
   # Anemia: Very low retic count, likely BM suppression from influenza
   and critical illness
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: likely [**2-6**] opiod.  Resolved initially with
   Methylnaltrexone, now slowing down but minimal residuals from NG
   suction
   - continue colace/senna/miralax/bisacodyl
   - Methylnaltrexone Q48 hr as needed
   - holding TF in anticipation of PEG today
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c
   - continue HD after line holiday
   - appreciate renal recs
   # Thrombocytopenia: Improving.  Likely [**2-6**] CRRT. HIT negative, normal
   fibrinogen
   -  heparin gtt given recent a.fib/flutt
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; Restart coumadin after PEG
   - Amiodarone
   - resume home metoprolol 25 [**Hospital1 7**]
   # Depression: Will hold Prozac while on linazolid and plan to restart
   once linzolid course complete
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2102-12-18**] 04:37 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-12-19**] 04:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Pantoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU

2102-12-20 09:18:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS likely secondary to H1N1; complicated hospital course.
   24 Hour Events:
   Events of yesterday noted with placement of PEG, HD line, plan for HD
   today.  Underwent MRI, results still pending.  Plan for TEE today given
   TTE with evidence of aortic root dilation.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2102-12-18**] 04:00 AM
   Cefipime - [**2102-12-18**] 08:20 AM
   Linezolid - [**2102-12-20**] 12:00 AM
   Meropenem - [**2102-12-20**] 04:00 AM
   Other medications:
   PPI
   Chlorhexidine
   Simvastatin
   combivent
   heparin
   Epogen
   Linezolid
   Amiodarone
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-20**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.8
   HR: 92 (67 - 102) bpm
   BP: 162/76(97) {135/53(72) - 179/93(111)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,849 mL
                                                                    713 mL
   PO:
             TF:
   IVF:
                                                                  1,549 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  1,361 mL
                                                                    670 mL
   Urine:
                                                                    961 mL
                                                                    570 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    488 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 535 (528 - 741) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 16.3 L/min
   Physical Examination
   Gen: does not follow commands
   Chest:  IR/IR
   Chest: clear anterior fields
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   6.7 g/dL
   265 K/uL
   118 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.1 mEq/L
   59 mg/dL
   100 mEq/L
   137 mEq/L
   21.3 %
   9.6 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:04 PM
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   Hct
   23.1
   22.2
   22.6
   21.3
   Plt
   235
   228
   262
   265
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   4.1
   TCO2
   27
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   118
   Other labs: PT / PTT / INR:15.0/27.9/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:81.0 %, Band:3.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Imaging: MRI (brain): chronic microvascular changes, old right
   cerebellar infarct; sphenoid sinusitis.
   Microbiology: Sputum [**12-18**]: PsA (sensitivities pending)
   Blood: [**12-19**]: NGTD
   Assessment and Plan
   67M with ARDS, likely due to H1N1; course complicated by persistent
   respiratoy failure requiring tracheostomy, VAP, VRE bacteremia, renal
   failure.
   1.       Respiratory Failure:
   - try [**5-9**] and attempt some time on trach mask today; restart PSV if
   evidence of increased WOB
   - HD today with negative
   2.       Neuro:  concern for rigidity, feves, clonus, perhaps
   hyperreflexia
 possible serotonin syndrome
   - consult neuro
   - discontinue linezolid
   - discontinue dialudid; give prn oxycodone or morphine if evidence of
   pain
   - holding wellbutrin and prozac
   3.       PsA PNA:
   - awaiting culture data; currently on meropenem. Will define course.
   4.       VRE Bacteremia
   - change linezolid to daptomycin
   - TEE today
   5.       Renal: improving urine output overnight; now 100ml/hr
   - likely HD today, but perhaps with improvement of his UOP moving
   towards renal recovery.
   6.       GI: can restart tube feeds today
   7.       CV:  afib, CAD
   - metoprolol 50mg tid; increase dose with BP and HR room
   - amiodarone daily from [**Hospital1 **]
   - eventual ischemic evaluation
   - restart heparin drip; restart coumadin
   ICU Care
   Nutrition:   Restart tube feeds today
   Glycemic Control:  insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-19**] 08:29 PM
   Prophylaxis:
   DVT:  heparin prophylaxis
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Update family
   Code status: Full code
   Disposition : ICU
   Total time spent: 35minutes CCT

2102-12-21 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp. failure
   24 Hour Events:
 EEG - At [**2102-12-20**] 08:45 AM
 TRANS ESOPHAGEAL ECHO - At [**2102-12-20**] 09:25 AM
 PICC LINE - START [**2102-12-20**] 12:05 PM
 PICC LINE - STOP [**2102-12-20**] 12:42 PM
   Called neuro re: serotonin syndrome, they said it could be so stop all
   inciting meds but looks parkinsonian so hold haldol.
   Switched from linezolid to daptomycin
   Tried on [**5-9**] and then trach mask but got tachypnic after a couple hours
   and put back on CPAP 15/10.
   Got tachypnic and alkalemic so given 8mg morphine X2
   Got TEE which was negative for IE
   Restarted TFs
   Decreased amiodarone to QD
   Uptitrated metoprolol
   Started warfarin
   Discussed with case management-He has been screened and will be ready
   to go when we are.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-12-18**] 08:20 AM
   Linezolid - [**2102-12-20**] 12:00 AM
   Daptomycin - [**2102-12-20**] 12:33 PM
   Meropenem - [**2102-12-20**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-12-20**] 09:32 AM
   Morphine Sulfate - [**2102-12-21**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2102-12-21**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.5
   HR: 108 (75 - 110) bpm
   BP: 144/103(112) {130/58(75) - 171/103(112)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,706 mL
                                                                    492 mL
   PO:
             TF:
                                                                    150 mL
                                                                    221 mL
   IVF:
                                                                  1,076 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  5,325 mL
                                                                     40 mL
   Urine:
                                                                  1,125 mL
                                                                     40 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -3,619 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (462 - 653) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.49/37/101/29
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   7.1 g/dL
   118 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.1 mEq/L
   59 mg/dL
   100 mEq/L
   137 mEq/L
   22.9 %
   12.6 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   12.6
   Hct
   23.1
   22.2
   22.6
   21.3
   22.9
   Plt
   235
   228
   262
   265
   295
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   4.1
   TCO2
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   118
   Other labs: PT / PTT / INR:18.5/93.8/1.7, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:81.0 %, Band:3.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Imaging: TEE: No spontaneous echo contrast or mass/thrombus is seen in
   the left atrium/left atrial appendage or the right atrium/right atrial
   appendage. The right atrial appendage ejection velocity is depressed
   (<0.2m/s). No atrial septal defect is seen by 2D or color Doppler.
   Overall left ventricular systolic function is normal (LVEF>55%). There
   are simple atheroma in the aortic arch and descending thoracic aorta
   (to 32cm from the incisors). The aortic valve leaflets (3) are mildly
   thickened with focal thickening of the right coronary cusp. No masses
   or vegetations are seen on the aortic valve. No aortic regurgitation is
   seen. The mitral valve leaflets are structurally normal. No mass or
   vegetation is seen on the mitral valve. Mild to moderate ([**1-6**]+) mitral
   regurgitation is seen.
   IMPRESSION: Mild-moderate mitral regurgitation with normal valve
   morphology. No 2D echo evidence of endocarditis.
   CXR (my read): Relatively unchanged
   Microbiology: [**2102-12-18**] 8:38 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2102-12-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         YEAST.    MODERATE GROWTH.
   Line tip cx [**2008-12-16**] NGTD
   Bld Cx [**12-18**] NGTD
   Assessment and Plan
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Again growing pseudamonas from sputum, could also be a
   component of serotonin syndrome.
   - follow blood, urine, HD line cultures
   - Switched linezolid to daptomycin/meropenem for possible ESBL VAP and
   VRE.  [**Last Name (un) **] started [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**],
   course pending speciation of GNR in sputum culture
   - TEE negative for endocarditits.
   .
   # Leukocytosis: New today. CXR relatively unchanged.
   -Blood,urine, sputum cx and check c.diff.
   # Agitation and rigidity: Stable, given he was on fluoxetine,
   buproprion and then started on linezolid within several days of
   stopping his fluoxetine while being on fentanyl strongly suspect
   serotonin syndrome. Doubt nosocomial meningitis as is extremely rare
   and pt. is rigid throughout, not just his neck.
   - Stopped Prozac and buproprion
   - continue metoprolol, consider labetalol if not controlled
   hypertension.
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro recs
   # Hypoxemic respiratory failure: Weaning is currently dependent on
   mental status, he still has positive urine benzos. He may still have a
   pseudamonas PNA. Now with slight tachypnea and respiratory alkalosis.
   - f/u sensis
   - PRN morphine for signs of pain or tachypnea
   - broncodilators and started Inh fluticasone; combivent standing
   - meropenem
   - Start  HD
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.  CVVH, CVL and A-lines removed.
   Catheter tip cultures are pending. TTE not significantly changed.
   - Hold daily cultures as has been negative for past 2 days.
   - Switched linezolid to daptomycin
   - TEE negative
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness.
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: Resolved, holding opiates unless uncomfortable
   - continue colace/senna/miralax/bisacodyl
   - holding TF s/p PEG
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c,
   but UOP rising now, may be post ATN diuresis.
   - continue HD after line holiday
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; Restart coumadin
   - Amiodarone decrease to 400mg QD
   - Con
t metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-21**] 02:58 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2102-12-21 10:56:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS, complicated by VAP and VRE bacteremia, persistent
   depressed mental status.
   24 Hour Events:
   Attempted trach mask for several minutes and put back on PSV.  He also
   developed alkalemia and received morphine with concern that he was
   tachypneic due to pain. TEE without vegetation.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-20**] 12:00 AM
   Daptomycin - [**2102-12-20**] 12:33 PM
   Meropenem - [**2102-12-20**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2102-12-21**] 12:23 AM
   Other medications:
   PPI, ASA, Chlorhexidine, Colace
   Simvastatin, Albuterol, Heparin
   Epo, Tylenol, Amiodarone 400mg daily
   Coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-21**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 77 (75 - 127) bpm
   BP: 140/69(85) {105/58(75) - 171/103(112)} mmHg
   RR: 26 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,706 mL
                                                                    778 mL
   PO:
             TF:
                                                                    150 mL
                                                                    315 mL
   IVF:
                                                                  1,076 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  5,325 mL
                                                                     60 mL
   Urine:
                                                                  1,125 mL
                                                                     60 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -3,619 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (462 - 653) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 13 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   295 K/uL
   126 mg/dL
   2.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   45 mg/dL
   101 mEq/L
   140 mEq/L
   22.9 %
   12.6 K/uL
        [image002.jpg]
                            [**2102-12-16**]  11:05 PM
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   12.6
   Hct
   23.1
   22.2
   22.6
   21.3
   22.9
   Plt
   235
   228
   262
   265
   295
   Cr
   1.5
   3.0
   1.8
   2.7
   3.7
   4.1
   2.9
   TCO2
   28
   26
   26
   Glucose
   103
   114
   145
   122
   121
   118
   126
   Other labs: PT / PTT / INR:18.5/93.8/1.7, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:30/41, Alk Phos / T Bili:180/0.1,
   Amylase / Lipase:/43, Differential-Neuts:81.0 %, Band:3.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.2
   mg/dL
   Imaging: TEE: no endocarditis, normal systolic function.  Mild/moderate
   MR.
   CXR: unchanged with [**Hospital1 **]
   Microbiology: Sputum [**12-18**]: PsA ([**Last Name (un) 270**] pending)
   cdiff: [**12-17**] negative
   Assessment and Plan
   67yoM with ARDS, complicated by VAP, VRE, recurrent PsA PNA.
   1. ID:  New PsA in sputum, 3 strains, one resistant to cefepime,
   sensitive to amik/zosyn/merop. Having persistent fevers
   - continue meropenem
   - send cdiff; LFTs, Amylase/lipase
   - Will hold on LP for time being, but can consider if fevers and AMS
   continue; however suspect other explanations for those issues. check
   diff
   2. VRE Bacteremia:  cultures negative, TEE negative
   - course of daptomycin; plan total of 14 days.
   3. Respiratory Failure:  Trial of [**5-9**]; can assess for possible trach
   mask trial today
   - Consider trial of trach mask today if tolerates minimal support
   4. Neuro:  Suspect persistent encephalopathy related to prolonged
   sedation in setting of renal failure, etc.
   5. Renal: HD yesterday
   - continue intermittent HD
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2102-12-21**] 02:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Communication:  Will update family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-12-22 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2102-12-21**] 09:00 AM
   blood x2 (PICC & Venipunture), Urine, sputum
 FEVER - 101.5
F - [**2102-12-22**] 12:00 AM
   Sputum GS with still 2+ GNRs today. Previous pseudomonas with one
   strain resistant to cefepime but all sensitive to [**Last Name (un) 614**].
   LFTs fine.
   Stable on TM all afternoon. Rested overnight on PS.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-20**] 12:00 AM
   Daptomycin - [**2102-12-20**] 12:33 PM
   Meropenem - [**2102-12-21**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 91 (69 - 127) bpm
   BP: 147/77(94) {105/53(69) - 152/78(94)} mmHg
   RR: 28 (24 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,907 mL
                                                                    584 mL
   PO:
             TF:
                                                                    762 mL
                                                                    299 mL
   IVF:
                                                                    735 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                    685 mL
   Urine:
                                                                     95 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 470 (470 - 6,000) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 13.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   7.1 g/dL
   119 mg/dL
   4.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   68 mg/dL
   102 mEq/L
   138 mEq/L
   22.3 %
   12.3 K/uL
        [image002.jpg]
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   12.6
   12.3
   Hct
   23.1
   22.2
   22.6
   21.3
   22.9
   22.3
   Plt
   235
   228
   262
   265
   295
   311
   Cr
   3.0
   1.8
   2.7
   3.7
   4.1
   2.9
   4.5
   TCO2
   28
   26
   26
   Glucose
   114
   145
   122
   121
   118
   126
   119
   Other labs: PT / PTT / INR:17.0/97.5/1.5, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:77.6 %, Band:3.0 %, Lymph:13.5
   %, Mono:6.3 %, Eos:2.1 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Imaging:  MRI (final): 1. Moderate chronic microvascular white matter
   ischemic disease without acute
   infarct. 2. Sphenoid sinusitis with bilateral mastoid air cell
   effusions.
   Microbiology: [**2102-12-21**] 8:30 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2102-12-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
   GRAM STAIN (Final [**2102-12-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
                                PSEUDOMONAS AERUGINOSA
                                |          PSEUDOMONAS AERUGINOSA
                                |          |          PSEUDOMONAS
   AERUGINOSA
                                |          |          |
   AMIKACIN--------------    16 S        8 S       16 S
   CEFEPIME--------------     8 S        8 S       32 R
   CEFTAZIDIME-----------     4 S        4 S        4 S
   CIPROFLOXACIN---------   =>4 R      =>4 R      =>4 R
   GENTAMICIN------------  =>16 R     =>16 R     =>16 R
   MEROPENEM-------------     1 S   <=0.25 S        1 S
   PIPERACILLIN/TAZO-----    16 S       16 S       32 S
   TOBRAMYCIN------------  =>16 R     =>16 R     =>16 R
   C. diff pending
   Assessment and Plan
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Likely infectious, but serotonin syndrome could be
   contributing.  TEE negative for endocarditis.  Lines have been changed.
   - consider empiric antifungal, ID consult
   - repeat sputum culture
   - follow blood, urine, HD line cultures
   - Switched linezolid to daptomycin/meropenem for possible ESBL VAP and
   VRE.  [**Last Name (un) **] started [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**] for
   14 days, VAP course pending speciation of GNR in sputum culture
   - TEE negative for endocarditits.
   # Leukocytosis: New today. CXR relatively unchanged.
   -Blood,urine, sputum cx and check c.diff.
   # Agitation and rigidity: Stable, given he was on fluoxetine,
   buproprion and then started on linezolid within several days of
   stopping his fluoxetine while being on fentanyl strongly suspect
   serotonin syndrome. Doubt nosocomial meningitis as is extremely rare
   and pt. is rigid throughout, not just his neck.
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Weaning is currently dependent on
   mental status, he still has positive urine benzos. He may still have a
   pseudamonas PNA. Now with slight tachypnea and respiratory alkalosis.
   - f/u sensitivities
   - PRN morphine for signs of pain or tachypnea
   - broncodilators and started Inh fluticasone; combivent standing
   - meropenem
   - Start  HD
   # VRE bacteremia: Has not regrown VRE since line change but CVVH line
   was in place at time of bacteremia.  CVVH, CVL and A-lines removed.
   Catheter tip cultures are pending. TTE/TEE without endocarditis
   - Hold daily cultures as has been negative for past 2 days.
   - Switched linezolid to daptomycin
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness.
   - Try to minimize phlebotomy
   - Transfuse for Hct <21
   - Started Epo
   # Constipation: Resolved, holding opiates unless uncomfortable
   - continue colace/senna/miralax/bisacodyl
   - holding TF s/p PEG
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c,
   but UOP rising now, may be post ATN diuresis.
   - continue HD after line holiday
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; Restart coumadin
   - Amiodarone decrease to 400mg QD
   - Con
t metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-22**] 07:12 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2102-12-22 11:03:00 Physician Attending Progress Note
Chief Complaint: [** 509**], respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M admitted with [**Last Name (LF) 509**], [**First Name3 (LF) 282**] course complicated by VAP, VRE bacteremia.
   24 Hour Events:
   Continued fevers; persistent GNR in sputum.
   Trach mask for yesterday for 8 hours, placed back on PSV overnight and
   with HD.
   Significant stool output.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2102-12-20**] 12:00 AM
   Daptomycin - [**2102-12-20**] 12:33 PM
   Meropenem - [**2102-12-21**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other medications:
   [**Last Name (LF) 10332**], [**First Name3 (LF) **], Chlorhexidine
   Simvastatin, Tylenol q6h, Amiodarone
   Metoprolol, Coumadin, Albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-22**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 76 (69 - 92) bpm
   BP: 156/74(94) {116/53(69) - 156/78(94)} mmHg
   RR: 29 (24 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 87.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,907 mL
                                                                    792 mL
   PO:
             TF:
                                                                    762 mL
                                                                    425 mL
   IVF:
                                                                    735 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                    685 mL
   Urine:
                                                                     95 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 510 (470 - 6,000) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 13.6 L/min
   Physical Examination
   Gen:  Responds to painful stimuli
   Chest: Scant rhonchi anteriorly
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal LE edema
   Labs / Radiology
   7.1 g/dL
   311 K/uL
   119 mg/dL
   4.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   68 mg/dL
   102 mEq/L
   138 mEq/L
   22.3 %
   12.3 K/uL
        [image002.jpg]
                            [**2102-12-17**]  05:05 AM
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
   WBC
   5.9
   7.4
   10.5
   9.6
   12.6
   12.3
   Hct
   23.1
   22.2
   22.6
   21.3
   22.9
   22.3
   Plt
   235
   228
   262
   265
   295
   311
   Cr
   3.0
   1.8
   2.7
   3.7
   4.1
   2.9
   4.5
   TCO2
   28
   26
   26
   Glucose
   114
   145
   122
   121
   118
   126
   119
   Other labs: PT / PTT / INR:17.0/97.5/1.5, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:77.6 %, Band:3.0 %, Lymph:13.5
   %, Mono:6.3 %, Eos:2.1 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   67yoM admitted with [**Year (4 digits) 509**], course complicated by VAP (PsA x 2), VRE
   bacteremia, persistent respiratory failure.
   1.  Respiratory Failure:
   - Trial of trach mask this afternoon after HD.
   - Negative on HD today.
   2.  Persistent fevers:  increased stool output, increased WBC; other
   sources with PsA in sputum, sphenoid sinusitis.  As for other sources
   of fever, he has had significant work-up including abd CT imaging,
   TTE/TEE.
   - plan to start afrin for possible sinusitis
   - consider repeat sinus CT in [**2-7**] days; possible ENT evaluation for
   drainage if persistent.
   - trial of fluconazole x 5 days
   3.  PsA PNA:
   - meropenem x 2 weeks for PsA PNA
   4.  VRE Bacteremia:
   - daptomycin for 2 week course
   5.  Anemia:
   - minimize blood draws
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2102-12-22**] 07:12 AM 40 mL/hour
   Glycemic Control:   Insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP: Not intubated/on trach
   Communication:  Mrs [**Known lastname **] and daughter were both updated personally
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35 minutes

2102-12-23 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   HD 1L removed.  Patient had tachycardia at end.
   C. diff negative
   Discussed with neuro, agreed that LP risks>benefits
   Started Afrin, Fluconazole for sinusitis and fungal colonization
   On Trach mask.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2102-12-21**] 06:00 PM
   Daptomycin - [**2102-12-22**] 04:08 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-23**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 73 (71 - 98) bpm
   BP: 162/73(94) {91/52(65) - 166/75(96)} mmHg
   RR: 33 (24 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,996 mL
                                                                    623 mL
   PO:
             TF:
                                                                    965 mL
                                                                    291 mL
   IVF:
                                                                    691 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     20 mL
   Urine:
                                                                    175 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,221 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (0 - 518) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 14.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   6.7 g/dL
   131 mg/dL
   3.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   40 mg/dL
   99 mEq/L
   138 mEq/L
   21.2 %
   13.5 K/uL
        [image002.jpg]
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
   WBC
   7.4
   10.5
   9.6
   12.6
   12.3
   13.5
   Hct
   22.2
   22.6
   21.3
   22.9
   22.3
   21.2
   Plt
   [**Telephone/Fax (3) 12227**]95
   311
   298
   Cr
   1.8
   2.7
   3.7
   4.1
   2.9
   4.5
   3.0
   TCO2
   28
   26
   26
   Glucose
   145
   122
   121
   118
   126
   119
   131
   Other labs: PT / PTT / INR:15.1/96.9/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:77.6 %, Band:3.0 %, Lymph:13.5
   %, Mono:6.3 %, Eos:2.1 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   A/P
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Likely infectious, given WBC count, but serotonin syndrome
   could be contributing.  TEE negative for endocarditis.  Lines have been
   changed.  Remaining sources could include sinusitis seen on MRI, fungal
   infection of skin/lung (although not usually a cause of such fevers and
   inflammation), unseen intraabdominal abscess, drug reaction.
   Meningitis unlikely given that patient has been on antibiotics.
   - will treat with fluconazole for 5 days empiric therapy as well as
   topical chlotrimazole
   - Afrin to relieve sinus congestion, sinusitis should be covered by
   current antibiotics
   - will do CT with contrast sinus to abdomen on [**12-23**] if not improving
   to look for other source
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: daptomycin/meropenem for possible ESBL VAP and VRE.
   [**Last Name (un) **] started [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**] for 14
   days.  Could consider d/c of antibiotics on [**12-26**] once VRE course
   complete.
   # Agitation and rigidity: Stable, given he was on fluoxetine,
   buproprion and then started on linezolid within several days of
   stopping his fluoxetine while being on fentanyl strongly suspect
   serotonin syndrome. Doubt nosocomial meningitis as is extremely rare
   and pt. is rigid throughout, not just his neck.
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Much improved, tolerating trach mask.
   - continue trach mask as tolerated
   - dialysis today to remove pulmonart edema
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness.
   - Try to minimize phlebotomy
   - Started Epo
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c,
   but UOP rising now, may be post ATN diuresis.
   - continue HD after line holiday
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; Restarted coumadin
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-22**] 07:12 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2102-12-23 11:16:00 Physician Attending Progress Note
Chief Complaint: resp failure in setting of presumed H1N1, ARDS, VAP,
   VRE bacteremia, fevers
   HPI:  67M admitted with ARDS from presumed h1N1 infection, course
   complicated by VAP (PsA ), VRE bacteremia, persistent respiratory
   failure and fevers of unclear etiology
   24 Hour Events:
   HD yesterday, remains with low grade fevers and leukocytosis,
   Tolerated TM X 11 hours yesterday
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2102-12-21**] 06:00 PM
   Daptomycin - [**2102-12-22**] 04:08 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-23**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.2
   HR: 76 (71 - 98) bpm
   BP: 161/69(91) {91/52(65) - 166/75(96)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,996 mL
                                                                    836 mL
   PO:
             TF:
                                                                    965 mL
                                                                    420 mL
   IVF:
                                                                    691 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     47 mL
   Urine:
                                                                    175 mL
                                                                     47 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,221 mL
                                                                    789 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (0 - 518) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 12.9 L/min
   Physical Examination
   General Appearance: No acute distress, looks to voice but unable to
   follow commands
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, sacral, heal skin breakdown
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Tone: rigid, increased tone
   Labs / Radiology
   6.7 g/dL
   298 K/uL
   131 mg/dL
   3.0 mg/dL
   30 mEq/L
   4.1 mEq/L
   40 mg/dL
   99 mEq/L
   138 mEq/L
   21.2 %
   13.5 K/uL
        [image002.jpg]
                            [**2102-12-17**]  05:10 AM
                            [**2102-12-17**]  07:52 AM
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
   WBC
   7.4
   10.5
   9.6
   12.6
   12.3
   13.5
   Hct
   22.2
   22.6
   21.3
   22.9
   22.3
   21.2
   Plt
   [**Telephone/Fax (3) 12227**]95
   311
   298
   Cr
   1.8
   2.7
   3.7
   4.1
   2.9
   4.5
   3.0
   TCO2
   28
   26
   26
   Glucose
   145
   122
   121
   118
   126
   119
   131
   Other labs: PT / PTT / INR:15.1/96.9/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:77.6 %, Band:3.0 %, Lymph:13.5
   %, Mono:6.3 %, Eos:2.1 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.6
   mg/dL
   Microbiology: sputum with psa and yeast, all other cx ngtd/neg
   Assessment and Plan
   67M admitted with ARDS from presumed h1N1 infection, course complicated
   by VAP (PsA ), VRE bacteremia, persistent respiratory failure and
   fevers of unclear etiology
   Ongoing issues include:
   # resp failure
   Continue TM weans, check ABG, oob to chair as able
   # low grade fevers and leukocytosis:  unclear etiology, has had
   extensive w/u including neg pan scan (non IVC), TEE, cxs neg after
   clearing VRE, C diff neg X 3.  Concern for possible drug fever given
   rash, serotonin syndrome given rigidity
   --sputum with PSA on [**Last Name (un) 614**] day 5, completing dapto course for VRE
   bacteremia, on afrin for  sinusitis
    --low likelihood of hosp- acquired meningitis while on antibx so will
   hold on LP at this time
   --would d/c fluconazole, as yeast only in sputum/bal not concerning for
   fungal infection, though would send fungal blood cxs
   --Repeat serum diff and urine eos, pan cx if [**Last Name (LF) 1445**], [**First Name3 (LF) **] consider
   repeat body scan to reassess for abscess if persists
   # PsA PNA:
   - meropenem x 2 wks
   # VRE Bacteremia:
   - completing dapto course
   #Anemia:--likely critical illness/renal related
   - minimize blood draws, goal hct > 21
   # Rigidity
unclear etiology, developed during hospital course,?
   serotonin syndrome, ? parkinsons ds with acute exacerbation in setting
   of acute illness, ? related to recent presumed h1N1 infection sequelae

all potential serotonin increasing meds have been stopped, follow
   neuro exam, lytes, neuro input appreciated
   #ARF
likely atn, continue with HD schedule, will ultimately need tunnel
   line prior to rehab once fevers have resolved
   Remainder as per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-23**] 06:50 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-20**] 12:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:  PPI at home
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU,
   Total time spent: 40 minutes
   Patient is critically ill

2102-12-24 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
 PICC LINE - STOP [**2102-12-23**] 11:25 PM
 PICC LINE - START [**2102-12-24**] 06:40 AM
 FEVER - 998.0
F - [**2102-12-24**] 04:00 AM
   Spiked to 100.5 o/n [**Date range (1) 12247**] cultured
   Stopped fluconazole didn't think yeast in sputum was pathogen
   Kept on trach mask overnight and ABG was on trach mask
   "Spoke"
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-22**] 04:08 PM
   Meropenem - [**2102-12-23**] 06:01 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-24**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 536.7
C (998
   Tcurrent: 536.7
C (998
   HR: 73 (69 - 82) bpm
   BP: 173/82(98) {135/62(83) - 173/82(98)} mmHg
   RR: 32 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,129 mL
                                                                    643 mL
   PO:
             TF:
                                                                    961 mL
                                                                    300 mL
   IVF:
                                                                    738 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                    167 mL
                                                                     90 mL
   Urine:
                                                                    167 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,962 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 463 (463 - 463) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.49/39/95.[**Numeric Identifier 218**]/23/5
   Ve: 12.9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Increased
   Labs / Radiology
   340 K/uL
   6.7 g/dL
   132 mg/dL
   4.5 mg/dL
   23 mEq/L
   5.1 mEq/L
   69 mg/dL
   107 mEq/L
   147 mEq/L
   21.9 %
   13.0 K/uL
        [image002.jpg]
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
   WBC
   7.4
   10.5
   9.6
   12.6
   12.3
   13.5
   13.0
   Hct
   22.2
   22.6
   21.3
   22.9
   22.3
   21.2
   21.9
   Plt
   [**Telephone/Fax (3) 12227**]95
   311
   298
   340
   Cr
   2.7
   3.7
   4.1
   2.9
   4.5
   3.0
   4.5
   TCO2
   26
   26
   31
   Glucose
   122
   121
   118
   126
   119
   131
   132
   Other labs: PT / PTT / INR:14.8/98.5/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:77.6 %, Band:3.0 %, Lymph:13.5
   %, Mono:6.3 %, Eos:2.1 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.3
   mg/dL
   Microbiology: [**2102-12-21**] 8:30 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2102-12-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         YEAST.    SPARSE GROWTH.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   Blood/urine cx [**12-23**]: NGTD
   Assessment and Plan
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Serotonin syndrome vs. drug fever vs. occult abdominal
   infection. C.diff recurrently negative.  Doubt that yeast in sputum is
   infection. Rash on back suggestive of drug rash
   - repeat diff on CBC.
   - d/c fluc
   - Afrin to relieve sinus congestion, sinusitis should be covered by
   current antibiotics
   - will consider CT with contrast sinus to abdomen on today if not
   improving to look for other source
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: daptomycin/meropenem for possible ESBL VAP and VRE.
   [**Last Name (un) **] started [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**] for 14
   days.  Could consider d/c of antibiotics on [**12-26**] once VRE course
   complete.
   # rigidity: Stable, consider H1N1 induced parkinsonism. No known cases
   so far, but occurred with the [**2011**] virus. Mental status improving
   significantly. Urine benzos negative. Could still be serotonin syndrome
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Much improved, tolerating trach mask.
   - continue trach mask as tolerated
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness.
   - Try to minimize phlebotomy
   - Started Epo
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c,
   but UOP rising now, may be post ATN diuresis.
   - continue HD, plan for tunnelled line this week if afebrile
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-24**] 06:21 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2102-12-24 12:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-12-23**] 12:19 PM
 PICC LINE - STOP [**2102-12-23**] 11:25 PM
 PICC LINE - START [**2102-12-24**] 06:40 AM
 FEVER - 998.0
F - [**2102-12-24**] 04:00 AM
   improved fever curve, tolerated TM overnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-22**] 04:08 PM
   Meropenem - [**2102-12-23**] 06:01 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-24**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 536.7
C (998
   Tcurrent: 37.4
C (99.3
   HR: 77 (69 - 82) bpm
   BP: 155/62(85) {149/61(83) - 173/83(101)} mmHg
   RR: 27 (22 - 34) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,129 mL
                                                                  1,016 mL
   PO:
             TF:
                                                                    961 mL
                                                                    489 mL
   IVF:
                                                                    738 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                    167 mL
                                                                    170 mL
   Urine:
                                                                    167 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,962 mL
                                                                    846 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 98%
   ABG: 7.49/39/95.[**Numeric Identifier 218**]/23/5
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, more responsive,
   but intermittent
   Labs / Radiology
   6.7 g/dL
   340 K/uL
   132 mg/dL
   4.5 mg/dL
   23 mEq/L
   5.1 mEq/L
   69 mg/dL
   107 mEq/L
   147 mEq/L
   21.9 %
   13.0 K/uL
        [image002.jpg]
                            [**2102-12-18**]  04:03 AM
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
   WBC
   7.4
   10.5
   9.6
   12.6
   12.3
   13.5
   13.0
   Hct
   22.2
   22.6
   21.3
   22.9
   22.3
   21.2
   21.9
   Plt
   [**Telephone/Fax (3) 12227**]95
   311
   298
   340
   Cr
   2.7
   3.7
   4.1
   2.9
   4.5
   3.0
   4.5
   TCO2
   26
   26
   31
   Glucose
   122
   121
   118
   126
   119
   131
   132
   Other labs: PT / PTT / INR:14.8/98.5/1.3, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.3
   mg/dL
   Microbiology: sputum [**12-21**]-->PSA
   bl/urine [**12-23**] ngtd
   Assessment and Plan
   67M admitted with ARDS from presumed h1N1 infection, course complicated
   by VAP (PsA ), VRE bacteremia, persistent respiratory failure and
   fevers of unclear etiology
   Ongoing issues include:
   # resp failure
   Doing well with TM, oob to chair, rest on AVC as needed, follow
   secretions and consider repeat cxr
   # low grade fevers and leukocytosis:  unclear etiology, has had
   extensive infectious w/u including neg pan scan (non IVC), TEE, cxs neg
   after clearing VRE, C diff neg X 3.  Concern for possible drug fever
   given rash, serotonin syndrome given rigidity
   -- fever curve is down and leukocytosis seems to be trending down
   --sputum with PSA on [**Last Name (un) 614**] day 6, completing dapto course for VRE
   bacteremia, on afrin for  sinusitis
    --low likelihood of hosp- acquired meningitis while on antibx so will
   hold on LP
   -- pan cx if [**Last Name (LF) 1445**], [**First Name3 (LF) **] consider repeat body scan to reassess for
   abscess if persists
   # PsA PNA:
   - meropenem x 2 wks course
   # VRE Bacteremia:
   - completing dapto course
   #Anemia:--likely critical illness/renal related
   - minimize blood draws, goal hct > 21
   # Rigidity
unclear etiology, developed during hospital course,?
   serotonin syndrome, ? parkinsons ds with acute exacerbation in setting
   of acute illness, ? related to recent presumed h1N1 infection sequelae

all potential serotonin increasing meds have been stopped, follow
   neuro exam, lytes, neuro input appreciated
   #hypernatremia
mild, increase free water via tfs and follow
   #AMS
slowly improving, very hard of hearing, hearing aids from home
   #ARF
likely atn, continue with HD per schedule, will ultimately need
   tunnel line prior to rehab once fevers have resolved
   Remainder as per resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-24**] 06:21 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2102-12-25 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-12-24**] 06:30 PM
    on trach mask all day. Got a little tachypnic around 4:30am (to
   40s)->back on PS 10/5
   Increases FW in TF for hypernatremia
   Dialyzed but no fluid removed.
   Increased secretions today, ordered CXR for tomorrow.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-24**] 03:54 PM
   Meropenem - [**2102-12-24**] 04:53 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Cough
   Flowsheet Data as of  [**2102-12-25**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 73 (68 - 91) bpm
   BP: 172/75(99) {131/59(74) - 177/89(104)} mmHg
   RR: 40 (27 - 50) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,600 mL
                                                                  1,000 mL
   PO:
             TF:
                                                                    965 mL
                                                                    293 mL
   IVF:
                                                                    775 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                     75 mL
   Urine:
                                                                    280 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,320 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 484 (484 - 600) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 19.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Increased
   Labs / Radiology
   304 K/uL
   6.4 g/dL
   117 mg/dL
   2.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   40 mg/dL
   104 mEq/L
   140 mEq/L
   20.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
   WBC
   10.5
   9.6
   12.6
   12.3
   13.5
   13.0
   14.1
   Hct
   22.6
   21.3
   22.9
   22.3
   21.2
   21.9
   20.3
   Plt
   [**Telephone/Fax (3) 12268**]
   304
   Cr
   3.7
   4.1
   2.9
   4.5
   3.0
   4.5
   2.6
   TCO2
   26
   26
   31
   Glucose
   121
   118
   126
   119
   131
   132
   117
   Other labs: PT / PTT / INR:14.3/110.6/1.2, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR (my read) slightly worse
   Microbiology:                              SENSITIVITIES: MIC expressed
   in MCG/ML
   _________________________________________________________
                                STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA
   TRIMETHOPRIM/SULFA----   <=1 S
   C.diff neg [**12-22**]
   URINE CULTURE (Final [**2102-12-24**]):
         YEAST.    >100,000 ORGANISMS/ML..
   Blood cx [**12-23**]: NGTD
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Serotonin syndrome vs. drug fever vs. occult abdominal
   infection. C.diff recurrently negative.  Doubt that yeast in sputum is
   infection. Rash on back suggestive of drug rash. Now growing
   stenotrophomonas in his sputum, likely VAP. Not covered by any current
   antibiotics. Afebrile x 48 hrs now.
   - Allergic to sulfa, will start Ceftazidime for stenotrophomonas, will
   confirm with family what the sulfa allergy is
   - Afrin to relieve sinus congestion, sinusitis should be covered by
   current antibiotics
   - will consider CT with contrast sinus to abdomen on today if not
   improving to look for other source
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: daptomycin/meropenem for possible ESBL VAP and VRE.
   [**Last Name (un) **] started [**12-19**], Cefepime from [**Date range (1) 12163**], VRE from [**12-12**] for 14
   days.  Could consider d/c of antibiotics on [**12-26**] once VRE course
   complete.
   - Given yeast in urine and sputum, will restart PO fluconazole for
   planned 5 day course
   # rigidity: Stable, consider H1N1 induced parkinsonism. No known cases
   so far, but occurred with the [**2011**] virus. Mental status improving
   significantly. Urine benzos negative. Could still be serotonin syndrome
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Much improved, tolerating trach mask.
   - continue trach mask as tolerated
   # Coronary artery disease:  Patient likely has some demand ischemia and
   should ideally have rate control.  He had 48 hours of heparin.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness.
   - Try to minimize phlebotomy
   - Started Epo
   # Acute renal failure: Unable to go off dialysis as Cr rises after d/c,
   but UOP rising now, may be post ATN diuresis.
   - continue HD, plan for tunnelled line tomorrow
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-25**] 06:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2102-12-25 10:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS, likely due to unconfirmed H1N1; course complicated by
   acute renal failure, VAP, VRE, persistent altered mental status.
   24 Hour Events:
   Continues with low-grade fevers over weekend.
   Tolerated trach mask most of yesterday until developed tachypnea at 4AM
   and put back on vent.
   100.2 last night, otherwise afebrile.
   Stenotrophomonas from sputum.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-24**] 03:54 PM
   Meropenem - [**2102-12-24**] 04:53 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-25**] 08:00 AM
   Other medications:
   ASA
   Chlorhexidine
   Simvastatin
   Acetaminophen
   Amiodarone
   Toprol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-25**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 73 (68 - 112) bpm
   BP: 160/70(93) {131/59(74) - 177/89(104)} mmHg
   RR: 31 (27 - 50) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.7 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,600 mL
                                                                  1,406 mL
   PO:
             TF:
                                                                    965 mL
                                                                    396 mL
   IVF:
                                                                    775 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    100 mL
   Urine:
                                                                    280 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,320 mL
                                                                  1,306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 484 (484 - 600) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 15.4 L/min
   Physical Examination
   Gen: Opens eyes and tracks to voice, does not follow commands
   Chest: Crackles at right base
   CV: IR/IR
   Abd: s/nt/nd
   Ext: 1+ edema
   Labs / Radiology
   6.4 g/dL
   304 K/uL
   117 mg/dL
   2.6 mg/dL
   25 mEq/L
   4.1 mEq/L
   40 mg/dL
   104 mEq/L
   140 mEq/L
   20.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2102-12-18**]  04:11 AM
                            [**2102-12-18**]  01:36 PM
                            [**2102-12-19**]  03:10 AM
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
   WBC
   10.5
   9.6
   12.6
   12.3
   13.5
   13.0
   14.1
   Hct
   22.6
   21.3
   22.9
   22.3
   21.2
   21.9
   20.3
   Plt
   [**Telephone/Fax (3) 12268**]
   304
   Cr
   3.7
   4.1
   2.9
   4.5
   3.0
   4.5
   2.6
   TCO2
   26
   26
   31
   Glucose
   121
   118
   126
   119
   131
   132
   117
   Other labs: PT / PTT / INR:14.3/110.6/1.2, CK / CKMB /
   Troponin-T:125/3/1.65, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR: bilateral interstitial opacities
   Microbiology: Sputum: stenotrophomonas ([**12-21**])
   Blood cultures: no growth to date
   Assessment and Plan
   67M with ARDS, likely due to unconfirmed H1N1; course complicated by
   acute renal failure, VAP, VRE, persistent altered mental status.
   1.       VAP: now with stenotrophomonas, untreated.  Suspect this is
   cause of fevers. Also with PsA.
   - Add ceftaz per ID for stenotrophomonas (has sulfa allergy).  Will
   confirm with wife regarding sulfa allergy.
   - consider desensitization to bactrim if needed.
   - Continue meropenem through [**12-26**] for PsA PNA.
   2.       [**Female First Name (un) 1354**]: urine/sputum/skin
   - fluconazole x 5 days
   3.       VRE bacteremia: s/p TTE/TEE without vegetation.
   - complete daptomycin tomorrow
   4.       Respiratory failure
   - trach mask as tolerated
   - Pulmonary toilet with MIE if will tolerate; suctioning if needed.
   5.       Acute/Chronic renal failure
   - needs tunneled HD line once afebrile. Try for  tomorrow.
   - HD tomorrow
   6.       Atrial flutter:
   - start coumadin after HD line
   7.       CAD:  outpatient cardiology follow-up
   8.       Neuro:  Slowly improving mental status, suspect resolving
   toxic-metabolic encephalopathy due to long-term sedation, infections,
   critical illness.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-25**] 06:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: ICU consent signed Comments: Update family
   Code status: Full code
   Disposition :ICU ; case management to explore discharge later this
   week.
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient with the fellow and agree substantially
   with his assessment and plan above with the following
   emphasis/modifications:
   67 year old with ARDS, pneumonia, acute on chronic renal failure having
   persistent fevers and now has Stenotrophomonas growing from his
   sputum.  On trach shield but required intermittent ventilation this
   morning.  Now, back on trach shield.
   37.9     P73  163/70  RR 30  Sat 100%
   On exam, on trach shield, poorly responsive
   Chest: CTA bilaterally
   S1 S2 reg
   Abd: Soft NT ND
   A:
   1)       VAP
 stenotrophomonas
   2)       Respiratory Failure
   3)       Acute on Chronic Renal Failure
   4)       Mental Status Change
 reportedly improving though this is my
   first meeting with patient. Presumed toxic-metabolic and related to
   persistent pneumonia and sedation
   Plan:
   1)       Will treat stenotrophomonas and hopefully eradicate persistent
   fevers/ improve respiratory status/mental status
   2)       Continue trach shield as tolerated
 vent if necessary
   3)       Re-evaulate mental status after treating the VAP and
   continuing to hold sedation.
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2102-12-25**] 17:31 ------

2102-12-26 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-12-25**] 07:40 PM
   having significant ectopy with tachycardia and possible rate related
   ischemia and possible flash.
   scheduled for tunnelled HD placement tomorrow (NPO after MN)
   STENOTROPHOMONAS in sputum, bactrim sensitive, but has bactrim allergy,
   so started on ceftazidime per ID recs. Called micro to put ceftaz
   sensitivities on sputum.
   also started fluconazole for yeast (needs Qtc monitering with
   amiodarone)
   Case manager aware patient may be ready for d/c on Wednesday, screening
   has been completed.
   Had some tachycardia and tachypnea,fever o/n, PEEP increased (currently
   14 overnight, then down to 12) with good response. First set CEs
   negative o/n
   T to 101 o/n, pan-cultured
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-24**] 03:54 PM
   Ceftazidime - [**2102-12-25**] 12:00 PM
   Meropenem - [**2102-12-26**] 02:34 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-25**] 08:00 AM
   Morphine Sulfate - [**2102-12-25**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.2
   HR: 69 (67 - 112) bpm
   BP: 163/82(102) {145/65(85) - 173/82(102)} mmHg
   RR: 30 (20 - 44) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 84.6 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  3,381 mL
                                                                    541 mL
   PO:
             TF:
                                                                    961 mL
   IVF:
                                                                    659 mL
                                                                    281 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    248 mL
                                                                    148 mL
   Urine:
                                                                    248 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,133 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 552 (469 - 552) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 26
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 15.8 L/min
   Physical Examination
   Gen: Responds to voice, does not follow commands
   Heart: RRR, distant heart sounds
   Lungs: Coarse inspiratory and expiratory rhonchi bilaterally
   Abd: Soft, NT, ND, BS+
   Ext: Trace pitting edema
   Neuro: rigidity in extremities bilaterally improved from previous.
   Labs / Radiology
   272 K/uL
   7.1 g/dL
   111 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   64 mg/dL
   100 mEq/L
   138 mEq/L
   22.0 %
   15.4 K/uL
        [image002.jpg]
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
   WBC
   9.6
   12.6
   12.3
   13.5
   13.0
   14.1
   15.4
   Hct
   21.3
   22.9
   22.3
   21.2
   21.9
   20.3
   22.0
   Plt
   265
   295
   311
   298
   340
   304
   272
   Cr
   4.1
   2.9
   4.5
   3.0
   4.5
   2.6
   3.8
   TropT
   0.12
   TCO2
   31
   Glucose
   118
   126
   119
   131
   132
   117
   111
   Other labs: PT / PTT / INR:14.5/89.8/1.3, CK / CKMB /
   Troponin-T:17/3/0.12, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.8
   mg/dL
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Likely stenotrophamonas which is not responding to standard
   antibiotics.
   - Allergic to sulfa, will start Ceftazidime for stenotrophomonas, will
   confirm with family what the sulfa allergy is
   - will consider CT with contrast sinus to abdomen on today if not
   improving to look for other source
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: stopping dapto for VRE course today
   - Given yeast in urine and sputum, will restart PO fluconazole for
   planned 5 day course
   # rigidity: Improving, likely resolving drug effect.
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Likely had flash pulmonary edema vs.
   mucous plug.
   - remove fluid w/ HD
   - start hydral and nitro.
   - continue trach mask as tolerated
   - treat stenotrophamonas
   - suction
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   - Try to minimize phlebotomy
   - Started Epo
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - hold on tunneled line as was febrile overnight.
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-25**] 06:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU pending tunneled line then rehab
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan with the following modifications/emphasis:
   Overnight had low-grade fevers and now started coverage for
   stenotrophomonas.  Also had worsening respiratory status and required
   placement back on the ventilator likely secondary to pulmonary edema.
   T 38.3  P  69  BP 162/82   RR 30 Sat 100%
   Poorly responsive but does withdraw and track
   Chest: coarse BS
   Heart: S1 S2 reg
   Abd: soft NTND
   Neuro: cogwheel rigidity, poorly responsive
   Assessment:
   1)       Probable VAP with stenotrophomonas
   2)       Pulmonary Edema
   3)       Anemia
   4)       CAD
   5)       Poorly responsive
   Plan:
   1)       Continue to treat stenotrophomonas
   2)       Hemodialysis
   3)       Transfuse PRBCs
   4)        Intravenous thiamine/vitamins/niacin
   5)       Physical Therapy
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2102-12-26**] 07:20 PM ------

2102-12-26 09:49:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67yoM with ARDS likely secondary to H1N1 unconfirmed; complicated
   course including VAP (PsA and Stenotrophomonas) and VRE bacteremia.
   24 Hour Events:
   Yesterday developed likely acute pulmonary edema during trach mask
   trial, concurrently had significant NSVT.
   Febrile overnight x 1.
   Started ceftazadime for stenotrophomonas.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-24**] 03:54 PM
   Ceftazidime - [**2102-12-25**] 12:00 PM
   Meropenem - [**2102-12-26**] 02:34 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2102-12-25**] 07:30 PM
   Other medications:
   ASA
   Colace
   Simvastatin
   Tylenol
   Lopressor
   Combivent
   Amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-26**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.2
   HR: 68 (67 - 90) bpm
   BP: 157/75(93) {145/65(85) - 173/82(102)} mmHg
   RR: 29 (20 - 41) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 84.6 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  3,381 mL
                                                                    590 mL
   PO:
             TF:
                                                                    961 mL
   IVF:
                                                                    659 mL
                                                                    330 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    248 mL
                                                                    168 mL
   Urine:
                                                                    248 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,133 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 622 (469 - 622) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 29
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 18.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), IR/IR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   272 K/uL
   111 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   64 mg/dL
   100 mEq/L
   138 mEq/L
   22.0 %
   15.4 K/uL
        [image002.jpg]
                            [**2102-12-20**]  04:12 AM
                            [**2102-12-21**]  06:09 AM
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
   WBC
   9.6
   12.6
   12.3
   13.5
   13.0
   14.1
   15.4
   Hct
   21.3
   22.9
   22.3
   21.2
   21.9
   20.3
   22.0
   Plt
   265
   295
   311
   298
   340
   304
   272
   Cr
   4.1
   2.9
   4.5
   3.0
   4.5
   2.6
   3.8
   TropT
   0.12
   0.14
   TCO2
   31
   Glucose
   118
   126
   119
   131
   132
   117
   111
   Other labs: PT / PTT / INR:14.5/89.8/1.3, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.8
   mg/dL
   Microbiology: Sputum: stenotrophomans
   Urine cx: yeast > 100k
   Assessment and Plan
   67yoM with resolving ARDS, course complicated by VAP, VRE bacteremia,
   acute renal failure.
   1.  Chronic respiratory failure:  Suspect cardiac etiology with CHF
   with acute change yesterday.
   -  HD today (2L off)
   - Try to minimize fluids
   - Management of cardiac status as below
   2.  CV: underlying CAD/likely diastolic CHF
   - control BP with isordil/hydralazine
   - ASA, statin; titrate metoprolol as needed
   - PRBC x 1 unit today; will plan to transfuse again with next HD
   3.  VAP:  PsA, stenotrophomonas
   - complete meropenem today
   - Await sensitivities on stenotrophomonas; currently on ceftazadime.
   Consider bactrim desensitization.
   4.  VRE:  Cultures negative, TTE/TEE negative
   - complete daptomycin today
   5.  Yeast: urine, sputum
   - fluconazole D#[**2-9**] today.
   6.  Neuro:  slowly clearing mental status and rigidtity
   - no haldol, benzos; morphine as needed for pain
   7.  Renal:
   - will need tunneled line; await him being afebrile
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: heparin therapeutic
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication: ICU consent signed Comments: Family updated
   Code status: Full code
   Disposition : Critically ill, ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 1125**] [**Last Name (NamePattern1) 4719**] [**Name8 (MD) 802**], RN
   on:[**2102-12-26**] 13:51 ------

2102-12-27 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
   Discussed with wife sulfa allergy and she said that he gets a rash, but
   did not see it as they had not met yet when he had it.
   Stopped meropenem
   Restarted TFs
   Dialyzed
   Added imdur for possible flash/HTN
   Transfused 1 U PRBCs for slowly dropping Hct
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2102-12-26**] 02:34 AM
   Daptomycin - [**2102-12-26**] 01:59 PM
   Ceftazidime - [**2102-12-26**] 02:35 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2102-12-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 70 (68 - 77) bpm
   BP: 148/64(86) {124/59(75) - 168/75(93)} mmHg
   RR: 25 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.6 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,957 mL
                                                                    875 mL
   PO:
             TF:
                                                                    526 mL
                                                                    307 mL
   IVF:
                                                                    836 mL
                                                                    188 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,608 mL
                                                                     55 mL
   Urine:
                                                                    258 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 534 (520 - 726) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.59/32/163/31/9
   Ve: 16.4 L/min
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   296 K/uL
   7.0 g/dL
   116 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   39 mg/dL
   98 mEq/L
   138 mEq/L
   22.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
   WBC
   12.3
   13.5
   13.0
   14.1
   15.4
   11.3
   Hct
   22.3
   21.2
   21.9
   20.3
   22.0
   22.3
   Plt
   [**Telephone/Fax (3) 12311**]
   Cr
   4.5
   3.0
   4.5
   2.6
   3.8
   2.6
   TropT
   0.12
   0.14
   TCO2
   31
   32
   Glucose
   119
   131
   132
   117
   111
   116
   Other labs: PT / PTT / INR:13.9/81.8/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Microbiology: Blood cx [**2015-12-22**] NGTD
   Urine cx [**12-26**]: NGTD
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Likely stenotrophamonas which is not responding to standard
   antibiotics. WBC improving
   - Allergic to sulfa, will start Ceftazidime for stenotrophomonas, Sulfa
   allergy is a rash of uncertain severity. Will check stenotrophomonas
   sensis to ceftaz, if not sensitive, consider bactrim desensitization
   - will consider CT with contrast sinus to abdomen on today if not
   improving to look for other source
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - Given yeast in urine and sputum, will restart PO fluconazole for
   planned 5 day course
   # rigidity: Improving, likely resolving drug effect/serotonin syndrome
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Hypoxemic respiratory failure: Likely had flash pulmonary edema vs.
   mucous plug.
   - remove fluid w/ HD
   - start nitro, consider adding hydral if still hypertensive
   - continue trach mask as tolerated
   - treat stenotrophamonas
   - suction
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   - Try to minimize phlebotomy
   - Started Epo
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - hold on tunneled line as was febrile overnight.
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prosac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-26**] 10:51 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2102-12-27 10:41:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS, complicated ICU course including VAP (PsA and
   stenotrophomonas), VRE bacteremia, renal failure.
   24 Hour Events:
   Discussed history of sulfa allergy with wife and confirmed history of
   rash.
   Transfused PRBC x 1 with decreasing HCT.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2102-12-26**] 02:34 AM
   Daptomycin - [**2102-12-26**] 01:59 PM
   Ceftazidime - [**2102-12-26**] 02:35 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Protonix
   zocor
   ASA
   Tylenol q6h
   Combivent
   Amiodarone 200mg
   Fluconazole
   Isordil
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-27**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 71 (69 - 77) bpm
   BP: 149/67(85) {124/59(75) - 168/75(93)} mmHg
   RR: 23 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,957 mL
                                                                  1,245 mL
   PO:
             TF:
                                                                    526 mL
                                                                    415 mL
   IVF:
                                                                    836 mL
                                                                    289 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,608 mL
                                                                     70 mL
   Urine:
                                                                    258 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                  1,175 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 188 (188 - 726) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.59/32/163/31/9
   Ve: 14 L/min
   PaO2 / FiO2: 326
   Physical Examination
   Gen: awakens to voice
   Chest:  Clear
   CV:  IR
   Abd: s/nt/nd
   Ext: wrapped lower legs, minimal edema
   Labs / Radiology
   7.0 g/dL
   296 K/uL
   116 mg/dL
   2.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   39 mg/dL
   98 mEq/L
   138 mEq/L
   22.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2102-12-22**]  04:37 AM
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
   WBC
   12.3
   13.5
   13.0
   14.1
   15.4
   11.3
   Hct
   22.3
   21.2
   21.9
   20.3
   22.0
   22.3
   Plt
   [**Telephone/Fax (3) 12311**]
   Cr
   4.5
   3.0
   4.5
   2.6
   3.8
   2.6
   TropT
   0.12
   0.14
   TCO2
   31
   32
   Glucose
   119
   131
   132
   117
   111
   116
   Other labs: PT / PTT / INR:13.9/81.8/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Microbiology: Sputum: stenotrophomonas (awaiting sensitivities - will
   return today)
   Assessment and Plan
   67yoM with resolving ARDS, course complicated by VAP, VRE bacteremia,
   acute renal failure.
   1.  Chronic respiratory failure:  Suspect cardiac etiology with CHF
   with acute change yesterday.
   - Try to minimize fluids
   - Management of cardiac/volume status as below
   - Trial of trach mask for 2-4 hours
   2.  CV: underlying CAD/likely diastolic CHF
   - Will add hydralazine for afterload reduction (avoiding ace-inhibitor
   in setting of recent kidney injury and hope for recovery)
   - ASA, statin; titrate metoprolol as needed
   - Transfuse PRBC x 2 units
   3.  VAP:  PsA, stenotrophomonas; s/p meropenem
   - Await sensitivities on stenotrophomonas; currently on ceftazadime.
   Consider bactrim desensitization.
   4.  VRE:  Cultures negative, TTE/TEE negative; completed daptomycin
   5.  Yeast: urine, sputum
   - fluconazole D#[**3-9**] today.
   6.  Neuro:  slowly clearing mental status and rigidtity
   - no haldol, benzos; morphine as needed for pain
   7.  Renal:
   - will need tunneled line; await him being afebrile
   - discuss with renal regarding HD for 2-3 days to assist with volume
   management.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2102-12-26**] 10:51 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: Family updated daily
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, improvement of respiratory status with hemodialysis.  Fevers
   improved but still low-grade.  Mental status wax/[**Doctor Last Name 533**].
   Tm 38.1  Tc 37.3  P 71  BP 149/67  RR 23
   Slightly tachyapneic
   Poorly responsive
   Crackles bilat
   S1 S2 reg
   Abd: soft NT ND
   Assessment:
   1)       Acute Respiratory Failure
   2)       VAP
 stenotrophomonas
   3)       Renal Failure
   4)       Anemia
   5)       Deconditioning
   Plan:
   1)       Hemodialysis again today as still overloaded
   2)       Physical Therapy Consult
   3)       ID for help with how to approach Stenotrophomonas given his
   Bactrim allergy and now intermediate resistance to ceftaz
   4)       PRBC transfusion
 recheck hemoglobin
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2102-12-27**] 06:50 PM ------

2102-12-28 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated TM all day until 11pm, then inc. RR, hypertensive,
   tachycardic. Back on PS with improvement.
   Stenotrophomonas intermediate to ceftaz, gave one time test dose of
   Bactrim and will watch what happens. If ok, dose should be 2.5 tabs DS
   daily.
   Started hydral
   Transfused 2 units PRBCs
   Much more responsive today.
   Given alteree MS [**First Name (Titles) **] [**Last Name (Titles) 12324**], ? niacin deficiency ([**Doctor Last Name 12325**] idea),
   got niacin level for am labs and started on niacin and thiamine.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2102-12-26**] 02:34 AM
   Daptomycin - [**2102-12-26**] 01:59 PM
   Ceftazidime - [**2102-12-26**] 02:35 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-28**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 103 (67 - 110) bpm
   BP: 161/90(109) {127/56(73) - 170/90(109)} mmHg
   RR: 34 (18 - 37) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  3,315 mL
                                                                    795 mL
   PO:
             TF:
                                                                    960 mL
                                                                    295 mL
   IVF:
                                                                    575 mL
                                                                    180 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    280 mL
                                                                    100 mL
   Urine:
                                                                    280 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,035 mL
                                                                    695 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (0 - 668) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: ///23/
   Ve: 17.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, But does not follow commands or answer questions
   Labs / Radiology
   283 K/uL
   8.8 g/dL
   161 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   72 mg/dL
   104 mEq/L
   144 mEq/L
   26.6 %
   12.9 K/uL
        [image002.jpg]
                            [**2102-12-23**]  06:00 AM
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
   WBC
   13.5
   13.0
   14.1
   15.4
   11.3
   12.9
   Hct
   21.2
   21.9
   20.3
   22.0
   22.3
   26.6
   Plt
   298
   340
   304
   272
   296
   283
   Cr
   3.0
   4.5
   2.6
   3.8
   2.6
   3.8
   TropT
   0.12
   0.14
   TCO2
   31
   32
   Glucose
   131
   132
   117
   111
   116
   161
   Other labs: PT / PTT / INR:13.0/68.7/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Febrile again yesterday but WBC remains stable. Likely
   stenotrophamonas which is not responding to standard antibiotics.
   Patient tolerated bactrim test dose. ID was curbsided and felt that
   betalactams and fluoroquinolones would be less efficacious. WBC
   improving
   - Start bactrim 2.5 tabs DS for 7 days to cover Stenotrohpomonas
   - LP today  to ruled out central source of fevers
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole started12/21 for planned 5 day course to cover yeast
   # Hypoxemic respiratory failure: Worsening oxygenation in the setting
   of fluid accumulation after 2 units of blood yesterday and minimal
   uop.. Likely had flash pulmonary edema vs. mucous plug.
   - HD today
   - Hydral for afterload reduction
   - hold off on TM until dialysis can remove fluid today
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Rigidity: Improving, likely resolving drug effect/serotonin syndrome,
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC yesterday. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-27**] 10:43 AM 40 mL/hour
   Glycemic Control :  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree with
   the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had another episode of respiratory distress and placed back
   on the ventilator.  Currently receiving dialysis.  Continues low grade
   fevers and Stenotrophomonas is resistant somewhat to Ceftaz.
   T 38.3  P 80  BP 130/80  RR 22  Sat: 97% - currently on mechanical
   ventilation
   Poorly responsive
   Rales
   S1 S2 reg
   Abd: soft NTND
   Neuro: tracks but poorly responsive, cogwheel rigidity
   Assessment:
   1) Fevers/Pneumonia -stenotrophomonas growing from sputum and is
   resistant...treat as below
   2) Acute on Chronic Respiratory Failure
   3) Acute Renal Failure
   4) Afib - on coumadin
   5) CAD
   6) Anemia
   Plan:
   1) Recognizing a distant allergy with Bactrim (reportedly mild rash)
   and in discussion with ID, will go ahead and start Bactrim because no
   other good options for stenotrophomonas
   2) Will perform LP
   3) Dialysis - will likely need serial dialysis for next couple days
   4) Wean to trach shield as tolerated
 dialysis should help
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2102-12-28**] 04:13 PM ------

2102-12-29 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2102-12-28**] 04:00 PM
 EKG - At [**2102-12-29**] 01:00 AM
   Started on bactrim after curbside w/ ID
   Pressures undercrontrol w/ hydral
   Has had tachy-brady, with HRs in 100s w/ ABPs, then sinus brady in 40s
   asx
   LP performed w/ no e/o bacterial pneumonia
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-26**] 01:59 PM
   Ceftazidime - [**2102-12-26**] 02:35 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-12-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.6
C (97.8
   HR: 100 (71 - 115) bpm
   BP: 121/66(79) {96/50(61) - 147/75(89)} mmHg
   RR: 27 (9 - 46) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,413 mL
                                                                    780 mL
   PO:
             TF:
                                                                    469 mL
                                                                    283 mL
   IVF:
                                                                    444 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                     35 mL
   Urine:
                                                                    180 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,767 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 527 (516 - 607) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 14.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, But does not follow commands or answer questions
   Labs / Radiology
   290 K/uL
   8.3 g/dL
   93 mg/dL
   3.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   47 mg/dL
   98 mEq/L
   141 mEq/L
   25.8 %
   10.4 K/uL
        [image002.jpg]
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
   WBC
   13.0
   14.1
   15.4
   11.3
   12.9
   10.4
   Hct
   21.9
   20.3
   22.0
   22.3
   26.6
   25.8
   Plt
   [**Telephone/Fax (3) **]96
   283
   290
   Cr
   4.5
   2.6
   3.8
   2.6
   3.8
   3.3
   TropT
   0.12
   0.14
   TCO2
   31
   32
   Glucose
   132
   117
   111
   116
   161
   93
   Other labs: PT / PTT / INR:13.7/51.9/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Febrile again yesterday but WBC remains stable. Likely
   stenotrophamonas which is not responding to standard antibiotics.
   Patient tolerated bactrim test dose. ID was curbsided and felt that
   betalactams and fluoroquinolones would be less efficacious. WBC
   improving
   - Start bactrim 2.5 tabs DS for 7 days to cover Stenotrohpomonas
   - LP today  to ruled out central source of fevers
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole started12/21 for planned 5 day course to cover yeast
   # Hypoxemic respiratory failure: Worsening oxygenation in the setting
   of fluid accumulation after 2 units of blood yesterday and minimal
   uop.. Likely had flash pulmonary edema vs. mucous plug.
   - HD today
   - Hydral for afterload reduction
   - hold off on TM until dialysis can remove fluid today
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Rigidity: Improving, likely resolving drug effect/serotonin syndrome,
   - Stopped Prozac and buproprion
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro
   recs
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC yesterday. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Afib: Currently in rate controlled flutter, holding digoxin. Consider
   restarting if more flutter
   - heparin gtt; holding coumadin for tunnelled line
   - Amiodarone and metoprolol
   # Depression: ? serotonin syndrome
   - Holding buproprion and prozac
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-28**] 11:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-27**] 10:43 AM 40 mL/hour
   Glycemic Control :  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2102-12-29 08:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67M with ARDS, complicated ICU course including VAP (PsA and
   stenotrophomonas), VRE bacteremia, renal failure.
   24 Hour Events:
   1. HD yesterday am: 4L off
   2. LP done, no WBCs
   3. Tachy, then brady, metoprolol held, then restarted
   4. Back on PS yesterday evening
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2102-12-26**] 01:59 PM
   Ceftazidime - [**2102-12-26**] 02:35 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-12-29**] 04:00 AM
   Other medications:
   Heparin IV
   Omeprazole
   Chlorhexidine
   Qvar
   Simvastatin
   Amiodarone PO
   Colace
   Metoprolol 75 TID
   Combivent nebs
   Bactrim
   Fluconazole 200 daily
   Imdur TID
   Hydral 20 Q6
   Niacin
   Thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2102-12-29**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.6
C (97.8
   HR: 108 (71 - 115) bpm
   BP: 122/67(80) {96/50(61) - 147/75(89)} mmHg
   RR: 27 (9 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,413 mL
                                                                    846 mL
   PO:
             TF:
                                                                    469 mL
                                                                    323 mL
   IVF:
                                                                    444 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                     35 mL
   Urine:
                                                                    180 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,767 mL
                                                                    811 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 527 (516 - 607) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 14.4 L/min
   Physical Examination
   Gen: intubated, opens eyes and shakes head
 to some questions
   Chest: rales at B bases
   CV: rrr, no m/r/g
   Abd: soft, rounding up with breathing
   Extr: warm, no edema
   Neuro: tracks, answers some ?s, squeezes L hand to command
   Labs / Radiology
   8.3 g/dL
   290 K/uL
   93 mg/dL
   3.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   47 mg/dL
   98 mEq/L
   141 mEq/L
   25.8 %
   10.4 K/uL
        [image002.jpg]
                            [**2102-12-24**]  01:25 AM
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
   WBC
   13.0
   14.1
   15.4
   11.3
   12.9
   10.4
   Hct
   21.9
   20.3
   22.0
   22.3
   26.6
   25.8
   Plt
   [**Telephone/Fax (3) **]96
   283
   290
   Cr
   4.5
   2.6
   3.8
   2.6
   3.8
   3.3
   TropT
   0.12
   0.14
   TCO2
   31
   32
   Glucose
   132
   117
   111
   116
   161
   93
   Other labs: PT / PTT / INR:13.7/51.9/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.1
   mg/dL
   Niacin level pending
   LP: WBCs 0, RBCs 0, glucose 78, protein 59
   CSF GS with no bugs, CXs pending, CrAg neg
   Studies:
   CXR [**12-29**]:
   FINDINGS: As compared to the previous radiograph, there is little
   overall
   change. Status post CABG, the tracheostomy tube and the double-lumen
   left-sided central venous access line are in unchanged position.
   Unchanged
   bilateral reticular nodular opacities of constant extent and severity.
   Moderate cardiomegaly, no signs of overt overhydration. No pulmonary
   opacities have newly occurred in the interval.
   Assessment and Plan
   67yoM with resolving ARDS, course complicated by VAP, VRE bacteremia,
   acute renal failure.
   1.  Chronic respiratory failure:  improved s/p HD yesterday with 4L
   removed.
   - Try to minimize fluids
   - Next HD tomorrow
   - Trial of trach mask again today
   2.  CV: underlying CAD/likely diastolic CHF. Brady overnight, now
   improved.
   - ASA, statin
   - isordil, hydral
   - decrease BBL to 50 Q8
   3.  VAP:  PsA, stenotrophomonas; s/p meropenem for PSA, continued
   growth now likely [**2-6**] colonization
   - started bactrim yesterday after d/w ID
   4.  VRE:  Cultures negative, TTE/TEE negative; completed daptomycin
   5.  Yeast: urine, sputum
   - fluconazole D#[**4-9**] today
   6. Fevers: low grade now, LP yesterday neg
   - abx as above
   7.  Neuro:  slowly clearing mental status and rigidtity
   - no haldol, benzos
   - morphine as needed for pain
   8.  Renal:  next HD tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-28**] 11:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: heparin IV for AF
   Stress ulcer: PPI
   VAP: HOB elevation, mouth care,  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min CCT

2102-12-30 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp. failure
   24 Hour Events:
   -- Reduced Metoprolol from 75 mg to 50 mg for possible tachy/brady in
   last 24 hours
   -- Tolerated TM in PM
   -- Afebrile
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsSulfa (Sulfonamide
   Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2102-12-29**] 08:05 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-29**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-30**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 76 (66 - 85) bpm
   BP: 144/60(82) {100/46(62) - 153/97(109)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,311 mL
                                                                    488 mL
   PO:
             TF:
                                                                    960 mL
                                                                    289 mL
   IVF:
                                                                    641 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                    503 mL
                                                                     70 mL
   Urine:
                                                                    103 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 613 (613 - 777) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 18.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   294 K/uL
   8.0 g/dL
   118 mg/dL
   4.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   82 mg/dL
   98 mEq/L
   139 mEq/L
   24.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
   WBC
   13.0
   14.1
   15.4
   11.3
   12.9
   10.4
   11.2
   Hct
   21.9
   20.3
   22.0
   22.3
   26.6
   25.8
   24.9
   Plt
   [**Telephone/Fax (3) **]96
   283
   290
   294
   Cr
   4.5
   2.6
   3.8
   2.6
   3.8
   3.3
   4.6
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   132
   117
   111
   116
   161
   93
   118
   Other labs: PT / PTT / INR:13.0/76.1/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.1
   mg/dL
   Microbiology: [**2102-12-28**] 3:11 pm CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2102-12-28**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
   [**2102-12-28**] 3:11 pm CSF;SPINAL FLUID      Source: LP #2.
                               **FINAL REPORT [**2102-12-28**]**
      CRYPTOCOCCAL ANTIGEN (Final [**2102-12-28**]):
         CRYPTOCOCCAL ANTIGEN NOT DETECTED.
              (Reference Range-Negative).
         Performed by latex agglutination.
         Results should be evaluated in light of culture results and
   clinical
         presentation.
   HSV/mycoplasma PCR: Pending
   Bld cx [**12-26**]" NGTD
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers: Relatively afebrile x 24 hours. No clear etiology. CSF benign
   appearing. Possibly related to stenotrophamonas which is now
   responding.. Patient tolerated bactrim test dose. ID was curbsided and
   felt that betalactams and fluoroquinolones would be less efficacious.
   WBC improving
   - Continue  bactrim 2.5 tabs DS day [**3-11**] fpr Stenotrohpomonas
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole started12/21 for planned 5 day course to cover yeast ,
   d/c today
   # Hypoxemic respiratory failure: Respiratory status improved after HD
   removal of 4 Kg yesterday.
   - HD today
   - TM as tolerated
   - Hydral for afterload reduction
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Afib: Tachy brady noted yesterday from 40s to 120s after missing one
   dose. Rate controlled again this morning. Currenlty holding digoxin.
   - heparin gtt; holding coumadin for tunnelled line
   - Reduced metoprolol to 50 mg Q8 in case first degree AV block is
   precipitating tachycardia
   - Amiodarone and metoprolol
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC 2 days ago. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Depression: ? serotonin syndrome but never had elevated CK. Rigidity
   improved. Prozac and bupropion have been on hold.
   - Holding buproprion and prozac
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro recs
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-29**] 10:59 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2102-12-30 08:02:00 Physician Attending Progress Note
Chief Complaint: ARDS, ARF, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 67M with ARDS, complicated ICU course including VAP (PsA and
   stenotrophomonas), VRE bacteremia, renal failure.
   24 Hour Events:
   Tolerated TM all day yesterday
   Low-grade temps
   Beta blocker dose decreased, no recurrent bradycardia
   Getting HD this AM
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2102-12-29**] 08:05 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-29**] 08:25 AM
   Other medications:
   ASA
   Simvastatin
   Lactic acid lotion
   Tylenol 650 Q6 RTC
   Albuterol/Ipratropium Q6
   Amiodarone 200 daily
   Fluconazole 200 daily
   Isordil TID
   Hydral
   Niacin
   Thiamine
   Bactrim 2.5 tab Q24
   Metoprolol 50 mg TID
   Chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-30**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 76 (66 - 85) bpm
   BP: 144/60(82) {100/46(62) - 153/97(109)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,311 mL
                                                                    542 mL
   PO:
             TF:
                                                                    960 mL
                                                                    321 mL
   IVF:
                                                                    641 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                    503 mL
                                                                     70 mL
   Urine:
                                                                    103 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 613 (613 - 613) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 18.9 L/min
   Physical Examination
   Gen: awake, tracks and shakes head/nods to ?s
   Chest: scattered rales and few exp wheezes anteriorly
   CV: regular this am, no murmurs
   Abd: still tensing/rounding up with respirations, no TTP
   Extr: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 12358**], no edema
   Labs / Radiology
   8.0 g/dL
   294 K/uL
   118 mg/dL
   4.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   82 mg/dL
   98 mEq/L
   139 mEq/L
   24.9 %
   11.2 K/uL
        [image002.jpg]
                            [**2102-12-24**]  04:51 AM
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
   WBC
   13.0
   14.1
   15.4
   11.3
   12.9
   10.4
   11.2
   Hct
   21.9
   20.3
   22.0
   22.3
   26.6
   25.8
   24.9
   Plt
   [**Telephone/Fax (3) **]96
   283
   290
   294
   Cr
   4.5
   2.6
   3.8
   2.6
   3.8
   3.3
   4.6
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   132
   117
   111
   116
   161
   93
   118
   Other labs: PT / PTT / INR:13.0/76.1/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.1
   mg/dL
   Micro: no new positive cultures, CSF still neg
   CXR: no new today, yest read as overall unchanged from prior
   Assessment and Plan
   67yoM with resolving ARDS, course complicated by VAP, VRE bacteremia,
   acute renal failure.
   1.  Chronic respiratory failure:  improved s/p HD with 4L removed on
   Thursday.  Tolerating TM since yesterday.
   - HD again today, goal
 1.5 L
   - continue TM
   2.  CV: underlying CAD/likely diastolic CHF. Brady overnight, now
   improved with lower dose BBL
   - ASA, statin
   - isordil, hydral
   - continue metoprolol 50 Q8
   3.  VAP:  PsA, stenotrophomonas; s/p meropenem for PSA, continued
   growth now likely [**2-6**] colonization
   - started bactrim [**12-27**] after d/w ID
   4.  VRE:  Cultures negative, TTE/TEE negative; completed daptomycin
   5.  Yeast: urine, sputum
   - fluconazole D#[**5-9**] today, d/c p HD
   6. Fevers: low grade now, LP negative.  Only known source is
   stenotrophomonas as above.
   - abx as above
   7.  Neuro:  slowly clearing mental status and rigidtity
   - no haldol, benzos
   - morphine as needed for pain
   8.  Renal:  HD today
   - will consider placing permanent line as hasn
t had a temp over 100F
   in 24 hours
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-29**] 10:59 PM 40 mL/hour
   Glycemic Control:  no insulin requirements, FSG in range
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   VAP: chlorhexidine, HOB up, mouth care
   Communication:  will update family
   Code status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT

2102-12-31 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp. failure
   24 Hour Events:
   Tolerated TM all day and night
   Was afebrile in am, ordered HD line but likely won't be done until
   monday. Then low grade (100.3) in the evening.
   D/C'd fluconazole as he's done with 5 day course.
   Dialyzed, removed 1.5L.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsSulfa (Sulfonamide
   Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2102-12-29**] 08:05 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-12-30**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2102-12-31**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 107 (70 - 107) bpm
   BP: 138/83(96) {112/52(67) - 154/104(109)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,996 mL
                                                                    806 mL
   PO:
             TF:
                                                                    960 mL
                                                                    315 mL
   IVF:
                                                                    681 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    191 mL
                                                                     25 mL
   Urine:
                                                                    191 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,805 mL
                                                                    781 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   311 K/uL
   7.9 g/dL
   113 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.4 mEq/L
   48 mg/dL
   99 mEq/L
   141 mEq/L
   24.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
   WBC
   14.1
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   Hct
   20.3
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   Plt
   [**Telephone/Fax (3) 12372**]
   311
   Cr
   2.6
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   117
   111
   116
   161
   93
   118
   113
   Other labs: PT / PTT / INR:13.3/92.3/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Microbiology: [**2102-12-28**] 3:11 pm CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2102-12-28**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      VIRAL CULTURE (Preliminary):
   Blood Cx [**12-26**]: NGTD
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers:. No clear etiology. CSF benign appearing. Possibly related to
   stenotrophamonas which is now responding.. Patient tolerated bactrim
   test dose. ID was curbsided and felt that betalactams and
   fluoroquinolones would be less efficacious. WBC improving. Could still
   be resolving serotonin syndrome.
   - Continue  bactrim 2.5 tabs DS day [**4-11**] fpr Stenotrohpomonas
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole started12/21 to [**12-30**]
   -Recheck pan cultures today
   - Check ESR/CRP, if markedly elevated consider back MRI for osteo given
   some back pain
   - Check TSH and AM cortisol
   # Hypoxemic respiratory failure: Respiratory status improved after HD
   removal of 1.5 Kg yesterday.
   - HD tomorrow
   - TM as tolerated
   - Hydral for afterload reduction
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Afib: Tachy brady noted yesterday from 40s to 120s after missing one
   dose. Rate controlled again this morning. Currenlty holding digoxin.
   - heparin gtt; holding coumadin for tunnelled line
   - Reduced metoprolol to 50 mg Q8 in case first degree AV block is
   precipitating tachycardia
   - Amiodarone and metoprolol
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC 2 days ago. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Depression: ? serotonin syndrome but never had elevated CK. Rigidity
   improved. Prozac and bupropion have been on hold.
   - Holding buproprion and prozac
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro recs
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-30**] 10:53 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2102-12-31 11:24:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Another low grade temperature.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2102-12-29**] 08:05 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Other medications:
   metoprolol, bactrim, thiamine, hydralazine, antifungal cream,
   amiodarone, kuvar, tylenol q6, heparin iv, dulcolax, asa, protonix.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-12-31**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 69 (69 - 107) bpm
   BP: 138/62(79) {112/52(67) - 149/104(109)} mmHg
   RR: 32 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,996 mL
                                                                    984 mL
   PO:
             TF:
                                                                    960 mL
                                                                    439 mL
   IVF:
                                                                    681 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    191 mL
                                                                     25 mL
   Urine:
                                                                    191 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,805 mL
                                                                    959 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral bases )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Increased
   Labs / Radiology
   7.9 g/dL
   311 K/uL
   113 mg/dL
   3.1 mg/dL
   27 mEq/L
   4.4 mEq/L
   48 mg/dL
   99 mEq/L
   141 mEq/L
   24.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2102-12-25**]  05:00 AM
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
   WBC
   14.1
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   Hct
   20.3
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   Plt
   [**Telephone/Fax (3) 12372**]
   311
   Cr
   2.6
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   117
   111
   116
   161
   93
   118
   113
   Other labs: PT / PTT / INR:13.3/92.3/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1
   mg/dL
   Microbiology: stenotrophonas.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM): improved
 H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN): ?
   serotonin syndrome.
   check ESR, CRP, check TSH, cortisol stim test, consider MRI if ESR/CRP
   is elevated as he has some tenderness in the lower thoracic spine ro
   r/o osteo. Send repeat blood cultures. Continue bactrim for
   stenotrohpomonas.
 DELIRIUM / CONFUSION: improving.
 ATRIAL FLUTTER (AFLUTTER): continue iv heparin, d/c amiodarone,
   titrate up metoprolol.
 IMPAIRED SKIN INTEGRITY: stage II decub, continue wound care.
 ALTERATION IN NUTRITION: continue tube feeds.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): pasimir valve trial in am,
   and downsize trach if he doesnot tolerate.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): no signs of renal
   recovery yet. plans for HD line when fevers resolve.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-12-30**] 10:53 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I agree with the note as outlined
   above, including assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2102-12-31**] 14:14 ------

2103-01-01 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-12-31**] 08:00 AM
 BLOOD CULTURED - At [**2102-12-31**] 12:38 PM
 SPUTUM CULTURE - At [**2102-12-31**] 12:38 PM
   -- checked am cortisol as source of fever, not c/w adrena
   insufficiency.
   -- ESR/CRP boarderline elevated
   -- TSH WNL
   -- Pts w/ increasing sputum production, bloody for the first time
   overnight in setting of supratherapeutic PTT.  Being stopped for line
   placement.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2102-12-29**] 08:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient denies pain, sob
   Flowsheet Data as of  [**2103-1-1**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 83 (62 - 102) bpm
   BP: 151/67(86) {129/56(78) - 159/97(105)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,319 mL
                                                                    333 mL
   PO:
             TF:
                                                                    960 mL
                                                                    107 mL
   IVF:
                                                                    659 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    335 mL
   Urine:
                                                                     95 mL
                                                                    135 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,724 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97% on 50% FiO2
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to commands
   Labs / Radiology
   389 K/uL
   7.7 g/dL
   101 mg/dL
   4.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   76 mg/dL
   94 mEq/L
   134 mEq/L
   24.6 %
   10.4 K/uL
        [image002.jpg]
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
                            [**2103-1-1**]  02:56 AM
   WBC
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   10.4
   Hct
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   24.6
   Plt
   272
   296
   283
   290
   294
   311
   389
   Cr
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   4.6
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   111
   116
   161
   93
   118
   113
   101
   Other labs: PT / PTT / INR:13.4/119.8/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Cortisol 32.1
   TSH 3.2
   CRP 52
   ESR 30
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DELIRIUM / CONFUSION
 ATRIAL FLUTTER (AFLUTTER)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers:. No clear etiology. CSF benign appearing. TSH normal.
   Cortisol elevated, making hypoadrenalism unlikely.  Possibly related to
   stenotrophamonas which is now responding to Bactrim. Patient tolerated
   bactrim test dose. ID was curbsided and felt that betalactams and
   fluoroquinolones would be less efficacious. WBC improving. Could still
   be resolving serotonin syndrome.
   - Continue  bactrim 2.5 tabs DS day [**5-19**] fpr Stenotrohpomonas
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole completed [**12-25**] to [**12-30**] for urine yeast
   - Check ESR/CRP, if markedly elevated consider back MRI for osteo given
   some back pain
   - Check TSH and AM cortisol
   # Hypoxemic respiratory failure: Tolerating trach mask well.
   - HD line today and HD to follow after that
   - TM as tolerated
   - Hydral for afterload reduction
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Afib: HR well controlled on reduced metoprolol dose. Currenlty
   holding digoxin.
   - heparin gtt; holding coumadin for tunnelled line
   - Reduced metoprolol to 50 mg Q8 in case first degree AV block is
   precipitating tachycardia
   - Amiodarone and metoprolol
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC 2 days ago. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Depression: ? serotonin syndrome but never had elevated CK. Rigidity
   improved. Prozac and bupropion have been on hold.
   - Holding buproprion and prozac
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   VAP:  pulmomary toilet, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2103-01-01 10:32:00 Physician Attending Progress Note
Chief Complaint: 67 yo man with history of HFpEF, COPD, atrial
   fibrillation on coumadin, CAD sp CABG, initially admitted [**2102-11-28**]
   after H1N1 with respiratory failure
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-12-31**] 08:00 AM
 BLOOD CULTURED - At [**2102-12-31**] 12:38 PM
 SPUTUM CULTURE - At [**2102-12-31**] 12:38 PM
bloody sputum in setting of being on heparin drip, improved with
   stopping heparin
   TCM for the past several days.
   Afebrile over past 24 hours.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-1-1**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 83 (62 - 102) bpm
   BP: 158/85(100) {129/56(78) - 159/97(105)} mmHg
   RR: 28 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  2,319 mL
                                                                    452 mL
   PO:
             TF:
                                                                    960 mL
                                                                    107 mL
   IVF:
                                                                    659 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    415 mL
   Urine:
                                                                     95 mL
                                                                    215 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,724 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   389 K/uL
   101 mg/dL
   4.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   76 mg/dL
   94 mEq/L
   134 mEq/L
   24.6 %
   10.4 K/uL
        [image002.jpg]
                            [**2102-12-25**]  08:17 PM
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
                            [**2103-1-1**]  02:56 AM
   WBC
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   10.4
   Hct
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   24.6
   Plt
   272
   296
   283
   290
   294
   311
   389
   Cr
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   4.6
   TropT
   0.12
   0.14
   TCO2
   32
   Glucose
   111
   116
   161
   93
   118
   113
   101
   Other labs: PT / PTT / INR:13.4/119.8/1.1, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
 ANEMIA, CHRONIC
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -sputum with stenotrophomonas [**2102-12-21**], started bactrim for
   stenotrophomonas for total 14 day course
 DELIRIUM / CONFUSION
   -improving
 ATRIAL FLUTTER (AFLUTTER)
   -plan to resume heparin drip to coumadin after placement
   -on amiodarone and metoprolol for rate control
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -has been on TCM 50%, off ventilator
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -receiving HD every other day
   -getting tunneled line today
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -resolved
 Possible serotonin syndrome
   -off of all possibly contributing medications
   -no longer rigid
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: on heparin drip
   Stress ulcer: PPI
   VAP: not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU today for pulm toliet and hemo monitoring
   Total time spent: 35 min

2103-01-02 07:07:00 Physician Attending Progress Note
Chief Complaint: 67 yo man with history of HFpEF, COPD, atrial
   fibrillation on coumadin, CAD sp CABG, initially admitted [**2102-11-28**]
   after H1N1 infection with respiratory failure and ARDS.
   HPI:
   24 Hour Events:
   -Tunneled HD catheter placed
   -HD yesterday with 1.5L off
   -started on coumadin
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Bactrim
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Pantoprazole
   ASA 325mg daily
   Simvastatin
   Tylenol standing
   Qvar [**Hospital1 7**]
   Combivent
   Isosorbide TID
   Hydralazine QID
   Metoprolol 75mg TID
   Coumadin 3mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-1-2**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 74 (53 - 107) bpm
   BP: 111/57(67) {99/53(67) - 158/85(100)} mmHg
   RR: 27 (19 - 36) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,321 mL
                                                                    625 mL
   PO:
             TF:
                                                                    427 mL
                                                                    277 mL
   IVF:
                                                                    433 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    481 mL
                                                                     50 mL
   Urine:
                                                                    273 mL
                                                                     45 mL
   NG:
                                                                      8 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   331 K/uL
   120 mg/dL
   3.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   40 mg/dL
   97 mEq/L
   137 mEq/L
   23.1 %
   10.4 K/uL
        [image002.jpg] Urine culture [**12-31**] with 7000 yeast
   [**1-1**] Dialysis catheter pending, blood 12/27 NGTD, sputum [**12-31**]: oral
   flora
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
                            [**2103-1-1**]  02:56 AM
                            [**2103-1-2**]  03:40 AM
   WBC
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   10.4
   10.4
   Hct
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   24.6
   23.1
   Plt
   272
   296
   283
   290
   294
   311
   389
   331
   Cr
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   4.6
   3.0
   TropT
   0.14
   TCO2
   32
   Glucose
   111
   116
   161
   93
   118
   113
   101
   120
   Other labs: PT / PTT / INR:14.2/74.4/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -sputum with stenotrophomonas [**2102-12-21**], started bactrim for total 15
   day course
   - patient has had persistent fevers of unclear etiology, CT C/A/P with
   persistent multifocal opacities [**2102-12-15**]
   - PICC line in since [**2102-12-20**].  Given persistent fevers will have to
   remove today after peripheral IV placed
 DELIRIUM / CONFUSION
   -improving although continues to have a waxing and [**Doctor Last Name 533**] mental status
 ATRIAL FLUTTER (AFLUTTER)
   -no hard indication for heparin drip.  If access is an issue can start
   coumadin without a heparin drip
   -on amiodarone and metoprolol for rate control
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -has been on TCM 40%, off ventilator
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -receiving HD every other day
   -tunneled HD line placed [**2103-1-1**]
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -resolved
 Possible serotonin syndrome
   -off of all possibly contributing medications
   -no longer rigid
   ICU Care
   Nutrition: TF as per nutrition
   Glycemic Control:  RISS
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM: will remove today after placing
   peripheral IV
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: switch pantoprazole to enteral
   VAP: not on ventilator
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Plan to go to [**Hospital1 **] for rehab today
   Total time spent:

2103-01-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Got Tunneled HD Line!
   -- 1.5 kg off on HD
   -- Started coumadin 3 mg daily
   -- Goal to d/c to LTAC tommorow. D/c summary and paperwork done.
   -- Changed Bactrim course from 7 days to 15 days per Dr.[**Name (NI) 12402**] advice
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-1-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 74 (53 - 107) bpm
   BP: 111/57(67) {99/53(67) - 158/85(100)} mmHg
   RR: 27 (19 - 36) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 85.3 kg (admission): 80 kg
   Height: 67 Inch
             Total In:
                                                                  1,321 mL
                                                                    635 mL
   PO:
             TF:
                                                                    427 mL
                                                                    277 mL
   IVF:
                                                                    433 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    481 mL
                                                                     50 mL
   Urine:
                                                                    273 mL
                                                                     45 mL
   NG:
                                                                      8 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    585 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   331 K/uL
   7.5 g/dL
   120 mg/dL
   3.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   40 mg/dL
   97 mEq/L
   137 mEq/L
   23.1 %
   10.4 K/uL
        [image002.jpg]
                            [**2102-12-26**]  04:26 AM
                            [**2102-12-26**]  06:22 AM
                            [**2102-12-26**]  01:37 PM
                            [**2102-12-27**]  03:04 AM
                            [**2102-12-28**]  02:47 AM
                            [**2102-12-29**]  03:06 AM
                            [**2102-12-30**]  03:08 AM
                            [**2102-12-31**]  04:02 AM
                            [**2103-1-1**]  02:56 AM
                            [**2103-1-2**]  03:40 AM
   WBC
   15.4
   11.3
   12.9
   10.4
   11.2
   9.3
   10.4
   10.4
   Hct
   22.0
   22.3
   26.6
   25.8
   24.9
   24.9
   24.6
   23.1
   Plt
   272
   296
   283
   290
   294
   311
   389
   331
   Cr
   3.8
   2.6
   3.8
   3.3
   4.6
   3.1
   4.6
   3.0
   TropT
   0.14
   TCO2
   32
   Glucose
   111
   116
   161
   93
   118
   113
   101
   120
   Other labs: PT / PTT / INR:14.2/74.4/1.2, CK / CKMB /
   Troponin-T:17/3/0.14, ALT / AST:17/26, Alk Phos / T Bili:139/0.5,
   Amylase / Lipase:/52, Differential-Neuts:71.0 %, Band:5.0 %, Lymph:12.0
   %, Mono:4.0 %, Eos:4.0 %, Fibrinogen:951 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Microbiology: [**2103-1-1**] 10:55 am CATHETER TIP-IV
         Source: temp dialysis cath left.
      WOUND CULTURE (Pending):
      URINE CULTURE (Final [**2103-1-1**]):
         YEAST.    ~7000/ML.
   SPUTUM
      GRAM STAIN (Final [**2102-12-31**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   CSF [**2102-12-28**]: No polys, no organisms
   Assessment and Plan
   67 yo M with history of dCHF, COPD, Afib, CAD s/p CABG presents with
   hypoxemic respiratory failure, septic shock and ARF now  w/ fevers,
   rigidity, hyperreflexia.
   # Fevers:. No clear etiology. CSF benign appearing. TSH normal.
   Cortisol elevated, making hypoadrenalism unlikely.  Possibly related to
   stenotrophamonas which is now responding to Bactrim. Patient tolerated
   bactrim test dose. ID was curbsided and felt that betalactams and
   fluoroquinolones would be less efficacious. WBC improving. Could still
   be resolving serotonin syndrome.
   - Continue  bactrim 2.5 tabs DS day [**5-19**] fpr Stenotrohpomonas
   - follow sputum culture, blood, urine, HD line cultures
   - Antibiotics: finished dapto for VRE course [**12-26**], finished [**Last Name (un) 614**] for
   VAP [**12-26**]
   - fluconazole completed [**12-25**] to [**12-30**] for urine yeast
   - Check ESR/CRP, if markedly elevated consider back MRI for osteo given
   some back pain
   - Check TSH and AM cortisol
   # Hypoxemic respiratory failure: Tolerating trach mask well.
   - HD line today and HD to follow after that
   - TM as tolerated
   - Hydral for afterload reduction
   - treat stenotrophamonas as above
   - continue excellent pulmonary toilet
   # Afib: HR well controlled on reduced metoprolol dose. Currenlty
   holding digoxin.
   - heparin gtt; holding coumadin for tunnelled line
   - Reduced metoprolol to 50 mg Q8 in case first degree AV block is
   precipitating tachycardia
   - Amiodarone and metoprolol
   # Coronary artery disease:  enzymes baseline after flash.
   - ASA, statin
   - cath once out of ICU to define anatomy
   # Anemia: BM suppresion likely [**2-6**] critical illness/ renal failure.
   Received 2 U PRBC 2 days ago. Hct improved only 4%. .
   - Try to minimize phlebotomy
   - Continue EPO with HD
   # Acute renal failure: UOP increased for one day but then dropped off,
   does not appear that he will regain renal function
   - continue HD, plan for tunnelled line when afebrile
   - appreciate renal recs
   # Depression: ? serotonin syndrome but never had elevated CK. Rigidity
   improved. Prozac and bupropion have been on hold.
   - Holding buproprion and prozac
   - continue metoprolol, BP well controlled
   - hold Haldol for concern of NMS and parkisonian symptoms
   - Appreciate neuro recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-12-19**] 01:33 PM
   PICC Line - [**2102-12-24**] 06:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU